2120-03-01 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2120-2-29**] 09:00 AM
 MAGNETIC RESONANCE IMAGING - At [**2120-2-29**] 02:00 PM
 LUMBAR PUNCTURE - At [**2120-2-29**] 04:52 PM
   - Trial of PS 20/10
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2120-2-29**] 07:25 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-2-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-2-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-1**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.5
C (97.7
   HR: 83 (67 - 110) bpm
   BP: 129/82(99) {95/47(64) - 142/84(108)} mmHg
   RR: 12 (0 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  2,204 mL
                                                                    373 mL
   PO:
             TF:
                                                                    660 mL
                                                                    190 mL
   IVF:
                                                                  1,245 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                    952 mL
                                                                    185 mL
   Urine:
                                                                    952 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,252 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 461 (355 - 461) mL
   PS : 20 cmH2O
   RR (Set): 16
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/55/150/26/1
   Ve: 7.3 L/min
   PaO2 / FiO2: 375
   Physical Examination
   Gen:  sedated with propofol, unable to follow commands or answer
   questions, trach in place.
   HEENT:  PERRL, MMM, OP clear with multiple removed teeth
   Heart: S1S1 RRR
   Lungs:  CTAB in anterior lung fields
   Abd:  BS present, soft, mildly distended, PEG in place
   Ext:  WWP, no edema
   Neuro:  limited by sedation
   Labs / Radiology
   470 K/uL
   7.7 g/dL
   84 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.5 mEq/L
   24 mg/dL
   110 mEq/L
   144 mEq/L
   23.6 %
   6.9 K/uL
        [image002.jpg]
                             [**2120-2-27**]  06:43 AM
                             [**2120-2-27**]  08:22 PM
                             [**2120-2-28**]  02:49 AM
                             [**2120-2-28**]  03:13 AM
                             [**2120-2-29**]  02:48 AM
                             [**2120-2-29**]  03:08 AM
                             [**2120-2-29**]  06:28 AM
                             [**2120-2-29**]  10:07 PM
                             [**2120-3-1**]  04:31 AM
                             [**2120-3-1**]  04:43 AM
   WBC
   8.7
   7.8
   6.9
   Hct
   23.9
   24.7
   23.6
   Plt
   393
   443
   470
   Cr
   2.5
   1.9
   1.5
   TCO2
   31
   27
   28
   28
   27
   29
   30
   Glucose
   87
   97
   84
   Other labs: PT / PTT / INR:16.1/32.5/1.4, ALT / AST:16/31, Alk Phos / T
   Bili:151/1.3, Amylase / Lipase:54/41, Differential-Neuts:62.0 %,
   Band:4.0 %, Lymph:15.0 %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:318 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:174 IU/L, Ca++:10.7
   mg/dL, Mg++:1.9 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, fungal infection and Klebs
   bacteremia.
   .
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Has trach placed and
   vent dependent.  Currently appears euvolumic.  Most likely has stiff
   lungs currently due to ARDS.
   - try to wean off vent as possible, will start with PS
   .
   # Acute liver failure:  Most likely due to tylenol/ETOH toxicity.  Also
   is HCV positive.  Her LFTs and functional labs have improved.
   - follow up perioneal Cx
   - appreciate transplant recs
   - ? trial of lactulose
   .
   # ARF:  In the setting of multiorgan failure after ETOH/tylenol
   toxicity.  Now off of HD/CVVH.
   - trend UOP
   - trend Cr
   - renally dose meds
   - avoid nephrotoxins
   .
   # Klebsiella bacteremia:  Unlcear etiology.  Currently afebrile and
   hemodynamically stable.
   - cont meropenem
   - appreciate ID recs
   - consider tapping L pleural effusion
   - repeat TTE given ? new murmur
   .
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Maxillary sinus tissue, urine, sputum and
   skin.
   - continue fluconazole for 6 weeks, ending in [**2120-3-9**]
   - trend LFTs qweek
   .
   # Tooth abscess: s/p extraction.
   .
   # Necrotizing pancreatitis: Lipase normalized.  Most likely due to ETOH
   intoxication.
   - follow abdominal exam
   .
   # Polysubstance abuse:
   - appreciate psych recs
   .
   # Agitation:  MRI [**2-29**] prelim shows dilated ventricless, R sphenoid
   sinus lesion, mild periventricular [**Male First Name (un) 1983**] changes.  Had LP under fluoro
   today.  ? water shed infarct.  ? hepatic encephalopathy playing a role.
   - follow up CSF labs and culture, prelim does not look infected
   - f/[**Location 471**] read of MRI/V
   - appreciate neurology recs
   - EEG done by Neuro.
   - appreciate psych recs
   - psych recommends haldol 5-10 mg IV q4h prn for agitation, ? better
   with standing dose
   - daily EKG
   .
   # Right sphenoid sinus lesion:
   - appreciate ENT recs
   .
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable in mid 20s.
   - gaic all stool
   - will check B12 and folate
   .
   # Hypercalcemia: Unclear etiology.  ? secondary hyperparathyroidism.
   - cont to trend
   - will check PTH
   - discuss with renal today
   .
   # Tricuspid regurgitation:  Most likely secondary to ARDS and pulm HTN.
   - repeat TTE as above
   .
   # FEN:  Tube feed via PEG; replete lytes prn
   .
   # PPx: sc heparin, famotidine
   .
   # Access: 2 PIV
   .
   # Code: Full Code
   .
   # Contact: Father, also has a fiancee
   .
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-2-29**] 03:05 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-2-29**] 06:15 AM
   20 Gauge - [**2120-2-29**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-01 13:12:00 Physician Attending Progress Note
Chief Complaint: Multi organ failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2120-2-29**] 09:00 AM
 MAGNETIC RESONANCE IMAGING - At [**2120-2-29**] 02:00 PM
 LUMBAR PUNCTURE - At [**2120-2-29**] 04:52 PM
   Stable overnight. Very agitated off sedation.
   LP yesterday w/o e/o infection.
   MRI with periventricular inflamation and ? infarcts with ventricular
   dilation
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2120-2-29**] 07:25 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-1**] 12:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 116 (67 - 125) bpm
   BP: 124/60(81) {95/47(64) - 138/82(101)} mmHg
   RR: 21 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  2,205 mL
                                                                    674 mL
   PO:
             TF:
                                                                    660 mL
                                                                    370 mL
   IVF:
                                                                  1,245 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                    952 mL
                                                                    400 mL
   Urine:
                                                                    952 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,253 mL
                                                                    274 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 368 (355 - 475) mL
   PS : 20 cmH2O
   RR (Set): 16
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.32/55/150/26/1
   Ve: 10.5 L/min
   PaO2 / FiO2: 375
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, Anxious, No(t) Diaphoretic, comfortable on PSV
   20/10.
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva ale,
   Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at LSB radiating to the axilla.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , Rhonchorous: Few scattered
   rhonchi)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, PEG
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Follows simple commands, Responds to: Tactile
   stimuli, No(t) Oriented (to): , Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   470 K/uL
   84 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.5 mEq/L
   24 mg/dL
   110 mEq/L
   144 mEq/L
   23.6 %
   6.9 K/uL
        [image002.jpg]
                             [**2120-2-27**]  06:43 AM
                             [**2120-2-27**]  08:22 PM
                             [**2120-2-28**]  02:49 AM
                             [**2120-2-28**]  03:13 AM
                             [**2120-2-29**]  02:48 AM
                             [**2120-2-29**]  03:08 AM
                             [**2120-2-29**]  06:28 AM
                             [**2120-2-29**]  10:07 PM
                             [**2120-3-1**]  04:31 AM
                             [**2120-3-1**]  04:43 AM
   WBC
   8.7
   7.8
   6.9
   Hct
   23.9
   24.7
   23.6
   Plt
   393
   443
   470
   Cr
   2.5
   1.9
   1.5
   TCO2
   31
   27
   28
   28
   27
   29
   30
   Glucose
   87
   97
   84
   Other labs: PT / PTT / INR:16.1/32.5/1.4, ALT / AST:16/31, Alk Phos / T
   Bili:151/1.3, Amylase / Lipase:54/41, Differential-Neuts:62.0 %,
   Band:4.0 %, Lymph:15.0 %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:318 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:174 IU/L, Ca++:10.7
   mg/dL, Mg++:1.9 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   24 y/o F with with liver failure, pancreatitis and renal failure after
   tylenol intake, in the setting of Hep C. Not a candidate for liver
   transplant. Course complicated by ARDS of unclear [**Name2 (NI) 3761**],
   leukocytosis of unknown [**Name2 (NI) 3761**], renal failure requiring RRT, dental
   [**Name2 (NI) 4263**] requiring teeth extraction, disseminated yeast infection
   ([**Female First Name (un) 444**]) on fluconazole x 6 weeks, Klebsiella oxytoca bacteremia. TTE
   with TR and pulm HTN. CT chest with ARDS and large L effusion.
   Vent weaning barriers: Low compliance from fibroploriferative ARDS, ?
   neuromusc weakness albeit moving all extremities well, CNS agitation
   working against the vent.
   Try to find vent compatible PMV to communicate with patient.
   Recheck TTE to evaluate pulmonary HTN and valves (new murmurs on exam).
   Needs thoracentesis of large L pleural effusion shortly.
   Neuro: Noted to be agitated when vent weaned. On seroquel and prn
   haldol for agitation and methadone for chr pain. Wean meds slowly after
   discussion with psych vs adding Zyprexa. EEG showed global
   encephalopathy and MRI may suggest ventriculitis with hydrocephalus
   given large ventricles on MRI. F/u with neuro.
   Renal failure appears to be improving. Has been off dialysis for one
   week. Electrolytes and acid-base status acceptable. D/c epogen.
   Liver failure: improved. Added lactulose to see if related to hepatic
   failure without much improvement, albeit given for only 1 day.
   ID: Meropenem for Klebsiella bacteremia (course based on TTE ?
   vegetations )and Fluconazole (end [**3-9**]) for disseminated fungal
   infection
   ENT eval for R sphenoid sinusitis/mass and ? mastoiditis
   Hypercalcemia: PTH < 6. D/w renal reg further recs.
   Rest per resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-1**] 07:44 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2120-2-29**] 06:15 AM
   20 Gauge - [**2120-2-29**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2120-03-02 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - changed haldol prn to standing 10 TID plus 5 prn.
   - agitated multiple times overnight, tried fentanyl with mixed
   results.  2mg ativan worked well.
   - TTE hyperdynamic, no vegetations
   - given fluid and lasix for hypercalcemia
   - s/s consulted for [**Last Name (un) 4278**]-[**Doctor Last Name 4279**] valve
   - epo discontinued
   -- daily ekg
   -- ? cogentin
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2120-3-2**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-3-1**] 06:12 PM
   Fentanyl - [**2120-3-2**] 12:24 AM
   Haloperidol (Haldol) - [**2120-3-2**] 12:24 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-2**] 12:25 AM
   Lorazepam (Ativan) - [**2120-3-2**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-2**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.2
   HR: 83 (83 - 129) bpm
   BP: 119/65(84) {104/56(73) - 166/103(130)} mmHg
   RR: 12 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  1,891 mL
                                                                    620 mL
   PO:
             TF:
                                                                    721 mL
                                                                    233 mL
   IVF:
                                                                    840 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    500 mL
   Urine:
                                                                  1,620 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    271 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 529 (258 - 610) mL
   PS : 20 cmH2O
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 100%
   ABG: 7.33/54/137/25/1
   Ve: 8.8 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   474 K/uL
   7.8 g/dL
   83 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.6 mEq/L
   20 mg/dL
   113 mEq/L
   146 mEq/L
   24.4 %
   8.5 K/uL
        [image002.jpg]
                             [**2120-2-28**]  02:49 AM
                             [**2120-2-28**]  03:13 AM
                             [**2120-2-29**]  02:48 AM
                             [**2120-2-29**]  03:08 AM
                             [**2120-2-29**]  06:28 AM
                             [**2120-2-29**]  10:07 PM
                             [**2120-3-1**]  04:31 AM
                             [**2120-3-1**]  04:43 AM
                             [**2120-3-2**]  03:16 AM
                             [**2120-3-2**]  03:27 AM
   WBC
   8.7
   7.8
   6.9
   8.5
   Hct
   23.9
   24.7
   23.6
   24.4
   Plt
   393
   443
   470
   474
   Cr
   2.5
   1.9
   1.5
   1.3
   TCO2
   28
   28
   27
   29
   30
   30
   Glucose
   87
   97
   84
   83
   Other labs: PT / PTT / INR:15.9/30.6/1.4, ALT / AST:16/31, Alk Phos / T
   Bili:151/1.3, Amylase / Lipase:54/41, Differential-Neuts:62.0 %,
   Band:4.0 %, Lymph:15.0 %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:318 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:174 IU/L, Ca++:10.7
   mg/dL, Mg++:1.7 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, fungal infection and Klebs
   bacteremia.
   .
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Has trach placed and
   vent dependent.  Currently appears euvolumic.  Most likely has stiff
   lungs currently due to ARDS.
   - try to wean off vent
   - go down to peep of 8
   .
   # Acute liver failure:  Most likely due to tylenol/ETOH toxicity.  Also
   is HCV positive.  Her LFTs and functional labs have improved.
   - cont to monitor LFTs
   .
   # ARF:  In the setting of multiorgan failure after ETOH/tylenol
   toxicity.  Now off of HD/CVVH.
   - trend UOP
   - trend Cr
   - renally dose meds
   - avoid nephrotoxins
   .
   # Klebsiella bacteremia:  Unlcear etiology.  Currently afebrile and
   hemodynamically stable.
   - cont meropenem
   - appreciate ID recs
   - consider tapping L pleural effusion
   - repeat TTE did not show vegetations
   .
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Maxillary sinus tissue, urine, sputum and
   skin.
   - continue fluconazole for 6 weeks, ending in [**2120-3-9**]
   - trend LFTs qweek
   .
   # Tooth abscess: s/p extraction.
   .
   # Necrotizing pancreatitis: Lipase normalized.  Most likely due to ETOH
   intoxication.
   - follow abdominal exam
   .
   # Polysubstance abuse:
   - appreciate psych recs
   .
   # Agitation:  MRI [**2-29**] prelim shows dilated ventricles, R sphenoid
   sinus lesion, mild periventricular [**Male First Name (un) 1983**] changes.  Had LP under fluoro.
   Question of ventriculitis. Haldol and fentanyl not working for
   agitation. Ativan works best
   -call psych and ask abt further mgmt of agitation
   - cont standing haldol. Check daily ekg
   -cont prn ativan
   .
   # Right sphenoid sinus lesion:
   - appreciate ENT recs
   .
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable in mid 20s.
   - gaic all stool
   .
   # Hypercalcemia: Unclear etiology.  PTH less than normal per assay
   - cont to trend
   - try Lasix with IVF
   -call renal if does not improve
   .
   # FEN:  Tube feed via PEG; replete lytes prn
   .
   # PPx: sc heparin, famotidine
   .
   # Access: 2 PIV
   .
   # Code: Full Code
   .
   # Contact: Father, also has a fiancee
   .
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-1**] 07:44 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-2-29**] 06:15 AM
   20 Gauge - [**2120-3-2**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-03 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -PEEP down to 6
   - Bolused 500 cc NS for decreased UO
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2120-3-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-3-2**] 05:03 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-3**] 12:00 AM
   Haloperidol (Haldol) - [**2120-3-3**] 03:00 AM
   Lorazepam (Ativan) - [**2120-3-3**] 04:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-3**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.6
C (97.8
   HR: 85 (85 - 118) bpm
   BP: 124/68(88) {105/52(71) - 133/78(99)} mmHg
   RR: 12 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  2,738 mL
                                                                  1,030 mL
   PO:
             TF:
                                                                    728 mL
                                                                    232 mL
   IVF:
                                                                  1,440 mL
                                                                    678 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                    215 mL
   Urine:
                                                                  1,355 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,383 mL
                                                                    815 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 487 (329 - 538) mL
   PS : 20 cmH2O
   RR (Spontaneous): 11
   PEEP: 6 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 27 cmH2O
   SpO2: 99%
   ABG: 7.33/53/154/28/1
   Ve: 4.8 L/min
   PaO2 / FiO2: 385
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: MMM
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: CTAB in anterior lung fields
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: limited by sedation
   Labs / Radiology
   477 K/uL
   7.7 g/dL
   86 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.2 mEq/L
   17 mg/dL
   118 mEq/L
   152 mEq/L
   23.7 %
   9.0 K/uL
        [image002.jpg]
                             [**2120-2-29**]  03:08 AM
                             [**2120-2-29**]  06:28 AM
                             [**2120-2-29**]  10:07 PM
                             [**2120-3-1**]  04:31 AM
                             [**2120-3-1**]  04:43 AM
                             [**2120-3-2**]  03:16 AM
                             [**2120-3-2**]  03:27 AM
                             [**2120-3-2**]  01:25 PM
                             [**2120-3-2**]  05:06 PM
                             [**2120-3-3**]  04:06 AM
   WBC
   6.9
   8.5
   9.0
   Hct
   23.6
   24.4
   23.7
   Plt
   [**Telephone/Fax (3) 4292**]
   Cr
   1.5
   1.3
   1.2
   TCO2
   28
   27
   29
   30
   30
   28
   29
   Glucose
   84
   83
   86
   Other labs: PT / PTT / INR:16.1/28.6/1.4, ALT / AST:16/31, Alk Phos / T
   Bili:151/1.3, Amylase / Lipase:54/41, Differential-Neuts:62.0 %,
   Band:4.0 %, Lymph:15.0 %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:318 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:174 IU/L, Ca++:10.1
   mg/dL, Mg++:1.7 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, fungal infection and Klebs
   bacteremia.
   .
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Has trach placed and
   vent dependent.  Currently appears euvolumic.  Most likely has stiff
   lungs currently due to ARDS.  Improving vent settings.
   - try to wean off vent
   - go down to peep as much as possible
   .
   # Acute liver failure:  Most likely due to tylenol/ETOH toxicity.  Also
   is HCV positive.  Her LFTs and functional labs have improved.
   - cont to monitor LFTs
   .
   # ARF:  In the setting of multiorgan failure after ETOH/tylenol
   toxicity.  Now off of HD/CVVH.
   - trend UOP
   - trend Cr
   - renally dose meds
   - avoid nephrotoxins
   .
   # Klebsiella bacteremia:  Unlcear etiology.  Currently afebrile and
   hemodynamically stable.
   - cont meropenem
   - appreciate ID recs
   - consider tapping L pleural effusion, diag tap
   - repeat TTE without any sig mitral valve pathology (had MR murmur on
   exam)
   .
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Maxillary sinus tissue, urine, sputum and
   skin.
   - continue fluconazole for 6 weeks, ending in [**2120-3-9**]
   - trend LFTs qweek
   .
   # Tooth abscess: s/p extraction.
   .
   # Necrotizing pancreatitis: Lipase normalized.  Most likely due to ETOH
   intoxication.
   - follow abdominal exam
   .
   # Polysubstance abuse:
   - appreciate psych recs
   .
   # Agitation:  MRI [**2-29**] prelim shows dilated ventricles, R sphenoid
   sinus lesion, mild periventricular [**Male First Name (un) 1983**] changes.  Had LP under fluoro.
   Question of ventriculitis. Haldol and fentanyl not working for
   agitation. Ativan works best
   -call psych and ask abt further mgmt of agitation
   - cont standing haldol. Check daily ekg
   -cont prn ativan
   .
   # Right sphenoid sinus lesion:
   - appreciate ENT recs
   .
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable in mid 20s.
   - gaic all stool
   .
   # Hypercalcemia: Unclear etiology.  PTH less than normal per assay.
   Improving.
   - cont to trend
   - try Lasix with IVF
   -call renal if does not improve
   .
   # Hypernatremia:  Possible secondary to stress as we try to wean resp
   support and sedation.  ? SIADH.
   - replete free water deficit
   - cont trend Na
   .
   # FEN:  Tube feed via PEG; replete lytes prn
   .
   # PPx: sc heparin, famotidine
   .
   # Access: 2 PIV
   .
   # Code: Full Code
   .
   # Contact: Father, also has a fiancee
   .
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-2**] 09:43 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-2-29**] 06:15 AM
   20 Gauge - [**2120-3-2**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-03 10:20:00 Physician Attending Progress Note
Chief Complaint: resp failure
   HPI:
   24 Hour Events:
   PEEP down to 6
   NS bolus 500cc for decreased u.o.
   Ativan 6mg in last 24 hours and haldol dose increased.
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2120-3-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-3-2**] 05:03 PM
   Haloperidol (Haldol) - [**2120-3-3**] 03:00 AM
   Lorazepam (Ativan) - [**2120-3-3**] 04:40 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-3**] 08:08 AM
   Famotidine (Pepcid) - [**2120-3-3**] 08:09 AM
   Other medications:
   Methadone 30 q8h, Fluconazole, SQH, Docusate, Chlorhex, SSI,prn nebs
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-3**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 93 (85 - 105) bpm
   BP: 119/65(84) {105/52(71) - 130/72(97)} mmHg
   RR: 15 (11 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  2,738 mL
                                                                  1,207 mL
   PO:
             TF:
                                                                    728 mL
                                                                    298 mL
   IVF:
                                                                  1,440 mL
                                                                    700 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                    275 mL
   Urine:
                                                                  1,355 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,383 mL
                                                                    932 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 422 (329 - 538) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 6 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.33/53/154/28/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 385
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   477 K/uL
   86 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.2 mEq/L
   17 mg/dL
   118 mEq/L
   152 mEq/L
   23.7 %
   9.0 K/uL
        [image002.jpg]
                             [**2120-2-29**]  03:08 AM
                             [**2120-2-29**]  06:28 AM
                             [**2120-2-29**]  10:07 PM
                             [**2120-3-1**]  04:31 AM
                             [**2120-3-1**]  04:43 AM
                             [**2120-3-2**]  03:16 AM
                             [**2120-3-2**]  03:27 AM
                             [**2120-3-2**]  01:25 PM
                             [**2120-3-2**]  05:06 PM
                             [**2120-3-3**]  04:06 AM
   WBC
   6.9
   8.5
   9.0
   Hct
   23.6
   24.4
   23.7
   Plt
   [**Telephone/Fax (3) 4292**]
   Cr
   1.5
   1.3
   1.2
   TCO2
   28
   27
   29
   30
   30
   28
   29
   Glucose
   84
   83
   86
   Other labs: PT / PTT / INR:16.1/28.6/1.4, ALT / AST:16/31, Alk Phos / T
   Bili:151/1.3, Amylase / Lipase:54/41, Differential-Neuts:62.0 %,
   Band:4.0 %, Lymph:15.0 %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:318 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:174 IU/L, Ca++:10.1
   mg/dL, Mg++:1.7 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   24 y/o F with with liver failure, pancreatitis and renal failure after
   tylenol intake, in the setting of Hep C. Not a candidate for liver
   transplant. Course complicated by ARDS of unclear [**Name2 (NI) 3761**],
   leukocytosis of unknown [**Name2 (NI) 3761**], renal failure requiring RRT, dental
   [**Name2 (NI) 4263**] requiring teeth extraction, disseminated yeast infection
   ([**Female First Name (un) 444**]) on fluconazole x 6 weeks, Klebsiella oxytoca bacteremia. TTE
   with TR and pulm HTN. CT chest with ARDS and large L effusion.
   1)Pulm- ARDS, vent settings improved markedly. continue to wean. L
   effusion- will tap for diagnostic purposes given ongoing fevers. Passy
   Muir Valve this week.
   2)Neuro: Noted to be agitated when vent weaned. Psych following- on
   Haldol +prn Ativan. Hydrocephalus noted on MRI but no follow up
   necessary per neuro.
   3)Renal - ARF improving. Has been off dialysis for one week.
   Electrolytes and acid-base status acceptable.
   4)GI- Liver failure: improved. Pancreatitis resolved by enzymes but
   enhances on CT with peripancreatic fluid collection persistent.
   5)ID: Meropenem for Klebsiella bacteremia- unclear source, will review
   history and define course. and Fluconazole (end [**3-9**]) for disseminated
   fungal infection. TTE neg for vegetations.Ongoing fevers, will tap
   effusion and consider TEE this week. panculture today for fever spike.
   6)ENT-? needs eval for R sphenoid sinusitis/mass and ? mastoiditis.
   7)FEN: Hypercalcemia of  unclear etiology. PTH < 6. D/w renal re:
   further recs. Increase free water boluses for hypernatremia.
   8)ICU- full code, 2 pphl IVs,.
   9)CV- check daily EKGs given escalating haldol dose.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-2**] 09:43 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-2-29**] 06:15 AM
   20 Gauge - [**2120-3-2**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2120-03-04 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - EKG without QT prolongation
   - PNeed to touch base with ENT tomorrow as no recommendation left yet
   - Patient underwent uncomplicated thoracentesis, appears transudate,
   gram stain does not show any organism, culture is pending
   - no new renal recs yet, need to talk to them in AM regarding
   hypercalcemia
   - Na downtrending after, free water repletion including D5 and
   increasing flushes
   - Unable to place bedside PICC, needs IR PICC placement, order is
   placed
   - BCx and UCx sent for fever
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2120-3-3**] 03:55 PM
   Fluconazole - [**2120-3-3**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-3-3**] 08:00 PM
   Haloperidol (Haldol) - [**2120-3-3**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-4**] 12:00 AM
   Lorazepam (Ativan) - [**2120-3-4**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-4**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.2
C (97.2
   HR: 81 (81 - 114) bpm
   BP: 123/73(91) {107/60(77) - 137/86(107)} mmHg
   RR: 13 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  3,150 mL
                                                                    857 mL
   PO:
             TF:
                                                                    503 mL
                                                                    238 mL
   IVF:
                                                                  1,878 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                    250 mL
   Urine:
                                                                    745 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,655 mL
                                                                    607 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 407 (398 - 428) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 6 cmH2O
   FiO2: 40%
   RSBI Deferred: Sao2 < 90%
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.30/53/75/27/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   431 K/uL
   7.7 g/dL
   91 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   16 mg/dL
   114 mEq/L
   146 mEq/L
   24.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2120-2-29**]  10:07 PM
                             [**2120-3-1**]  04:31 AM
                             [**2120-3-1**]  04:43 AM
                             [**2120-3-2**]  03:16 AM
                             [**2120-3-2**]  03:27 AM
                             [**2120-3-2**]  01:25 PM
                             [**2120-3-2**]  05:06 PM
                             [**2120-3-3**]  04:06 AM
                             [**2120-3-4**]  03:31 AM
                             [**2120-3-4**]  04:18 AM
   WBC
   6.9
   8.5
   9.0
   9.8
   Hct
   23.6
   24.4
   23.7
   24.4
   Plt
   [**Telephone/Fax (3) 4330**]31
   Cr
   1.5
   1.3
   1.2
   1.1
   TCO2
   29
   30
   30
   28
   29
   27
   Glucose
   84
   83
   86
   91
   Other labs: PT / PTT / INR:16.2/30.7/1.4, ALT / AST:16/31, Alk Phos / T
   Bili:151/1.3, Amylase / Lipase:54/41, Differential-Neuts:62.0 %,
   Band:4.0 %, Lymph:15.0 %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:318 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:167 IU/L, Ca++:10.0
   mg/dL, Mg++:1.7 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, fungal infection and Klebs
   bacteremia.
   .
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Has trach placed and
   vent dependent.  Currently appears euvolumic.  Most likely has stiff
   lungs currently due to ARDS.  Improving vent settings.
   - try to wean off vent
   - go down to peep as much as possible
   .
   # Acute liver failure:  Most likely due to tylenol/ETOH toxicity.  Also
   is HCV positive.  Her LFTs and functional labs have improved.
   - cont to monitor LFTs
   .
   # ARF:  In the setting of multiorgan failure after ETOH/tylenol
   toxicity.  Now off of HD/CVVH.
   - trend UOP
   - trend Cr
   - renally dose meds
   - avoid nephrotoxins
   .
   # Klebsiella bacteremia:  Unlcear etiology.  Spiked yesterday and
   pancultured.  C diff sent on [**3-3**] is negative.   Left thoracentesis
   shows exudate with no organism on gram stain, culture is pending.
   - cont meropenem
   - appreciate ID recs, ? 14 day course need to verify with ID given
   patient spiked yesterday.
   - repeat TTE without any sig mitral valve pathology (had MR murmur on
   exam), ? need for TEE if bacteremia persists
   .
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Maxillary sinus tissue, urine, sputum and
   skin.
   - continue fluconazole for 6 weeks, ending in [**2120-3-9**]
   - trend LFTs qweek
   .
   # Tooth abscess: s/p extraction.
   .
   # Necrotizing pancreatitis: Lipase normalized.  Most likely due to ETOH
   intoxication.
   - follow abdominal exam
   .
   # Polysubstance abuse:
   - appreciate psych recs
   .
   # Agitation:  MRI [**2-29**] reviewed by Neurology, no explanation for
   agitation.  Had LP under fluoro, cultures and HSV PCR negative.
   Question of ventriculitis. Haldol and fentanyl not working for
   agitation. Ativan works best
   -appreciate psych recs
   - cont standing haldol. Check daily ekg
   -cont prn ativan
   .
   # Right sphenoid sinus lesion:  ENT recommends sinus CT.  Will leave
   recommendations today.
   - appreciate ENT recs
   .
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable in mid 20s.
   - guaic all stool
   .
   # Hypercalcemia: Unclear etiology.  PTH less than normal per assay.
   Improving.
   - cont to trend
   - try Lasix with IVF
   -call renal if does not improve
   .
   # Hypernatremia:  Possible secondary to stress (appropriate ADH) as we
   try to wean resp support and sedation.  ? SIADH.  Improved with free
   water deficit.
   - replete free water deficit
   - cont trend Na
   .
   # FEN:  Tube feed via PEG; replete lytes prn
   .
   # PPx: sc heparin, famotidine
   .
   # Access: 2 [**Last Name (LF) 1200**], [**First Name3 (LF) 865**]
   .
   # Code: Full Code
   .
   # Contact: Father, also has a fiancee
   .
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-3**] 07:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-2-29**] 06:15 AM
   20 Gauge - [**2120-3-2**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-04 11:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2120-3-3**] 11:21 AM
 THORACENTESIS - At [**2120-3-3**] 12:38 PM
   left lung: exudate, cxs pend
 FEVER - 101.2
F - [**2120-3-3**] 11:00 AM
   No QT prolongation on EKG
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2120-3-3**] 03:55 PM
   Fluconazole - [**2120-3-3**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-3-3**] 08:00 PM
   Haloperidol (Haldol) - [**2120-3-3**] 10:45 PM
   Lorazepam (Ativan) - [**2120-3-4**] 07:57 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-4**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-4**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.2
   HR: 82 (81 - 114) bpm
   BP: 113/64(82) {107/60(77) - 137/86(107)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  3,150 mL
                                                                  1,003 mL
   PO:
             TF:
                                                                    503 mL
                                                                    325 mL
   IVF:
                                                                  1,878 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                    354 mL
   Urine:
                                                                    745 mL
                                                                    354 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,655 mL
                                                                    649 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 415 (398 - 428) mL
   PS : 12 cmH2O
   RR (Spontaneous): 13
   PEEP: 6 cmH2O
   FiO2: 40%
   RSBI Deferred: Sao2 < 90%
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.30/53/75/27/0
   Ve: 5.3 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   431 K/uL
   91 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   16 mg/dL
   114 mEq/L
   146 mEq/L
   24.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2120-2-29**]  10:07 PM
                             [**2120-3-1**]  04:31 AM
                             [**2120-3-1**]  04:43 AM
                             [**2120-3-2**]  03:16 AM
                             [**2120-3-2**]  03:27 AM
                             [**2120-3-2**]  01:25 PM
                             [**2120-3-2**]  05:06 PM
                             [**2120-3-3**]  04:06 AM
                             [**2120-3-4**]  03:31 AM
                             [**2120-3-4**]  04:18 AM
   WBC
   6.9
   8.5
   9.0
   9.8
   Hct
   23.6
   24.4
   23.7
   24.4
   Plt
   [**Telephone/Fax (3) 4330**]31
   Cr
   1.5
   1.3
   1.2
   1.1
   TCO2
   29
   30
   30
   28
   29
   27
   Glucose
   84
   83
   86
   91
   Other labs: PT / PTT / INR:16.2/30.7/1.4, ALT / AST:16/31, Alk Phos / T
   Bili:151/1.3, Amylase / Lipase:54/41, Differential-Neuts:62.0 %,
   Band:4.0 %, Lymph:15.0 %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:318 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:167 IU/L, Ca++:10.0
   mg/dL, Mg++:1.7 mg/dL, PO4:5.1 mg/dL
   Imaging: CXR: bibasilar effusions, chronic infiltrates
   Assessment and Plan
 HYPERCALCEMIA (HIGH CALCIUM)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 LIVER FUNCTION ABNORMALITIES
   24 y/o F with with liver failure, pancreatitis and renal failure after
   tylenol intake, in the setting of Hep C. Not a candidate for liver
   transplant. Course complicated by ARDS of unclear [**Name2 (NI) 3761**],
   leukocytosis of unknown [**Name2 (NI) 3761**], renal failure requiring RRT, dental
   [**Name2 (NI) 4263**] requiring teeth extraction, disseminated yeast infection
   ([**Female First Name (un) 444**]) on fluconazole x 6 weeks, Klebsiella oxytoca bacteremia. TTE
   with TR and pulm HTN. CT chest with ARDS and large exudative L
   effusion. Persistent respiratory failure and fevers.
   Fever: pancx, check cdiff, continue curent abx (fluc for yeastemia and
   [**Last Name (un) 1540**] for Klebsiella bacteremia), adjust to renal fxn. d/w ID reg
   course. Check LFTs. ? RUQ US. F/u pleural effusion cxs (exudate). ? TEE
   if any further positive blood cxs.
   ENT: needs eval for R sphenoid sinusitis/mass and ? mastoiditis.
   Agitation: PMV to communicate when PS < 8, wean as tolerated, d/w psych
   and neuro, daily QT check on high doses of haldol. Likely toxic
   metabolic.
   Vent: Wean PS daily. Did not tolerate SBT, but doing well on PSV 10/5.
   Hypernatremia: improving
   Hypercalcemia: lasix and fluids, d/w renal
   Rest per resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-3**] 07:00 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines: Arterial Line - [**2120-2-29**] 06:15 AM
   20 Gauge - [**2120-3-2**] 12:00 AM, Picc consult
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care, Daily wake up
   Communication:  Comments:
   Code status: Full
   Disposition : ICU
   Total time spent: 36 minutes

2120-03-05 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2120-3-4**] 11:28 AM
   - renal has signed off, ionized calcium 1.34 (nl 1.32)
   - ENT: recommends radiographic study (appropriate study per radiology)
   to assess for cavernous sinus thrombosis, which would be an indication
   for surgery.  O/W, NTD.
   - ID: [**Last Name (un) **] is 14 day course until [**3-9**]
   - did well overall on SBT/low psv, though slightly acidotic
   - 20 IV lasix for continued borderline UOP and anasarca
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2120-3-3**] 08:00 PM
   Meropenem - [**2120-3-5**] 01:44 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-3-4**] 08:47 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-5**] 12:26 AM
   Lorazepam (Ativan) - [**2120-3-5**] 01:44 AM
   Furosemide (Lasix) - [**2120-3-5**] 04:19 AM
   Haloperidol (Haldol) - [**2120-3-5**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-5**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.9
   HR: 101 (79 - 120) bpm
   BP: 114/60(80) {103/56(73) - 161/87(115)} mmHg
   RR: 18 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  2,305 mL
                                                                    933 mL
   PO:
             TF:
                                                                    720 mL
                                                                    235 mL
   IVF:
                                                                    465 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                    763 mL
                                                                    770 mL
   Urine:
                                                                    763 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,542 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 379 (374 - 479) mL
   PS : 15 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.32/58/102/29/1
   Ve: 5.4 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Gen: sedated, in NAD
   HEENT: MMM
   Heart: S1S2 RRR
   Lungs: diffuse coarse BS
   Abdomen: soft, distended
   Ext: WWP
   Neuro: limited by sedation, spontaneously moves extremities
   Labs / Radiology
   406 K/uL
   7.5 g/dL
   87 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   16 mg/dL
   113 mEq/L
   145 mEq/L
   22.8 %
   8.7 K/uL
        [image002.jpg]
                             [**2120-3-2**]  03:27 AM
                             [**2120-3-2**]  01:25 PM
                             [**2120-3-2**]  05:06 PM
                             [**2120-3-3**]  04:06 AM
                             [**2120-3-4**]  03:31 AM
                             [**2120-3-4**]  04:18 AM
                             [**2120-3-4**]  03:48 PM
                             [**2120-3-5**]  03:42 AM
                             [**2120-3-5**]  04:09 AM
                             [**2120-3-5**]  06:25 AM
   WBC
   9.0
   9.8
   8.7
   Hct
   23.7
   24.4
   22.8
   Plt
   477
   431
   406
   Cr
   1.2
   1.1
   1.0
   TCO2
   30
   28
   29
   27
   27
   30
   31
   Glucose
   86
   91
   87
   Other labs: PT / PTT / INR:16.2/30.7/1.4, ALT / AST:18/42, Alk Phos / T
   Bili:159/1.1, Amylase / Lipase:54/41, Differential-Neuts:62.0 %,
   Band:4.0 %, Lymph:15.0 %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:318 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:167 IU/L, Ca++:10.3
   mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, fungal infection and Klebs
   bacteremia.
   .
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Has trach placed and
   vent dependent.  Currently appears euvolumic.  Most likely has stiff
   lungs currently due to ARDS.  Improving vent settings.
   - try to wean off vent
   - go down to peep as much as possible
   .
   # GPC bacteremia:  From the Aline.  Unclear whether this is a
   contamination or not.
   - remove Aline after a central line placement
   - start Vancomycin
   - send surveillance cultures
   - repeat CXR
   .
   # Klebsiella bacteremia:  Unlcear etiology.  Spiked yesterday and
   pancultured.  C diff sent on [**3-3**] is negative.   Left thoracentesis
   showed exudate with no organism on gram stain.
   - cont meropenem, 14 day course, last dose 2/28 per ID
   - appreciate ID recs
   - repeat TTE without any sig mitral valve pathology (had MR murmur on
   exam), ? need for TEE if bacteremia persists
   .
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Maxillary sinus tissue, urine, sputum and
   skin.
   - continue fluconazole for 6 weeks, ending in [**2120-3-9**]
   - trend LFTs qweek
   .
   # Acute liver failure:  Most likely due to tylenol/ETOH toxicity.  Also
   is HCV positive.  Her LFTs and functional labs have improved.
   - cont to monitor LFTs
   .
   # ARF:  In the setting of multiorgan failure after ETOH/tylenol
   toxicity.  Now off of HD/CVVH.
   - trend UOP
   - trend Cr
   - renally dose meds
   - avoid nephrotoxins
   - will send SPEP/UPED given patient also has anemia
   .
   # Tooth abscess: s/p extraction.
   .
   # Necrotizing pancreatitis: Lipase normalized.  Most likely due to ETOH
   intoxication.
   - follow abdominal exam
   .
   # Polysubstance abuse:
   - appreciate psych recs
   .
   # Agitation:  MRI [**2-29**] reviewed by Neurology, no explanation for
   agitation.  Had LP under fluoro, cultures and HSV PCR negative.
   Question of ventriculitis. Haldol and fentanyl not working for
   agitation. Ativan works best.
   -appreciate psych recs
   - cont standing haldol. Check daily ekg
   -cont prn ativan
   .
   # Right sphenoid sinus lesion:  ENT to evaluate.
   - appreciate ENT recs, ? need for reimaging
   .
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable in mid 20s.
   - guaic all stool
   - SPEP/UPEP as above
   .
   # Hypercalcemia: Unclear etiology.  PTH less than normal per assay.
   Improving.
   - cont to trend
   - try Lasix with IVF
   -SPEP/UPEP as above
   - will check cortisol level as adrenal insufficiency could cause
   hypercalcemia
   .
   # Hypernatremia:  Possible secondary to stress (appropriate ADH) as we
   try to wean resp support and sedation.
    Improved with free water deficit.
   - replete free water deficit
   - cont trend Na
   .
   # FEN:  Tube feed via PEG; replete lytes prn
   .
   # PPx: sc heparin, famotidine
   .
   # Access: 1 PIV, need to place central line and remove Aline as above
   .
   # Code: Full Code
   .
   # Contact: Father, also has a fiancee
   .
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-4**] 08:40 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-3-4**] 12:17 PM
   22 Gauge - [**2120-3-4**] 06:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-05 11:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2120-3-4**] 11:28 AM
 ARTERIAL LINE - START [**2120-3-4**] 12:17 PM
 ARTERIAL LINE - STOP [**2120-3-4**] 12:19 PM
   Got lasix for anasarca and low UO.
   Resp acidosis with vent wean to [**5-14**] yesterday, put back on [**10-14**]
   QT 350
   Blood cxs: GPC in pairs and chains from Aline from [**3-4**]
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2120-3-3**] 08:00 PM
   Meropenem - [**2120-3-5**] 01:44 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-3-4**] 08:47 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-5**] 12:26 AM
   Furosemide (Lasix) - [**2120-3-5**] 04:19 AM
   Haloperidol (Haldol) - [**2120-3-5**] 06:01 AM
   Lorazepam (Ativan) - [**2120-3-5**] 09:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-5**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 98 (79 - 120) bpm
   BP: 111/57(77) {103/56(73) - 161/87(115)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  2,305 mL
                                                                  1,063 mL
   PO:
             TF:
                                                                    720 mL
                                                                    333 mL
   IVF:
                                                                    465 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                    763 mL
                                                                  1,090 mL
   Urine:
                                                                    763 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,542 mL
                                                                    -27 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 428 (379 - 479) mL
   PS : 15 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.32/58/102/29/1
   Ve: 5.9 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: sedated from meds given this am
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: all present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: more than yesterday
   Abdominal: Soft, Non-tender, mild distention, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands when not agitated
   Labs / Radiology
   7.5 g/dL
   406 K/uL
   87 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   16 mg/dL
   113 mEq/L
   145 mEq/L
   22.8 %
   8.7 K/uL
        [image002.jpg]
                             [**2120-3-2**]  03:27 AM
                             [**2120-3-2**]  01:25 PM
                             [**2120-3-2**]  05:06 PM
                             [**2120-3-3**]  04:06 AM
                             [**2120-3-4**]  03:31 AM
                             [**2120-3-4**]  04:18 AM
                             [**2120-3-4**]  03:48 PM
                             [**2120-3-5**]  03:42 AM
                             [**2120-3-5**]  04:09 AM
                             [**2120-3-5**]  06:25 AM
   WBC
   9.0
   9.8
   8.7
   Hct
   23.7
   24.4
   22.8
   Plt
   477
   431
   406
   Cr
   1.2
   1.1
   1.0
   TCO2
   30
   28
   29
   27
   27
   30
   31
   Glucose
   86
   91
   87
   Other labs: PT / PTT / INR:16.2/30.7/1.4, ALT / AST:18/42, Alk Phos / T
   Bili:159/1.1, Amylase / Lipase:54/41, Differential-Neuts:62.0 %,
   Band:4.0 %, Lymph:15.0 %, Mono:12.0 %, Eos:0.0 %, Fibrinogen:318 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:167 IU/L, Ca++:10.3
   mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Blood cxs: GPC in pairs and chains from Aline from [**3-4**]
   Assessment and Plan
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   24 y/o F with with liver failure, pancreatitis and renal failure after
   tylenol intake, in the setting of Hep C. Not a candidate for liver
   transplant. Course complicated by ARDS of unclear [**Name2 (NI) 3761**],
   leukocytosis, renal failure requiring RRT, dental [**Name2 (NI) 4263**] requiring
   teeth extraction, disseminated yeast infection ([**Female First Name (un) 444**]) on fluconazole
   x 6 weeks, Klebsiella oxytoca bacteremia. TTE with TR and pulm HTN. CT
   chest with ARDS and large exudative L effusion. Persistent respiratory
   failure and fevers.
   Vent: tolerated [**10-14**] yesterday, but increased secretions thru trach,
   check CXR today prior to weaning before
   ID:
   GPC Bacteremia: Start Vanc, d/c aline, place central line today, no hx
   of VRE
   fluc for yeastemia and [**Last Name (un) 1540**] for Klebsiella bacteremia
   ENT: check MRV to r/o cavernous sinus thrombosis.
   Agitation: Likely toxic metabolic. Continue haldol and Ativan prn. t/b
   with psych.
   Hypernatremia: improving, monitor
   Hypercalcemia: Lasix + fluids, check SPEP/UPEP
   Anemia: slow, follow
   Rest per resident note
   ICU Care
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-3**] 07:00 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines: Arterial Line - [**2120-2-29**] 06:15 AM
   20 Gauge - [**2120-3-2**] 12:00 AM, Picc consult
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care, Daily wake up
   Communication:  Comments:
   Code status: Full
   Disposition : ICU
   Total time spent: 36 minutes

2120-03-06 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started Vancomycin for GPC's in blood cultures from [**3-4**]
   - Right subclavian placed without difficulty, then pulled back ~5 cm
   - brachial a-line pulled with tip sent for culture
   - Cortisol, CK, TSH sent to evaluate for causes of hypercalcemia
   - Neuro recs -> ammonia level sent
   - [**Last Name (un) 1398**] stim performed: 7-> 16
   - Per ENT, maxillofacial/sinus CT performed -> showed overall
   improvement of sinusitis
   - pulled rectal tube and tugged her PEG site, PEG study looks fine
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2120-3-3**] 08:00 PM
   Vancomycin - [**2120-3-5**] 10:00 PM
   Meropenem - [**2120-3-6**] 03:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2120-3-5**] 02:27 PM
   Midazolam (Versed) - [**2120-3-5**] 02:30 PM
   Haloperidol (Haldol) - [**2120-3-5**] 10:35 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-6**] 12:30 AM
   Lorazepam (Ativan) - [**2120-3-6**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-6**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 101 (79 - 115) bpm
   BP: 123/77(87) {106/58(69) - 133/77(103)} mmHg
   RR: 22 (3 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
    CVP: 15 (15 - 21)mmHg
   Total In:
                                                                  1,820 mL
                                                                    442 mL
   PO:
   TF:
                                                                    600 mL
                                                                    164 mL
   IVF:
                                                                    640 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    565 mL
   Urine:
                                                                  1,575 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    245 mL
                                                                   -123 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 416 (416 - 501) mL
   PS : 15 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 122
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.33/57/109/30/2
   Ve: 5.6 L/min
   PaO2 / FiO2: 273
   Physical Examination
   Gen: sedated, in Nad
   Heent; MMM
   Heart: s1s2 rrr
   Lungs: diffuse coarse breath sounds
   Abdomen: soft nt
   Ext; wwp
   Neuro; limited by sedation
   Labs / Radiology
   312 K/uL
   7.1 g/dL
   92 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.8 mEq/L
   14 mg/dL
   115 mEq/L
   148 mEq/L
   22.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2120-3-2**]  05:06 PM
                             [**2120-3-3**]  04:06 AM
                             [**2120-3-4**]  03:31 AM
                             [**2120-3-4**]  04:18 AM
                             [**2120-3-4**]  03:48 PM
                             [**2120-3-5**]  03:42 AM
                             [**2120-3-5**]  04:09 AM
                             [**2120-3-5**]  06:25 AM
                             [**2120-3-5**]  06:45 PM
                             [**2120-3-6**]  05:21 AM
   WBC
   9.0
   9.8
   8.7
   7.4
   Hct
   23.7
   24.4
   22.8
   22.5
   Plt
   477
   431
   406
   312
   Cr
   1.2
   1.1
   1.0
   1.0
   TCO2
   29
   27
   27
   30
   31
   31
   Glucose
   86
   91
   87
   92
   Other labs: PT / PTT / INR:16.3/31.2/1.5, CK / CKMB / Troponin-T:14//,
   ALT / AST:17/39, Alk Phos / T Bili:152/1.1, Amylase / Lipase:54/41,
   Differential-Neuts:62.0 %, Band:4.0 %, Lymph:15.0 %, Mono:12.0 %,
   Eos:0.0 %, Fibrinogen:318 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.6
   g/dL, LDH:167 IU/L, Ca++:10.5 mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, fungal infection and Klebs
   bacteremia.
   .
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Has trach placed and
   vent dependent.  Currently appears euvolumic.  Most likely has stiff
   lungs currently due to ARDS.  Improving vent settings.
   - try to wean off vent
   - go down to peep as much as possible
   - will contact [**Name (NI) 4372**]/[**Name2 (NI) **] regarding tapping left pleural effusion in
   order to wean off the vent
   .
   # GPC bacteremia:  From the Aline.  Unclear whether this is a
   contamination or not.
   - removed Aline after a central line placement
   - start Vancomycin
   - send surveillance cultures
   - repeat CXR
   .
   # Klebsiella bacteremia:  Unlcear etiology.  Spiked yesterday and
   pancultured.  C diff sent on [**3-3**] is negative.   Left thoracentesis
   showed exudate with no organism on gram stain.
   - cont meropenem, 14 day course, last dose 2/28 per ID
   - appreciate ID recs
   - repeat TTE without any sig mitral valve pathology (had MR murmur on
   exam), ? need for TEE if bacteremia persists
   .
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Maxillary sinus tissue, urine, sputum and
   skin.
   - continue fluconazole for 6 weeks, ending in [**2120-3-9**]
   - trend LFTs qweek
   . # Agitation:  MRI [**2-29**] reviewed by Neurology, no explanation for
   agitation.  Had LP under fluoro, cultures and HSV PCR negative.
   Question of ventriculitis. Haldol and fentanyl not working for
   agitation. Ativan works best.
   -appreciate psych recs
   - cont standing haldol. Check daily ekg
   -cont prn ativan
   .
   # Right sphenoid sinus lesion:  Appreciate ENT recs.
   - appreciate ENT recs
   .
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable in mid 20s.
   - guaic all stool
   - SPEP/UPEP as above
   .
   # Hypercalcemia: Unclear etiology.  PTH less than normal per assay.
   Patient is hypothyroid.  Cortisol is normal.
   - appreciate endocrinology recs
   - cont to trend
   - IVF
   -SPEP/UPEP as above
   - not giving lasix given hypernatremia
   .
   # Hypernatremia:  Possible secondary to stress (appropriate ADH) as we
   try to wean resp support and sedation.
    Improved with free water deficit.
   - replete free water deficit
   - cont trend Na
   .
   # Hypothyroidism:
   - started on levothyroxine 50 mcg daily
   - appreciate endocrinology recommnedation
   .
   # Acute liver failure:  Most likely due to tylenol/ETOH toxicity.  Also
   is HCV positive.  Her LFTs and functional labs have improved.
   - cont to monitor LFTs
   .
   # ARF:  In the setting of multiorgan failure after ETOH/tylenol
   toxicity.  Now off of HD/CVVH.
   - trend UOP
   - trend Cr
   - renally dose meds
   - avoid nephrotoxins
   - will send SPEP/UPED given patient also has anemia
   .
   # Tooth abscess: s/p extraction.
   .
   # Necrotizing pancreatitis: Lipase normalized.  Most likely due to ETOH
   intoxication.
   - follow abdominal exam
   .
   # Polysubstance abuse:
   - appreciate psych recs
   .
   # FEN:  Tube feed via PEG; replete lytes prn
   .
   # PPx: sc heparin, famotidine
   .
   # Access: 1 PIV, need to place central line and remove Aline as above
   .
   # Code: Full Code
   .
   # Contact: Father, also has a fiancee
   .
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-6**] 02:25 AM 30 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2120-3-4**] 06:15 PM
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-06 10:04:00 Physician Attending Progress Note
Chief Complaint: Acute Liver Failure
   Tylenol Overdose
   ARF
   Candidemia and Tooth Abcess
   Sepsis
   ARDS
   Necrotizing Pancreatitis
   Hepatic Encephalopathy
   HPI:
   24 year old transfer from SICU after nearly 2 months in hospital.
   Initially admitted with acute hepatic failure, renal failure, and
   pancreatitis in setting of tylenol ingestion (taking for tooth pain)
   and EtOH. Long SICU course complicated by [**Hospital 4364**] transferred to MICU for
   persistent resp failure. Barriers include: ARDS, with severe
   parenchymal disease, altered mental status (psych consulting for
   agitation). She also has Klebsiella bacteremia of unclear source,
   spiked fever today, and hypercalcemia. Over weekend, did diagnostic tap
   of pleural effusion and pancultured for ongoing fevers, actually
   weaning vent quite well. Plan: reconsult S&S (they didn't want to try
   PMV apparently due to high settings before), f/u cultures/pleural
   fluid, ENT c/s wants eval for cavernous sinus thrombosis. A line cxs
   growing GPC, no hx of VRE.
   24 Hour Events:
   Grew GPCs in BCx yesterday. Aline was d/c'd. Vancomycin was started. R
   SCL placed. [**Last Name (un) 1398**] stimmed appropriately. Found to be hypothyroid. Had CT
   sinus to eval sphenoid lesion. Pulled at PEG, PEG study looks well.
 ARTERIAL LINE - STOP [**2120-3-5**] 08:01 PM
 MULTI LUMEN - START [**2120-3-5**] 09:09 PM
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2120-3-3**] 08:00 PM
   Vancomycin - [**2120-3-5**] 10:00 PM
   Meropenem - [**2120-3-6**] 08:23 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2120-3-5**] 02:27 PM
   Midazolam (Versed) - [**2120-3-5**] 02:30 PM
   Haloperidol (Haldol) - [**2120-3-5**] 10:35 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-6**] 08:23 AM
   Lorazepam (Ativan) - [**2120-3-6**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-6**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 100 (79 - 115) bpm
   BP: 121/72(83) {106/58(69) - 133/77(103)} mmHg
   RR: 18 (3 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
   CVP: 12 (12 - 21)mmHg
   Total In:
                                                                  1,820 mL
                                                                    695 mL
   PO:
   TF:
                                                                    600 mL
                                                                    211 mL
   IVF:
                                                                    640 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    700 mL
   Urine:
                                                                  1,575 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    245 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 416 (416 - 501) mL
   PS : 15 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 122
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.33/57/109/30/2
   Ve: 5.6 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   312 K/uL
   92 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.8 mEq/L
   14 mg/dL
   115 mEq/L
   148 mEq/L
   22.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2120-3-2**]  05:06 PM
                             [**2120-3-3**]  04:06 AM
                             [**2120-3-4**]  03:31 AM
                             [**2120-3-4**]  04:18 AM
                             [**2120-3-4**]  03:48 PM
                             [**2120-3-5**]  03:42 AM
                             [**2120-3-5**]  04:09 AM
                             [**2120-3-5**]  06:25 AM
                             [**2120-3-5**]  06:45 PM
                             [**2120-3-6**]  05:21 AM
   WBC
   9.0
   9.8
   8.7
   7.4
   Hct
   23.7
   24.4
   22.8
   22.5
   Plt
   477
   431
   406
   312
   Cr
   1.2
   1.1
   1.0
   1.0
   TCO2
   29
   27
   27
   30
   31
   31
   Glucose
   86
   91
   87
   92
   Other labs: PT / PTT / INR:16.3/31.2/1.5, CK / CKMB / Troponin-T:14//,
   ALT / AST:17/39, Alk Phos / T Bili:152/1.1, Amylase / Lipase:54/41,
   Differential-Neuts:62.0 %, Band:4.0 %, Lymph:15.0 %, Mono:12.0 %,
   Eos:0.0 %, Fibrinogen:318 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.6
   g/dL, LDH:167 IU/L, Ca++:10.5 mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Microbiology: line cx growing GPC
   Assessment and Plan
   24 y/o F with with liver failure, pancreatitis and renal failure after
   tylenol intake, in the setting of Hep C. Not a candidate for liver
   transplant. Course complicated by ARDS of unclear [**Name2 (NI) 3761**],
   leukocytosis, renal failure requiring RRT, dental [**Name2 (NI) 4263**] requiring
   teeth extraction, disseminated yeast infection ([**Female First Name (un) 444**]) on fluconazole
   x 6 weeks, Klebsiella oxytoca bacteremia. TTE with TR and pulm HTN. CT
   chest with ARDS and large exudative L effusion. Persistent respiratory
   failure and fevers.
    Vent: tolerated [**10-14**] yesterday, failed due to rapid shallow breathing,
   try [**10-14**] again today, PaO2 >60 sats 88%, PH >7.3, PCO2 <80, consult
   thoracics for ? VATS decortication.
    ID: GPC Bacteremia: Started Vanc, d/c'd aline, central line placed
   today, no hx of VRE.  Fluc for yeastemia and [**Last Name (un) 1540**] for Klebsiella
   bacteremia (last dose 2/28), suspected VAP. Check surveillance cx.
   Follow loculated L effusion.
   Liver failure: Has HCV, synthetic function stabilized. Not a transplant
   candidate due to EtOH.
   ARF: Felt [**2-12**] APAP, now resolved.
    ENT: check MRI regarding possible cavernous sinus thrombosis
   mention in report but will confirm with rad. CT sinuses pending.
    Agitation: MRI with possible ventriculis, LP negative. Suspect
   delirium from infection/elev Ca.
   Hypothyroidism: Start 50 mcg synthroid. Check T4 in a week.
    Hypernatremia: Increase FW to 200 cc q4h
    Hypercalcemia: Lasix + fluids, check SPEP/UPEP, suspect from
   hypothyroidism, consult endocrine, cont FW
    Access: RIJ, PIV
   Dispo: PT/OT, will need rehab when MS improved
   Summary: Complicated case with details in resident's note. Prolonged
   hospitalization with ARDS, respiratory failure s/p trach, remains vent
   dependent with diffuse infiltrates on CXR and loculated left pleural
   effusion, klebs bacteremia, now GPC bacteremia (on vanc, speciation and
   sensitivities pending
 enterococcus sp [**Last Name (un) 206**] to levoflox and
   ampicillin, will stop vanc and start LVF). Agree with continuing
   meropenem until [**3-9**], fluconazole, f/u ENT recs, treat hypothyroidism,
   f/u workup of hypercalcemia. Will consult endocrinology re: multiple
   issues and thoracics to evaluate for VATS decortication.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-6**] 02:25 AM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2120-3-4**] 06:15 PM
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38
   Patient is critically ill

2120-03-07 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient had IP drain of left pleural effusion with chest tube in
   place, exudative effusion, cultures were sent
   - patient spiked a temp, pancultured
   - cultures grew enterococcus sensitive to ampicillin and levofloxacin,
   switched abx to levoflxacin (from vanc)
   - ID recs, if cultures are enterococcus should complete a 14 day course
   witha sensitive drug with day 1 as the first day of negative cultures
   - ENT recs, allergic fungal sinusitis, improving, continue current
   fluconazole per ID recs, f/u with Dr.[**First Name (STitle) 4381**] in 1 to 2 weeks
   - endocrine recs, hypothyroidism is due to sick euthyroid syndrome,
   improving, no need for levothyroxine.  hypercalcemia is due to
   intravascular volume depletion, continue IV hydration.
   - pscyh recs, add zyprexa 5 mg [**Hospital1 **] to current regimen
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2120-3-6**] 09:00 PM
   Meropenem - [**2120-3-7**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-3-6**] 08:23 AM
   Midazolam (Versed) - [**2120-3-6**] 01:25 PM
   Haloperidol (Haldol) - [**2120-3-7**] 05:30 AM
   Lorazepam (Ativan) - [**2120-3-7**] 05:30 AM
   Fentanyl - [**2120-3-7**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-7**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.3
C (101
   HR: 105 (82 - 125) bpm
   BP: 109/61(98) {97/49(62) - 126/73(98)} mmHg
   RR: 17 (12 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
    CVP: 5 (5 - 16)mmHg
   Total In:
                                                                  3,858 mL
                                                                  1,691 mL
   PO:
   TF:
                                                                    648 mL
                                                                    134 mL
   IVF:
                                                                  2,040 mL
                                                                  1,067 mL
   Blood products:
   Total out:
                                                                  3,305 mL
                                                                    430 mL
   Urine:
                                                                  1,045 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    553 mL
                                                                  1,261 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 345 (292 - 418) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 159
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///27/
   Ve: 8.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   272 K/uL
   7.3 g/dL
   106 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   13 mg/dL
   112 mEq/L
   145 mEq/L
   22.2 %
   12.5 K/uL
        [image002.jpg]
                             [**2120-3-3**]  04:06 AM
                             [**2120-3-4**]  03:31 AM
                             [**2120-3-4**]  04:18 AM
                             [**2120-3-4**]  03:48 PM
                             [**2120-3-5**]  03:42 AM
                             [**2120-3-5**]  04:09 AM
                             [**2120-3-5**]  06:25 AM
                             [**2120-3-5**]  06:45 PM
                             [**2120-3-6**]  05:21 AM
                             [**2120-3-7**]  04:36 AM
   WBC
   9.0
   9.8
   8.7
   7.4
   12.5
   Hct
   23.7
   24.4
   22.8
   22.5
   22.2
   Plt
   477
   431
   406
   312
   272
   Cr
   1.2
   1.1
   1.0
   1.0
   0.9
   TCO2
   27
   27
   30
   31
   31
   Glucose
   86
   91
   87
   92
   106
   Other labs: PT / PTT / INR:15.6/31.5/1.4, CK / CKMB / Troponin-T:14//,
   ALT / AST:15/34, Alk Phos / T Bili:153/0.9, Amylase / Lipase:54/41,
   Differential-Neuts:64.4 %, Band:4.0 %, Lymph:23.1 %, Mono:7.8 %,
   Eos:4.2 %, Fibrinogen:318 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.4
   g/dL, LDH:167 IU/L, Ca++:10.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Microbiology: [**2120-3-6**] 1:56 pm PLEURAL FLUID      PLEURAL FLUID.
      GRAM STAIN (Final [**2120-3-6**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):
      ANAEROBIC CULTURE (Preliminary):
   [**3-6**] blood cx: NGTD
   [**3-6**] urine cx: NGTD
   [**2120-3-4**] 11:14 am BLOOD CULTURE      Source: Line-art.
   Blood Culture, Routine (Preliminary):
    ENTEROCOCCUS SP..
   PRELIMINARY SENSITIVITY.
   AMPICILLIN------------       S
   LEVOFLOXACIN----------       S
   Assessment and Plan
   24 y/o lady with multiorgan failure, fungal infection and Klebs
   bacteremia.
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Has trach placed and
   vent dependent.  Currently appears euvolumic.  Most likely has stiff
   lungs currently due to ARDS.  Improving vent settings.
   - try to wean off vent
   - go down to peep as much as possible
   - will contact [**Name (NI) 4372**]/[**Name2 (NI) **] regarding tapping left pleural effusion in
   order to wean off the vent
   # GPC bacteremia:  From the Aline.  Unclear whether this is a
   contamination or not.
   - removed Aline after a central line placement
   - start Vancomycin
   - send surveillance cultures
   - repeat CXR
   # Klebsiella bacteremia:  Unlcear etiology.  Spiked yesterday and
   pancultured.  C diff sent on [**3-3**] is negative.   Left thoracentesis
   showed exudate with no organism on gram stain.
   - cont meropenem, 14 day course, last dose 2/28 per ID
   - appreciate ID recs
   - repeat TTE without any sig mitral valve pathology (had MR murmur on
   exam), ? need for TEE if bacteremia persists
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Maxillary sinus tissue, urine, sputum and
   skin.
   - continue fluconazole for 6 weeks, ending in [**2120-3-9**]
   - trend LFTs qweek
   # Agitation:  MRI [**2-29**] reviewed by Neurology, no explanation for
   agitation.  Had LP under fluoro, cultures and HSV PCR negative.
   Question of ventriculitis. Haldol and fentanyl not working for
   agitation. Ativan works best.
   -appreciate psych recs
   - cont standing haldol. Check daily ekg
   -cont prn ativan
   # Right sphenoid sinus lesion:  Appreciate ENT recs.
   - appreciate ENT recs
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable in mid 20s.
   - guaic all stool
   - SPEP/UPEP as above
   # Hypercalcemia: Unclear etiology.  PTH less than normal per assay.
   Patient is hypothyroid.  Cortisol is normal.
   - appreciate endocrinology recs
   - cont to trend
   - IVF
   -SPEP/UPEP as above
   - not giving lasix given hypernatremia
   # Hypernatremia:  Possible secondary to stress (appropriate ADH) as we
   try to wean resp support and sedation.
    Improved with free water deficit.
   - replete free water deficit
   - cont trend Na
   # Hypothyroidism:
   - started on levothyroxine 50 mcg daily
   - appreciate endocrinology recommnedation
   # Acute liver failure:  Most likely due to tylenol/ETOH toxicity.  Also
   is HCV positive.  Her LFTs and functional labs have improved.
   - cont to monitor LFTs
   # ARF:  In the setting of multiorgan failure after ETOH/tylenol
   toxicity.  Now off of HD/CVVH.
   - trend UOP
   - trend Cr
   - renally dose meds
   - avoid nephrotoxins
   - will send SPEP/UPED given patient also has anemia
   # Tooth abscess: s/p extraction.
   # Necrotizing pancreatitis: Lipase normalized.  Most likely due to ETOH
   intoxication.
   - follow abdominal exam
   # Polysubstance abuse:
   - appreciate psych recs
   # FEN:  Tube feed via PEG; replete lytes prn
   # PPx: sc heparin, famotidine
   # Access: CVL
   # Code: Full Code
   # Contact: Father, also has a fiancee
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2120-3-4**] 06:15 PM
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-07 10:51:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 year old transfer from SICU after nearly 2 months in hospital.
   Initially admitted with acute hepatic failure, renal failure, and
   pancreatitis in setting of tylenol ingestion (taking for tooth pain)
   and EtOH. Long SICU course complicated by [**Hospital 4364**] transferred to MICU for
   persistent resp failure. Barriers include: ARDS, with severe
   parenchymal disease, altered mental status (psych consulting for
   agitation). She also has Klebsiella bacteremia of unclear source,
   spiked fever today, and hypercalcemia. Over weekend, did diagnostic tap
   of pleural effusion and pancultured for ongoing fevers, actually
   weaning vent quite well. Today IP placed a pigtail for loculated L eff,
   trying to wean PS.
   24 Hour Events:
   L pleural pigtail drain placed
 drained >1.8 L. Endocrine consult rec
   hydration for hypercalcemia, felt was c/w sick euthyroid. GPCs came
   back as enterococcus faecium. [**3-6**] blood culture growing GPC.
 CHEST TUBE PLACED - At [**2120-3-6**] 02:09 PM
 BLOOD CULTURED - At [**2120-3-6**] 07:09 PM
 SPUTUM CULTURE - At [**2120-3-6**] 07:09 PM
 URINE CULTURE - At [**2120-3-6**] 07:09 PM
 FEVER - 102.3
F - [**2120-3-6**] 06:00 PM
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2120-3-6**] 09:00 PM
   Meropenem - [**2120-3-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2120-3-6**] 01:25 PM
   Fentanyl - [**2120-3-7**] 06:45 AM
   Haloperidol (Haldol) - [**2120-3-7**] 09:11 AM
   Lorazepam (Ativan) - [**2120-3-7**] 10:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-7**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.4
C (101.1
   HR: 104 (82 - 125) bpm
   BP: 121/62(75) {97/49(62) - 133/74(98)} mmHg
   RR: 25 (6 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
   CVP: 10 (5 - 16)mmHg
   Total In:
                                                                  3,858 mL
                                                                  2,017 mL
   PO:
   TF:
                                                                    648 mL
                                                                    134 mL
   IVF:
                                                                  2,040 mL
                                                                  1,303 mL
   Blood products:
   Total out:
                                                                  3,305 mL
                                                                    695 mL
   Urine:
                                                                  1,045 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    553 mL
                                                                  1,322 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (292 - 418) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 159
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   272 K/uL
   106 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   13 mg/dL
   112 mEq/L
   145 mEq/L
   22.2 %
   12.5 K/uL
        [image002.jpg]
                             [**2120-3-3**]  04:06 AM
                             [**2120-3-4**]  03:31 AM
                             [**2120-3-4**]  04:18 AM
                             [**2120-3-4**]  03:48 PM
                             [**2120-3-5**]  03:42 AM
                             [**2120-3-5**]  04:09 AM
                             [**2120-3-5**]  06:25 AM
                             [**2120-3-5**]  06:45 PM
                             [**2120-3-6**]  05:21 AM
                             [**2120-3-7**]  04:36 AM
   WBC
   9.0
   9.8
   8.7
   7.4
   12.5
   Hct
   23.7
   24.4
   22.8
   22.5
   22.2
   Plt
   477
   431
   406
   312
   272
   Cr
   1.2
   1.1
   1.0
   1.0
   0.9
   TCO2
   27
   27
   30
   31
   31
   Glucose
   86
   91
   87
   92
   106
   Other labs: PT / PTT / INR:15.6/31.5/1.4, CK / CKMB / Troponin-T:14//,
   ALT / AST:15/34, Alk Phos / T Bili:153/0.9, Amylase / Lipase:54/41,
   Differential-Neuts:64.4 %, Band:4.0 %, Lymph:23.1 %, Mono:7.8 %,
   Eos:4.2 %, Fibrinogen:318 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.4
   g/dL, LDH:167 IU/L, Ca++:10.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   24 y/o F with with liver failure, pancreatitis and renal failure after
   tylenol intake, in the setting of Hep C. Not a candidate for liver
   transplant. Course complicated by ARDS of unclear [**Name2 (NI) 3761**],
   leukocytosis, renal failure requiring RRT, dental [**Name2 (NI) 4263**] requiring
   teeth extraction, disseminated yeast infection ([**Female First Name (un) 444**]) on fluconazole
   x 6 weeks, Klebsiella oxytoca bacteremia. TTE with TR and pulm HTN. CT
   chest with ARDS and large exudative L effusion
 being drained by
   pigtail catheter. Persistent respiratory failure and fevers, now with
   enterococcus bacteremia.
   -discuss with psych recs for delirium
   -reduce ativan to 1mg q6h
   -meet with family about baseline
   -prn zyprexa
   -discuss with neuro
   Enterococcal bacteremia/Klebsiella Bacteremia:
   -Levofloxacin started but per new sensitivities, will be changed to
   ampicillin for total 2 weeks after surveillance cultures negative.
   Fungal Sinus disease:
   -cont. fluconazole
   -ENT following
 HYPERCALCEMIA (HIGH CALCIUM)
   -Likely due to ARF and hypovolemia, I/O + 1L, avoid lasix
   Hypernatremia: Likely dehydration, replete FW
   Low TSH: Likely sick euthyroid. Appreciate endocrine
s input
   Respiratory failure:
   -Try [**5-14**] PS today
   -CT chest pleural effusion, cont. CT to suction
   -may wean more easily now that effusion drained
   FEN: TF
   Summary: Complicated case with details in resident's note. Prolonged
   hospitalization with ARDS, respiratory failure s/p trach, remains vent
   dependent with diffuse infiltrates on CXR and loculated left pleural
   effusion, klebs bacteremia, now GPC bacteremia (on vanc, speciation and
   sensitivities pending
 enterococcus sp [**Last Name (un) 206**] to levoflox and
   ampicillin, will stop vanc and start LVF). Agree with continuing
   meropenem until [**3-9**], fluconazole, f/u ENT recs, f/u workup of
   hypercalcemia.
   ICU Care
   Nutrition: TF
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2120-03-08 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - amp started in place of levo per ID recs
   - psych recommended taper haldol, d/c zyprexa, standing ativan - not
   ordered [**2-12**] concern about delirium
   - CT chest - organizing ARDS
   - OT came - no eval now given MS that may be reversible
   - Endo: cont IVF, follow Ca++, + fluid balance
   - IP: can waterseal CTube after CT - did not waterseal [**2-12**] to continued
   output
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2120-3-6**] 09:00 PM
   Meropenem - [**2120-3-8**] 02:00 AM
   Ampicillin - [**2120-3-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2120-3-7**] 09:11 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-7**] 03:55 PM
   Lorazepam (Ativan) - [**2120-3-8**] 06:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-8**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 119 (85 - 121) bpm
   BP: 130/61(78) {100/49(60) - 130/74(85)} mmHg
   RR: 24 (6 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
    CVP: 21 (6 - 21)mmHg
   Total In:
                                                                  5,459 mL
                                                                  1,272 mL
   PO:
   TF:
                                                                    489 mL
                                                                    242 mL
   IVF:
                                                                  3,121 mL
                                                                    750 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    950 mL
   Urine:
                                                                  1,245 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,354 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 324 (305 - 380) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 21 cmH2O
   SpO2: 93%
   ABG: ///28/
   Ve: 6.5 L/min
   Physical Examination
   Gen: sedated, not followig commands
   Heent: MMM
   Heart: S1S2 RRR
   Lungs: Coarse BS bilat ant lung fields
   Chest: left chest tube in place
   Abdomen: obese, soft ND
   Ext: wwp
   Neuro: limited by mental status
   Labs / Radiology
   233 K/uL
   6.8 g/dL
   86 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   11 mg/dL
   118 mEq/L
   148 mEq/L
   21.2 %
   8.8 K/uL
        [image002.jpg]
                             [**2120-3-4**]  03:31 AM
                             [**2120-3-4**]  04:18 AM
                             [**2120-3-4**]  03:48 PM
                             [**2120-3-5**]  03:42 AM
                             [**2120-3-5**]  04:09 AM
                             [**2120-3-5**]  06:25 AM
                             [**2120-3-5**]  06:45 PM
                             [**2120-3-6**]  05:21 AM
                             [**2120-3-7**]  04:36 AM
                             [**2120-3-8**]  04:07 AM
   WBC
   9.8
   8.7
   7.4
   12.5
   8.8
   Hct
   24.4
   22.8
   22.5
   22.2
   21.2
   Plt
   431
   406
   312
   272
   233
   Cr
   1.1
   1.0
   1.0
   0.9
   0.8
   TCO2
   27
   27
   30
   31
   31
   Glucose
   91
   87
   92
   106
   86
   Other labs: PT / PTT / INR:16.1/33.4/1.4, CK / CKMB / Troponin-T:14//,
   ALT / AST:15/34, Alk Phos / T Bili:153/0.9, Amylase / Lipase:54/41,
   Differential-Neuts:64.4 %, Band:4.0 %, Lymph:23.1 %, Mono:7.8 %,
   Eos:4.2 %, Fibrinogen:318 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:10.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, now with persistent respiratory
   failure and respiratory failure
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Now s/p trach placement
   and vent dependent.  Able to wean down pressure support for a while but
   hard to wean in the last couple of days.  IP performed thoracentesis
   and pigtail placement of left pleural effusion on [**3-6**], consistent with
   exudative effusion.
   - trial of [**5-14**] on PS today
   - f/u pleural fluid cultures
   # GPC bacteremia and Enterococcus bacteremia:  Enteroccus sensitive to
   ampicillin on [**2-2**].  Source was thought to be a-line which was
   discontinued on [**3-5**].  A-line tip did not grow any.  But now has GPC
   bacteremia on [**2-4**] BCx.
   - Ampicllin 14 day course from last negative bcx (day 1 = [**5-5**])
   - f/u speciation and sensitivities
   - TTE to look for vegetations
   # Klebsiella bacteremia:  Undetermined source.  TTE was without any
   significant valvular pathology.
   - cont meropenem, 14 day course, last dose 2/28 per ID
   - appreciate ID recs
   - f/u surveillance cultures
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Cultured from maxillary sinus tissue,
   urine, sputum and skin.
   - continue fluconazole for 6 weeks, ending [**2120-3-9**]
   - trend LFTs qweek
   # Altered mental status:  Consider delirium in the setting of resolving
   acute illness.  Patient responds only to noxious stimuli and does not
   follow exam.  MRI on [**2-29**] showed no radiographic explanation for
   altered mental status.  LP was unrevealing.  ? Ventriculitis.
   - will taper off haldol, 10 mg tid today (from 15 tid)
   - d/c standing zyprexa
   - prn zyprexa
   - continue 1 mg ativan qid to slowly taper off given the patient has
   received a lot of benzos in the recent past
   - appreciate neuro/psych recs
   # Right sphenoid sinus lesion:  Repeat CT scan revealed sinusitis
   improving.
   - ENT following, need follow up with Dr.[**First Name (STitle) 4381**] in two weeks
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable at ~21-22.  Patient is currently menstruating.
   - minimize blood draws
   - guaic all stool
   - SPEP/UPEP pending
   # Hypercalcemia:  Likely secondary to hypovolemia.
   - gentle hydration
   - appreciate endocrinology recs
   # Hypernatremia:  Possible secondary to stress (appropriate ADH) as we
   try to wean resp support and sedation.
    Improved with free water boluses via PEG in the paset.
   - replete free water deficit via increasing free water boluses
   - cont trend Na
   # Hypothyroidism:  TFT
s consistent with sick thyroid.
   - No thyroid replacement indicated.
   - appreciate endocrinology recommnedation
   # Acute liver failure:  Most likely due to tylenol/ETOH toxicity.  Also
   is HCV positive.  Her LFTs and functional labs have improved.
   - cont to monitor LFTs
   # Tooth abscess: s/p extraction.
   .
   # ARF: transiently on CVVH/HD, now resolved.
   .
   # Pancreatitis:  Now resolved.
   # FEN:  Tube feed via PEG; replete lytes prn
   # PPx: sc heparin, famotidine
   # Access:  Right subclavian placed [**3-5**].
   # Code: Full Code
   # Contact: Father, also has a fiancee
   # Dispo:  ICU for now
   - PT/OT unable to assess as per nursing concerns
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-7**] 12:10 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-08 10:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 y/o F with with liver failure, pancreatitis and renal failure after
   tylenol intake, in the setting of Hep C. Not a candidate for liver
   transplant. Course complicated by ARDS of unclear [**Name2 (NI) 3761**],
   leukocytosis, renal failure requiring RRT, dental [**Name2 (NI) 4263**] requiring
   teeth extraction, disseminated yeast infection ([**Female First Name (un) 444**]) on fluconazole
   x 6 weeks, Klebsiella oxytoca bacteremia. TTE with TR and pulm HTN. CT
   chest with ARDS and large exudative L effusion
 being drained by
   pigtail catheter. Persistent respiratory failure and fevers, now with
   enterococcus bacteremia.
   24 Hour Events:
   CT chest showed a well drained effusion. Psyche rec d/c antipsychotics
   as not effective and continue slow ativan taper. IP rec water seal, but
   suction was continued for continued output. PS inc to [**10-19**] for
   transient desaturation.
 EKG - At [**2120-3-7**] 11:47 AM
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2120-3-6**] 09:00 PM
   Meropenem - [**2120-3-8**] 02:00 AM
   Ampicillin - [**2120-3-8**] 08:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-3-7**] 03:55 PM
   Lorazepam (Ativan) - [**2120-3-8**] 06:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-8**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.7
   HR: 92 (85 - 121) bpm
   BP: 114/62(72) {100/49(60) - 133/93(98)} mmHg
   RR: 18 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
   CVP: 10 (6 - 21)mmHg
   Total In:
                                                                  5,459 mL
                                                                  1,458 mL
   PO:
   TF:
                                                                    489 mL
                                                                    289 mL
   IVF:
                                                                  3,121 mL
                                                                    889 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                  1,060 mL
   Urine:
                                                                  1,245 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,354 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (305 - 380) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 12.2 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, disconjugate
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, agitated, no purposeful movement
   Labs / Radiology
   6.8 g/dL
   233 K/uL
   86 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   11 mg/dL
   118 mEq/L
   148 mEq/L
   21.2 %
   8.8 K/uL
        [image002.jpg]
                             [**2120-3-4**]  03:31 AM
                             [**2120-3-4**]  04:18 AM
                             [**2120-3-4**]  03:48 PM
                             [**2120-3-5**]  03:42 AM
                             [**2120-3-5**]  04:09 AM
                             [**2120-3-5**]  06:25 AM
                             [**2120-3-5**]  06:45 PM
                             [**2120-3-6**]  05:21 AM
                             [**2120-3-7**]  04:36 AM
                             [**2120-3-8**]  04:07 AM
   WBC
   9.8
   8.7
   7.4
   12.5
   8.8
   Hct
   24.4
   22.8
   22.5
   22.2
   21.2
   Plt
   431
   406
   312
   272
   233
   Cr
   1.1
   1.0
   1.0
   0.9
   0.8
   TCO2
   27
   27
   30
   31
   31
   Glucose
   91
   87
   92
   106
   86
   Other labs: PT / PTT / INR:16.1/33.4/1.4, CK / CKMB / Troponin-T:14//,
   ALT / AST:15/34, Alk Phos / T Bili:153/0.9, Amylase / Lipase:54/41,
   Differential-Neuts:64.4 %, Band:4.0 %, Lymph:23.1 %, Mono:7.8 %,
   Eos:4.2 %, Fibrinogen:318 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:10.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   24 y/o F with with liver failure, pancreatitis and renal failure after
   tylenol intake, in the setting of Hep C. Not a candidate for liver
   transplant. Course complicated by ARDS of unclear [**Name2 (NI) 3761**],
   leukocytosis, renal failure requiring RRT, dental [**Name2 (NI) 4263**] requiring
   teeth extraction, disseminated yeast infection ([**Female First Name (un) 444**]) on fluconazole
   x 6 weeks, Klebsiella oxytoca bacteremia. TTE with TR and pulm HTN. CT
   chest with ARDS and large exudative L effusion
 being drained by
   pigtail catheter. Persistent respiratory failure and fevers, now with
   enterococcus bacteremia.
   1. Resp failure: ARDS
   -[**5-14**] PS today
   -check ABG if fails
   -CT put out 400 cc since midnight, check with IP if they want it to
   waterseal
   2. GPC bacteremia/Klebsiella bactermia: Suspected from aline
   -check TTE to r/o endocarditis
   -amp and meropenem for enterococcus and klebsiella
   3. AMS: Suspect delirium vs. toxic/metabolic
   -haldol 10 mg tid
   -d/c standing zyprexa, prn zyprexa
   -cont. ativan 1 mg qid
   4. Hypercalcemia/Hypernatremia:
   -250cc FW q4h
   -lasix 20 IV X1, goal I/O even
   5. FEN: TF at goal
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-7**] 12:10 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2120-03-09 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: inability to wean
   24 Hour Events:
   - Lasix 20 mg IV x 1 given
   - TTE performed: revealed 2+ TR, but 3+ TR seen on prior TTE dated
   [**2120-1-24**]
   - Zyprexa discontinued
   - Haldol changed to IV given decreased risk or extrapyramidal signs
   - Chest tube with .. mL output
   - Free water boluses increased to 300 cc q3 hours given worsening
   hypernatremia following diuresis
   - surveillance blood cx sent
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2120-3-6**] 09:00 PM
   Meropenem - [**2120-3-8**] 08:05 PM
   Ampicillin - [**2120-3-9**] 04:08 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-3-8**] 09:30 AM
   Furosemide (Lasix) - [**2120-3-8**] 12:46 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-9**] 12:01 AM
   Lorazepam (Ativan) - [**2120-3-9**] 12:01 AM
   Haloperidol (Haldol) - [**2120-3-9**] 01:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-9**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.9
   HR: 99 (82 - 125) bpm
   BP: 117/57(70) {84/42(63) - 143/95(101)} mmHg
   RR: 20 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
    CVP: 13 (8 - 21)mmHg
   Total In:
                                                                  4,081 mL
                                                                  1,074 mL
   PO:
   TF:
                                                                    720 mL
                                                                    235 mL
   IVF:
                                                                  1,661 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                  3,469 mL
                                                                    740 mL
   Urine:
                                                                  2,710 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    612 mL
                                                                    334 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 396 (313 - 396) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 11 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   224 K/uL
   6.7 g/dL
   108 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.4 mEq/L
   11 mg/dL
   114 mEq/L
   148 mEq/L
   21.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2120-3-4**]  03:48 PM
                             [**2120-3-5**]  03:42 AM
                             [**2120-3-5**]  04:09 AM
                             [**2120-3-5**]  06:25 AM
                             [**2120-3-5**]  06:45 PM
                             [**2120-3-6**]  05:21 AM
                             [**2120-3-7**]  04:36 AM
                             [**2120-3-8**]  04:07 AM
                             [**2120-3-8**]  05:03 PM
                             [**2120-3-9**]  04:51 AM
   WBC
   8.7
   7.4
   12.5
   8.8
   7.3
   Hct
   22.8
   22.5
   22.2
   21.2
   21.1
   Plt
   [**Telephone/Fax (3) 4411**]33
   224
   Cr
   1.0
   1.0
   0.9
   0.8
   0.8
   0.8
   TCO2
   27
   30
   31
   31
   Glucose
   87
   92
   106
   86
   105
   108
   Other labs: PT / PTT / INR:15.4/30.1/1.4, CK / CKMB / Troponin-T:14//,
   ALT / AST:15/34, Alk Phos / T Bili:153/0.9, Amylase / Lipase:54/41,
   Differential-Neuts:64.4 %, Band:4.0 %, Lymph:23.1 %, Mono:7.8 %,
   Eos:4.2 %, Fibrinogen:318 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:10.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, now with persistent respiratory
   failure and respiratory failure
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Now s/p trach placement
   and vent dependent.  Able to wean down pressure support for a while but
   hard to wean in the last couple of days.  IP performed thoracentesis
   and pigtail placement of left pleural effusion on [**3-6**], consistent with
   exudative effusion.
   - trial of [**5-14**] on PS today
   - f/u pleural fluid cultures
   # GPC bacteremia and Enterococcus bacteremia:  Enteroccus sensitive to
   ampicillin on [**2-2**].  Source was thought to be a-line which was
   discontinued on [**3-5**].  A-line tip did not grow any.  But now has GPC
   bacteremia on [**2-4**] BCx.
   - Ampicllin 14 day course from last negative bcx (day 1 = [**5-5**])
   - f/u speciation and sensitivities
   - TTE to look for vegetations
   # Klebsiella bacteremia:  Undetermined source.  TTE was without any
   significant valvular pathology.
   - cont meropenem, 14 day course, last dose 2/28 per ID
   - appreciate ID recs
   - f/u surveillance cultures
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Cultured from maxillary sinus tissue,
   urine, sputum and skin.
   - continue fluconazole for 6 weeks, ending [**2120-3-9**]
   - trend LFTs qweek
   # Altered mental status:  Consider delirium in the setting of resolving
   acute illness.  Patient responds only to noxious stimuli and does not
   follow exam.  MRI on [**2-29**] showed no radiographic explanation for
   altered mental status.  LP was unrevealing.  ? Ventriculitis.
   - will taper off haldol, 10 mg tid today (from 15 tid)
   - d/c standing zyprexa
   - prn zyprexa
   - continue 1 mg ativan qid to slowly taper off given the patient has
   received a lot of benzos in the recent past
   - appreciate neuro/psych recs
   # Right sphenoid sinus lesion:  Repeat CT scan revealed sinusitis
   improving.
   - ENT following, need follow up with Dr.[**First Name (STitle) 4381**] in two weeks
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable at ~21-22.  Patient is currently menstruating.
   - minimize blood draws
   - guaic all stool
   - SPEP/UPEP pending
   # Hypercalcemia:  Likely secondary to hypovolemia.
   - gentle hydration
   - appreciate endocrinology recs
   # Hypernatremia:  Possible secondary to stress (appropriate ADH) as we
   try to wean resp support and sedation.
    Improved with free water boluses via PEG in the paset.
   - replete free water deficit via increasing free water boluses
   - cont trend Na
   # Hypothyroidism:  TFT
s consistent with sick thyroid.
   - No thyroid replacement indicated.
   - appreciate endocrinology recommnedation
   # Acute liver failure:  Most likely due to tylenol/ETOH toxicity.  Also
   is HCV positive.  Her LFTs and functional labs have improved.
   - cont to monitor LFTs
   # Tooth abscess: s/p extraction.
   .
   # ARF: transiently on CVVH/HD, now resolved.
   .
   # Pancreatitis:  Now resolved.
   # FEN:  Tube feed via PEG; replete lytes prn
   # PPx: sc heparin, famotidine
   # Access:  Right subclavian placed [**3-5**].
   # Code: Full Code
   # Contact: Father, also has a fiancee
   # Dispo:  ICU for now
   - PT/OT unable to assess as per nursing concerns
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-8**] 02:08 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-09 11:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 y/o F with with liver failure, pancreatitis and renal failure after
   tylenol intake, in the setting of Hep C. Course complicated by ARDS,
   renal failure requiring RRT, dental [**Name2 (NI) 4263**] requiring teeth
   extraction, disseminated yeast infection ([**Female First Name (un) 444**]) on fluconazole x 6
   weeks, Klebsiella oxytoca bacteremia. TTE with TR and mild pulm HTN. CT
   chest with ARDS and large exudative L effusion
 being drained by
   pigtail catheter. Persistent respiratory failure and fevers, now with
   enterococcus bacteremia likely from a-line which has been pulled. Has
   had very difficult to control agitation, many antipsychotics not
   effective. Per psyche we are using haldol 10 mg IV tid, ativan 1 mg
   qid, and 10 mg IV prn.
   24 Hour Events:
   Placed on just standing haldol and ativen with plan to wean. TTE showed
   RVSP in mid 30s. CT put to suction for high output. On [**8-17**] was
   desaturating, so inc to [**10-19**].
 EKG - At [**2120-3-8**] 09:00 AM
 TRANSTHORACIC ECHO - At [**2120-3-8**] 11:00 AM
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2120-3-6**] 09:00 PM
   Meropenem - [**2120-3-9**] 07:53 AM
   Ampicillin - [**2120-3-9**] 09:56 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-3-8**] 12:46 PM
   Lorazepam (Ativan) - [**2120-3-9**] 12:01 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-9**] 07:53 AM
   Haloperidol (Haldol) - [**2120-3-9**] 10:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-9**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 89 (78 - 125) bpm
   BP: 105/54(66) {84/42(63) - 143/95(101)} mmHg
   RR: 16 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
   CVP: 13 (8 - 21)mmHg
   Total In:
                                                                  4,081 mL
                                                                  2,221 mL
   PO:
   TF:
                                                                    720 mL
                                                                    338 mL
   IVF:
                                                                  1,661 mL
                                                                    623 mL
   Blood products:
   Total out:
                                                                  3,469 mL
                                                                  1,100 mL
   Urine:
                                                                  2,710 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    612 mL
                                                                  1,121 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (313 - 396) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 4.9 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffuse)
   Abdominal: Soft, Bowel sounds present, Tender: diffusely, no rebound
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.7 g/dL
   224 K/uL
   108 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.4 mEq/L
   11 mg/dL
   114 mEq/L
   148 mEq/L
   21.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2120-3-4**]  03:48 PM
                             [**2120-3-5**]  03:42 AM
                             [**2120-3-5**]  04:09 AM
                             [**2120-3-5**]  06:25 AM
                             [**2120-3-5**]  06:45 PM
                             [**2120-3-6**]  05:21 AM
                             [**2120-3-7**]  04:36 AM
                             [**2120-3-8**]  04:07 AM
                             [**2120-3-8**]  05:03 PM
                             [**2120-3-9**]  04:51 AM
   WBC
   8.7
   7.4
   12.5
   8.8
   7.3
   Hct
   22.8
   22.5
   22.2
   21.2
   21.1
   Plt
   [**Telephone/Fax (3) 4411**]33
   224
   Cr
   1.0
   1.0
   0.9
   0.8
   0.8
   0.8
   TCO2
   27
   30
   31
   31
   Glucose
   87
   92
   106
   86
   105
   108
   Other labs: PT / PTT / INR:15.4/30.1/1.4, CK / CKMB / Troponin-T:14//,
   ALT / AST:15/34, Alk Phos / T Bili:153/0.9, Amylase / Lipase:54/41,
   Differential-Neuts:64.4 %, Band:4.0 %, Lymph:23.1 %, Mono:7.8 %,
   Eos:4.2 %, Fibrinogen:318 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:10.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   24 y/o f with initial tylenol OD, c/b pancreatitis, sepsis, ARDS, line
   infection, and severe altered MS.
   1. Resp failure: ARDS
   -diurese 1-2L neg
   -try [**5-14**] again, drop FiO2 to 40%
   -chest tube to water seal to make sure apical PTX doesn't expand
   2. Delirium
   -haldol 10 mg IV tid and prn
   -ativan 1mg tid today
   3. Klebsiella/Enterococcal bacteremia:
   -finished 2 weeks of meropenem, d/c
   -cont. amp for 2 weeks
   4. Anemia: Keep hct >21%
   -guiac stools, f/u SPEP/UPEP
   5. Hypernatremia: Increase FW, switch meds to D5
   Cont 300 cc FW q3h
   6. FEN: TF
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-8**] 02:08 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2120-03-10 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory failure
   24 Hour Events:
   - Lasix IV 20 x 2 given yesterday
   - Patient completed meropenem and caspofungin
   - All her IV meds were switched to mixed in D5W except ampicillin
   - IP recs, waterseal for 24 to 48 hours and then d/c
   - Endocrine signed off, they do not think her mental changes are
   secondary to hypercalcemia
   - decreased PEEP to 8
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2120-3-9**] 07:53 AM
   Ampicillin - [**2120-3-10**] 04:02 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-3-9**] 06:07 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-10**] 12:00 AM
   Haloperidol (Haldol) - [**2120-3-10**] 03:00 AM
   Lorazepam (Ativan) - [**2120-3-10**] 05:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-10**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 80 (77 - 122) bpm
   BP: 119/67(79) {101/51(63) - 166/116(125)} mmHg
   RR: 12 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  4,291 mL
                                                                  1,113 mL
   PO:
             TF:
                                                                    720 mL
                                                                    235 mL
   IVF:
                                                                  1,051 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  3,460 mL
                                                                    705 mL
   Urine:
                                                                  2,770 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    831 mL
                                                                    408 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 388 (350 - 480) mL
   PS : 10 cmH2O
   RR (Spontaneous): 35
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 9.9 L/min
   Physical Examination
   GEN: nad
   pulm: Diffuse rhonchi
   cv: hrrr, no m/r/g
   abd: distended, s/nt/nabs
   extr: 2+ pedal edema
   neuro: purposeful movements of all extremities, does not answer
   questions or follow commands.  5 beats of clonus in LE bilaterally
   Labs / Radiology
   241 K/uL
   6.7 g/dL
   103 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.5 mEq/L
   10 mg/dL
   111 mEq/L
   147 mEq/L
   21.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2120-3-5**]  04:09 AM
                             [**2120-3-5**]  06:25 AM
                             [**2120-3-5**]  06:45 PM
                             [**2120-3-6**]  05:21 AM
                             [**2120-3-7**]  04:36 AM
                             [**2120-3-8**]  04:07 AM
                             [**2120-3-8**]  05:03 PM
                             [**2120-3-9**]  04:51 AM
                             [**2120-3-9**]  06:16 PM
                             [**2120-3-10**]  03:06 AM
   WBC
   7.4
   12.5
   8.8
   7.3
   7.0
   Hct
   22.5
   22.2
   21.2
   21.1
   21.0
   Plt
   [**Telephone/Fax (3) 4435**]24
   241
   Cr
   1.0
   0.9
   0.8
   0.8
   0.8
   0.8
   0.8
   TCO2
   30
   31
   31
   Glucose
   92
   106
   86
   105
   108
   84
   103
   Other labs: PT / PTT / INR:15.3/30.5/1.4, CK / CKMB / Troponin-T:96//,
   ALT / AST:15/34, Alk Phos / T Bili:153/0.9, Amylase / Lipase:54/41,
   Differential-Neuts:64.4 %, Band:4.0 %, Lymph:23.1 %, Mono:7.8 %,
   Eos:4.2 %, Fibrinogen:318 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:10.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, now with persistent respiratory
   failure and respiratory failure
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Now s/p trach placement
   and vent dependent.  Continues to slowly wean.  IP performed
   thoracentesis and pigtail placement of left pleural effusion on [**3-6**],
   consistent with exudative effusion.   Complicated by small
   pneumothorax, chest tube on suction.
   - cont to wean as tolerated, decrease FiO2 to 40%, [**5-14**]
   - diurese goal negative 2L to help respiratory status
 lasix drip
   - f/u pleural fluid cultures (NTD)
   - Chest tube to suction for pneumothorax, follow IP recs (appreciate
   involvement). Daily CXR.
   # Enterococcus bacteremia:  Enteroccus sensitive to ampicillin on
   [**3-4**].  Source was thought to be a-line which was discontinued on [**3-5**].
   A-line tip did not grow any.  [**2-4**] BCx also growing enterococcus (was
   treated with levo at that time, amp started after).  TTE negative for
   vegetations, though cannot r/o small veg.
   - Ampicllin 14 day course from last negative bcx (day 1 = [**3-7**])
   - f/u speciation and sensitivities
   - surveillance cultures
   # Klebsiella bacteremia:  Undetermined source.
   - s/p meropenem, 14 day course finished on [**3-9**]
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Cultured from maxillary sinus tissue,
   urine, sputum and skin.
   - s/p fluconazole for 6 weeks, finished [**3-9**]
   # Altered mental status:  Consider delirium in the setting of resolving
   acute illness.  Patient responds only to noxious stimuli and does not
   follow exam.  MRI on [**2-29**] showed no radiographic explanation for
   altered mental status.  LP was unrevealing.  ? Ventriculitis.  Haldol
   now IV 10mg with prn IV haldol, weaning ativan standing.  Zyprexa
   discontinued.
   - cont IV haldol 10 tid plus prn
   - taper ativan to 1mg IV bid
   - appreciate psych recs
   - consider re-involvement of neuro
   # Right sphenoid sinus lesion:  Repeat CT scan revealed sinusitis
   improving.
   - ENT following, need follow up with Dr.[**First Name (STitle) 4381**] in two weeks
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable at ~21-22.  Patient is currently menstruating.
   - minimize blood draws
   - guaiac all stool
   - SPEP/UPEP negative
   - HCT goal > 21
   # Hypercalcemia:
   - diuresis as above, follow ionized calcium tomorrow afternoon
   - appreciate endocrinology recs
 not thought to be cause of AMS.
   # Hypernatremia:  Possible secondary to stress (appropriate ADH) as we
   try to wean resp support and sedation.
    Improved with free water boluses via PEG in the past.
   - free H2O flushes 300 q3, no residuals currently
   - cont trend Na
   - diuresis as above
   # FEN:  Tube feed via PEG; replete lytes prn
   # PPx: sc heparin, famotidine
   # Access:  Right subclavian placed [**3-5**].
   # Code: Full Code
   # Contact: Father, also has a fiancee
   # Dispo:  ICU
   - PT/OT unable to assess as per nursing concerns
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-9**] 04:01 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-10 10:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    24 y/o F with with liver failure, pancreatitis and renal failure after
   tylenol intake, in the setting of Hep C. Course complicated by ARDS,
   renal failure requiring RRT, dental [**Name2 (NI) 4263**] requiring teeth
   extraction, diffuse [**Female First Name (un) 444**] colonization finished fluconazole x 6
   weeks, Klebsiella oxytoca bacteremia, finished 2 weeks of meropenem. CT
   chest with ARDS and large exudative L effusion
 being drained by
   pigtail catheter. Persistent respiratory failure and fevers, recent
   enterococcus bacteremia likely from a-line which has been pulled. Has
   had very difficult to control agitation, many antipsychotics not
   effective. Per psyche we are using haldol 10 mg IV tid, ativan 1 mg
   tid, and 10 mg IV prn. Also trying to diurese today.
   24 Hour Events:
   Given lasix 20 mg IV X2, still positive, all meds switched to D5 except
   for amp. CT placed to water seal. Weaned ativan to 1 mg tid. Endocrine
   signed off.
 EKG - At [**2120-3-9**] 10:47 AM
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2120-3-9**] 07:53 AM
   Ampicillin - [**2120-3-10**] 08:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2120-3-10**] 03:00 AM
   Furosemide (Lasix) - [**2120-3-10**] 07:40 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-10**] 08:00 AM
   Lorazepam (Ativan) - [**2120-3-10**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-10**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 75 (75 - 122) bpm
   BP: 113/62(73) {101/51(63) - 166/116(125)} mmHg
   RR: 11 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  4,291 mL
                                                                  1,647 mL
   PO:
             TF:
                                                                    720 mL
                                                                    306 mL
   IVF:
                                                                  1,051 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                  3,460 mL
                                                                  1,405 mL
   Urine:
                                                                  2,770 mL
                                                                  1,405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    831 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (387 - 480) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 4.8 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.7 g/dL
   241 K/uL
   103 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.5 mEq/L
   10 mg/dL
   111 mEq/L
   147 mEq/L
   21.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2120-3-5**]  04:09 AM
                             [**2120-3-5**]  06:25 AM
                             [**2120-3-5**]  06:45 PM
                             [**2120-3-6**]  05:21 AM
                             [**2120-3-7**]  04:36 AM
                             [**2120-3-8**]  04:07 AM
                             [**2120-3-8**]  05:03 PM
                             [**2120-3-9**]  04:51 AM
                             [**2120-3-9**]  06:16 PM
                             [**2120-3-10**]  03:06 AM
   WBC
   7.4
   12.5
   8.8
   7.3
   7.0
   Hct
   22.5
   22.2
   21.2
   21.1
   21.0
   Plt
   [**Telephone/Fax (3) 4435**]24
   241
   Cr
   1.0
   0.9
   0.8
   0.8
   0.8
   0.8
   0.8
   TCO2
   30
   31
   31
   Glucose
   92
   106
   86
   105
   108
   84
   103
   Other labs: PT / PTT / INR:15.3/30.5/1.4, CK / CKMB / Troponin-T:96//,
   ALT / AST:15/34, Alk Phos / T Bili:153/0.9, Amylase / Lipase:54/41,
   Differential-Neuts:64.4 %, Band:4.0 %, Lymph:23.1 %, Mono:7.8 %,
   Eos:4.2 %, Fibrinogen:318 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:10.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   24 y/o F with with liver failure, pancreatitis and renal failure after
   tylenol intake, in the setting of Hep C. Course complicated by ARDS,
   renal failure requiring RRT, dental [**Name2 (NI) 4263**] requiring teeth
   extraction, diffuse [**Female First Name (un) 444**] colonization finished fluconazole x 6
   weeks, Klebsiella oxytoca bacteremia, finished 2 weeks of meropenem. CT
   chest with ARDS and large exudative L effusion
 being drained by
   pigtail catheter. Persistent respiratory failure and fevers, recent
   enterococcus bacteremia likely from a-line which has been pulled. Has
   had very difficult to control agitation, many antipsychotics not
   effective. Per psyche we are using haldol 10 mg IV tid, ativan 1 mg
   tid, and 10 mg IV prn. Also trying to diurese today.
   1. Resp failure: ARDS, volume overload
   -wean to 0.4 FiO2, then try [**5-14**] PS
   -try to concentrate
   -start lasix gtt, goal 2L neg
   -f/u IP recs
   2. ID: Klebsiella bacteremia/enterococcal bacteremia/candidal
   colonization
   -finished 2 weeks of meropenem
   -cont. ampicillin for 2 weeks, check surveillance Bcx
   -TTE Friday showed no veggies
   -finished 6 weeks of fluconazole
   3. AMS: Still likely delirium, neuro signed off
   -haldol 10 mg IV tid and prn
   -[**Month (only) 202**] ativan to 1 mg [**Hospital1 **]
   -appreciate psyche recs
   4. anemia: AOCD
   -transfuse if drops < 21% transfuse
   5. Hypercalcemia: Improving
   -check iCa tomorrow
   -FW 300 cc q3h for hypernatremia
   6. FEN: TF with FW
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-9**] 04:01 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2120-03-11 10:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Weaned to [**8-17**] PS yesterday. Given extra 2 mg ativan. Lasix gtt started.
   CT placed back to suction given apical L PTX.
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2120-3-9**] 07:53 AM
   Ampicillin - [**2120-3-11**] 08:30 AM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-3-11**] 12:06 AM
   Lorazepam (Ativan) - [**2120-3-11**] 08:00 AM
   Haloperidol (Haldol) - [**2120-3-11**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-11**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 108 (78 - 122) bpm
   BP: 119/88(93) {98/54(66) - 153/101(106)} mmHg
   RR: 27 (14 - 45) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  4,229 mL
                                                                  1,268 mL
   PO:
             TF:
                                                                    720 mL
                                                                    251 mL
   IVF:
                                                                  1,069 mL
                                                                    647 mL
   Blood products:
   Total out:
                                                                  5,440 mL
                                                                  4,170 mL
   Urine:
                                                                  5,190 mL
                                                                  3,980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,211 mL
                                                                 -2,902 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (333 - 460) mL
   PS : 8 cmH2O
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 121
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///38/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, agitated
   Labs / Radiology
   6.9 g/dL
   270 K/uL
   124 mg/dL
   0.9 mg/dL
   38 mEq/L
   3.1 mEq/L
   11 mg/dL
   102 mEq/L
   146 mEq/L
   21.5 %
   6.8 K/uL
        [image002.jpg]
                             [**2120-3-6**]  05:21 AM
                             [**2120-3-7**]  04:36 AM
                             [**2120-3-8**]  04:07 AM
                             [**2120-3-8**]  05:03 PM
                             [**2120-3-9**]  04:51 AM
                             [**2120-3-9**]  06:16 PM
                             [**2120-3-10**]  03:06 AM
                             [**2120-3-10**]  03:38 PM
                             [**2120-3-10**]  10:05 PM
                             [**2120-3-11**]  03:52 AM
   WBC
   7.4
   12.5
   8.8
   7.3
   7.0
   6.8
   Hct
   22.5
   22.2
   21.2
   21.1
   21.0
   21.5
   Plt
   [**Telephone/Fax (3) 4462**]
   Cr
   1.0
   0.9
   0.8
   0.8
   0.8
   0.8
   0.8
   0.8
   0.8
   0.9
   Glucose
   92
   106
   86
   105
   108
   84
   103
   89
   99
   124
   Other labs: PT / PTT / INR:14.1/29.8/1.2, CK / CKMB / Troponin-T:96//,
   ALT / AST:15/34, Alk Phos / T Bili:153/0.9, Amylase / Lipase:54/41,
   Differential-Neuts:64.4 %, Band:4.0 %, Lymph:23.1 %, Mono:7.8 %,
   Eos:4.2 %, Fibrinogen:318 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:10.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   1. resp failure: ARDS
   -[**5-14**] PS 0.4 today
   -cont. CT to suction f/u IP recs
   2. enterococcal bacteremia: [**2-12**] a-line
   -cont. ampicillin for 2 weeks
   -TTE neg
   3. AMS: Suspect delirium
   -ativan 1 mg tid
   -haldol 15 mg tid IV
   -taper methadone to 20 mg tid
   4. AOCD: hct stable
   -keep hct >21%
   5. hyperca/hyperna:
   -decrease PEG FW to 250cc q4h
   -1L D5W today
   -cont. I/O 4L neg today
   6. FEN: nutrition c/s
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-3-10**] 05:08 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and resident.  I
   have reviewed and agree with the assessment and plan as above with the
   following emphasis and modifications:
   Female with necrotizing pancreatitis and prolonged hospital course with
   complications including respiratory failure/ARDS, sepsis, and
   persistent delirium.
   Overnight, continues to be agitated and confused.
   On exam, temperature is 37.2,   Pulse 108   BP 118/70   RR  27   SaO2:
   97%  (on CPAP 5/5 with Fio2 0.4)
   Gen: trach in place, confused
   Chest: coarse breath sounds bilat
   Heart: s1 s2
   Abd: soft, NT ND
   Neuro: Confused, moved all extremities, no focal neuro findings
   A:
   1)       Mental Status Changes: Likely pancreatic encephalopathy and/or
   Wernicke
s Encephalopathy
   2)       Acute Respiratory Failure (ARDS)
 now CPAP
   3)       Pancreatitis (necrotizing)
   4)       Enterococcus bacteremia
   Plan:
   1)       High-dose intravenous thiamine for possible WE
   2)       Continue wean CPAP as tolerated
   3)       Continue nutritional support
 tube feeds
   Critical Care: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2120-3-11**] 09:55 PM ------

2120-03-12 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Chest tube to water seal, with plan to pull on AM of [**3-12**]
   - Changed tube feeds to Nutren Pulmonary
   - Per Psych, increased Ativan to 1 mg q8 and Haldol to 15 mg IV TID
   - Started taper of Methadone, decreased from 30 mg TID to 20 mg TID
   - Gave 1 liter D5W for hypernatremia
   - Continued on lasix gtt; stopped in PM due to contraction alkalosis
   - Started Thiamine 200 mg IV Q8H as empiric therapy; Thiamine level
   sent
   - Trach collar trial tolerated for 30 minutes
   - Transfused 1 unit PRBC's for hct 19
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2120-3-9**] 07:53 AM
   Ampicillin - [**2120-3-12**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2120-3-12**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-12**] 12:13 AM
   Haloperidol (Haldol) - [**2120-3-12**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-12**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 107 (77 - 119) bpm
   BP: 143/74(92) {114/58(72) - 158/105(116)} mmHg
   RR: 16 (14 - 42) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
           Total In:
                                                                  4,919 mL
                                                                  1,305 mL
   PO:
           TF:
                                                                    594 mL
                                                                    305 mL
   IVF:
                                                                  2,575 mL
                                                                    307 mL
   Blood products:
   93 mL
   Total out:
                                                                  8,365 mL
                                                                  1,395 mL
   Urine:
                                                                  8,095 mL
                                                                  1,355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,446 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 423 (360 - 540) mL
   PS : 8 cmH2O
   RR (Spontaneous): 42
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///44/
   Ve: 9.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   280 K/uL
   6.5 g/dL
   105 mg/dL
   0.8 mg/dL
   44 mEq/L
   4.2 mEq/L
   10 mg/dL
   95 mEq/L
   141 mEq/L
   19.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2120-3-8**]  04:07 AM
                             [**2120-3-8**]  05:03 PM
                             [**2120-3-9**]  04:51 AM
                             [**2120-3-9**]  06:16 PM
                             [**2120-3-10**]  03:06 AM
                             [**2120-3-10**]  03:38 PM
                             [**2120-3-10**]  10:05 PM
                             [**2120-3-11**]  03:52 AM
                             [**2120-3-11**]  06:07 PM
                             [**2120-3-12**]  03:30 AM
   WBC
   8.8
   7.3
   7.0
   6.8
   7.3
   Hct
   21.2
   21.1
   21.0
   21.5
   19.2
   Plt
   233
   224
   241
   270
   280
   Cr
   0.8
   0.8
   0.8
   0.8
   0.8
   0.8
   0.8
   0.9
   0.8
   0.8
   Glucose
   86
   105
   108
   84
   103
   89
   99
   124
   90
   105
   Other labs: PT / PTT / INR:16.0/32.4/1.4, CK / CKMB / Troponin-T:96//,
   ALT / AST:13/26, Alk Phos / T Bili:140/0.8, Amylase / Lipase:54/41,
   Differential-Neuts:65.2 %, Band:4.0 %, Lymph:23.2 %, Mono:7.6 %,
   Eos:3.6 %, Fibrinogen:318 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, now with persistent respiratory
   failure and respiratory failure
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Now s/p trach placement
   and vent dependent.  Continues to slowly wean.  IP performed
   thoracentesis and pigtail placement of left pleural effusion on [**3-6**],
   consistent with exudative effusion.   Complicated by small
   pneumothorax, chest tube on suction.
   - cont to wean as tolerated, decrease to [**5-14**]
   - diurese goal negative 1-2L to help respiratory status
 lasix drip
   - f/u pleural fluid cultures (NTD)
   - Chest tube to waterseal per thoracics recs (appreciate involvement),
   f/u CXR and possible d/c.
   - PMV trial
   # Enterococcus bacteremia:  Enteroccus sensitive to ampicillin on
   [**3-7**].  Source was thought to be a-line which was discontinued on [**3-5**].
   A-line tip did not grow any.  [**2-4**] BCx also growing enterococcus (was
   treated with levo at that time, amp started after).  TTE negative for
   vegetations, though cannot r/o small veg.  3 BCx NTD since.
   - Ampicllin 14 day course from last negative bcx (day 1 = [**3-7**])
   - f/u speciation and sensitivities
   - surveillance cultures
   # Klebsiella bacteremia:  Undetermined source.
   - s/p meropenem, 14 day course finished on [**3-9**]
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Cultured from maxillary sinus tissue,
   urine, sputum and skin.
   - s/p fluconazole for 6 weeks, finished [**3-9**]
   # Altered mental status:  Consider delirium in the setting of resolving
   acute illness.  Patient responds only to noxious stimuli and does not
   follow exam.  MRI on [**2-29**] showed no radiographic explanation for
   altered mental status.  LP was unrevealing.  ? Ventriculitis.  Haldol
   now IV 10mg with prn IV haldol, weaning ativan standing.  Zyprexa
   discontinued. Did not tolerate ativan weaning.
   - ativan 1mg TID standing
   - cont IV haldol 15 tid (increase from 10) plus prn
   - appreciate psych recs
   - consider re-involvement of neuro
   - wean methadone
   # Right sphenoid sinus lesion:  Repeat CT scan revealed sinusitis
   improving.
   - ENT following, need follow up with Dr.[**First Name (STitle) 4381**] in two weeks
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable at ~21-22.  Patient is currently menstruating.
   - minimize blood draws
   - guaiac all stool
   - SPEP/UPEP negative
   - HCT goal > 21
   # Hypercalcemia:
   - diuresis as above, follow ionized calcium tomorrow afternoon
   - appreciate endocrinology recs
 not thought to be cause of AMS.
   # Hypernatremia:  Possible secondary to stress (appropriate ADH) as we
   try to wean resp support and sedation.
    Improved with free water boluses via PEG in the past.  Complicated by
   vomiting, likely [**2-12**] to large gastric volumes.
   - decrease free H2O flushes to 250 q 4
   - IV D5 1L today
   - cont trend Na
   - diuresis as above
   # FEN:  Tube feed via PEG; replete lytes prn
   - nutrition consult
   # PPx: sc heparin, famotidine
   # Access:  Right subclavian placed [**3-5**].
   # Code: Full Code
   # Contact: Father, also has a fiancee
   # Dispo:  ICU
   - PT/OT unable to assess as per nursing concerns
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-3-11**] 01:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-12 11:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT placed to water seal overnight. TF changed. Ativan changed to 1 mg
   tid. Decreased methadone dose. Started on thiamine IV for concern of
   Wernicke's encephalopathy. Didn't tolerate TC trial due to rapid
   shallow breathing. Lasix gtt stopped due to contraction alkalosis.
   Transfused 1U PRBCs for hct 19.
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-12**] 08:02 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2120-3-12**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-12**] 08:00 AM
   Lorazepam (Ativan) - [**2120-3-12**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-12**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 77 (77 - 119) bpm
   BP: 107/87(91) {107/58(72) - 158/105(116)} mmHg
   RR: 18 (14 - 42) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
           Total In:
                                                                  4,919 mL
                                                                  1,928 mL
   PO:
           TF:
                                                                    594 mL
                                                                    426 mL
   IVF:
                                                                  2,575 mL
                                                                    522 mL
   Blood products:
   350 mL
   Total out:
                                                                  8,365 mL
                                                                  1,935 mL
   Urine:
                                                                  8,095 mL
                                                                  1,795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,446 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 423 (360 - 540) mL
   PS : 8 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///44/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   6.5 g/dL
   280 K/uL
   105 mg/dL
   0.8 mg/dL
   44 mEq/L
   4.2 mEq/L
   10 mg/dL
   95 mEq/L
   141 mEq/L
   19.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2120-3-8**]  04:07 AM
                             [**2120-3-8**]  05:03 PM
                             [**2120-3-9**]  04:51 AM
                             [**2120-3-9**]  06:16 PM
                             [**2120-3-10**]  03:06 AM
                             [**2120-3-10**]  03:38 PM
                             [**2120-3-10**]  10:05 PM
                             [**2120-3-11**]  03:52 AM
                             [**2120-3-11**]  06:07 PM
                             [**2120-3-12**]  03:30 AM
   WBC
   8.8
   7.3
   7.0
   6.8
   7.3
   Hct
   21.2
   21.1
   21.0
   21.5
   19.2
   Plt
   233
   224
   241
   270
   280
   Cr
   0.8
   0.8
   0.8
   0.8
   0.8
   0.8
   0.8
   0.9
   0.8
   0.8
   Glucose
   86
   105
   108
   84
   103
   89
   99
   124
   90
   105
   Other labs: PT / PTT / INR:16.0/32.4/1.4, CK / CKMB / Troponin-T:96//,
   ALT / AST:13/26, Alk Phos / T Bili:140/0.8, Amylase / Lipase:54/41,
   Differential-Neuts:65.2 %, Band:4.0 %, Lymph:23.2 %, Mono:7.6 %,
   Eos:3.6 %, Fibrinogen:318 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   28 y/o f with tylenol OD, EtOH abuse, necrotic pancreatitis, ARF now
   resolved, ARDS, now improved.
   1. ARDS: Try TC trial this am
   -I/O keep even to slightly neg
   -albuterol neb q4h, atrovent prn
   2. Enterococcal bacteremia, prior Klebsiella bacteremia
   -14 days ampicillin
   -finished 2 weeks of mereopenem
   -try to get PIVs
   3. delirium:
   -cont. IV thiamine, f/u thiamine level
   -opens eyes and regards to voice
   -change ativan to po 1mg po tid
   -[**Month (only) 202**] to 15 mg po tid methadone
   4. anemia: AOCD
   check post transfusion hct
   5. Hypernatremia:
   -cont. 250 FW q4h PNGT
   -cont. TF
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-3-11**] 01:00 PM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and resident.  I
   have reviewed and agree with the assessment and plan as above with the
   following emphasis and modifications:
   Female with necrotizing pancreatitis and prolonged hospital course with
   complications including respiratory failure/ARDS, sepsis, and
   persistent delirium.
   Overnight, some improvement in agitation and confusion
   On exam, temperature is 37.2,   Pulse 78   BP 131/68   RR  22   SaO2:
   97%  on trach shield
   Gen: trach in place, confused
   Chest: CTA bilaterally
   Heart: s1 s2
   Abd: soft, NT ND
   Neuro: Responds to simple commands, moving extremities
   A:
   1)       Mental Status Changes: Likely pancreatic encephalopathy and/or
   Wernicke
s Encephalopathy
 improved overnight but unclear if wax/wane
   or response to thiamine
   2)       Acute Respiratory Failure (ARDS)
 now on trach shield
   3)       Pancreatitis (necrotizing)
   4)       Enterococcus bacteremia
   Plan:
   1)       Continue igh-dose intravenous thiamine for possible WE
   2)       Continue trach shield and monitor respiratory status
   3)       Continue nutritional support
 tube feeds
   Time: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2120-3-12**] 19:01 ------

2120-03-13 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory failure
   24 Hour Events:
   - Pigtail removed from left pleural space by IP
   - Psych recs, increase haldol, has not made the change
   - Received 20 mg IV lasix at MN
   - Nebs changed to standing albuterol q4h
   - Methadone decreased to 15 mg tid
   - Lorazepam was switched from 1 mg IV to PO TID
   - Tolerated trach mask for most of the day
   - She was switched to PS given tachypnea and rapid shallow breaths
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-13**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-3-13**] 12:00 AM
   Lorazepam (Ativan) - [**2120-3-13**] 12:00 AM
   Furosemide (Lasix) - [**2120-3-13**] 01:30 AM
   Haloperidol (Haldol) - [**2120-3-13**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-13**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 103 (75 - 115) bpm
   BP: 142/97(106) {107/56(70) - 149/105(113)} mmHg
   RR: 18 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  3,550 mL
                                                                  1,244 mL
   PO:
             TF:
                                                                    960 mL
                                                                    306 mL
   IVF:
                                                                  1,039 mL
                                                                    338 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,785 mL
                                                                  1,710 mL
   Urine:
                                                                  3,645 mL
                                                                  1,710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -235 mL
                                                                   -466 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 432 (86 - 475) mL
   PS : 12 cmH2O
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: 7.42/66/64//14
   Ve: 4.3 L/min
   PaO2 / FiO2: 128
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   264 K/uL
   7.8 g/dL
   105 mg/dL
   0.8 mg/dL
   44 mEq/L
   4.2 mEq/L
   10 mg/dL
   95 mEq/L
   141 mEq/L
   23.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2120-3-9**]  06:16 PM
                             [**2120-3-10**]  03:06 AM
                             [**2120-3-10**]  03:38 PM
                             [**2120-3-10**]  10:05 PM
                             [**2120-3-11**]  03:52 AM
                             [**2120-3-11**]  06:07 PM
                             [**2120-3-12**]  03:30 AM
                             [**2120-3-12**]  03:50 PM
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
   WBC
   7.0
   6.8
   7.3
   7.0
   Hct
   21.0
   21.5
   19.2
   21.8
   23.6
   Plt
   241
   270
   280
   264
   Cr
   0.8
   0.8
   0.8
   0.8
   0.9
   0.8
   0.8
   TCO2
   44
   Glucose
   84
   103
   89
   99
   124
   90
   105
   Other labs: PT / PTT / INR:16.0/32.4/1.4, CK / CKMB / Troponin-T:96//,
   ALT / AST:13/26, Alk Phos / T Bili:140/0.8, Amylase / Lipase:54/41,
   Differential-Neuts:65.2 %, Band:4.0 %, Lymph:23.2 %, Mono:7.6 %,
   Eos:3.6 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, now with persistent respiratory
   failure and respiratory failure
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Now s/p trach placement
   and vent dependent.  Continues to slowly wean.  IP performed
   thoracentesis and pigtail placement of left pleural effusion on [**3-6**],
   consistent with exudative effusion.   Complicated by small
   pneumothorax, now resolved.  S/p chest tube removal today.
   - cont to wean as tolerated, trach mask trial again today
   - diurese goal even to slightly negative today given contraction
   alkalosis
   - f/u pleural fluid cultures (NTD)
   # Enterococcus bacteremia:  Enteroccus sensitive to ampicillin on
   [**3-7**].  Source was thought to be a-line which was discontinued on [**3-5**].
   A-line tip did not grow any.  [**2-4**] BCx also growing enterococcus (was
   treated with levo at that time, amp started after).  TTE negative for
   vegetations, though cannot r/o small veg.  3 BCx NTD since.
   - Ampicllin 14 day course from last negative bcx (day 1 = [**3-7**])
   - f/u speciation and sensitivities
   - surveillance cultures
   # Klebsiella bacteremia:  Undetermined source.
   - s/p meropenem, 14 day course finished on [**3-9**]
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Cultured from maxillary sinus tissue,
   urine, sputum and skin.
   - s/p fluconazole for 6 weeks, finished [**3-9**]
   # Altered mental status:  Consider delirium in the setting of resolving
   acute illness.  Patient responds only to noxious stimuli and does not
   follow exam.  MRI on [**2-29**] showed no radiographic explanation for
   altered mental status.  LP was unrevealing.  ? Ventriculitis.  Haldol
   now IV 10mg with prn IV haldol, weaning ativan standing.  Zyprexa
   discontinued. Did not tolerate ativan weaning.
   - ativan 1mg TID standing
   - cont IV haldol 15 tid (increase from 10) plus prn
   - appreciate psych recs
   - consider re-involvement of neuro
   - wean methadone
   # Right sphenoid sinus lesion:  Repeat CT scan revealed sinusitis
   improving.
   - ENT following, need follow up with Dr.[**First Name (STitle) 4381**] in two weeks
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable at ~21-22.  Patient is currently menstruating.
   - minimize blood draws
   - guaiac all stool
   - SPEP/UPEP negative
   - HCT goal > 21, 1 unit of pRBCs yesterda
   # Hypercalcemia:
   - diuresis as above, follow ionized calcium
   - appreciate endocrinology recs
 not thought to be cause of AMS.
   # Hypernatremia:  Possible secondary to stress (appropriate ADH) as we
   try to wean resp support and sedation.
    Improved with free water boluses via PEG in the past.  Complicated by
   vomiting, likely [**2-12**] to large gastric volumes.
   - continue free H2O flushes to 250 q 4, will hold off on D5W
   - cont trend Na
   - diuresis as above
   # FEN:  Tube feed via PEG; replete lytes prn
   - nutrition consult
   # PPx: sc heparin, famotidine
   # Access:  Right subclavian placed [**3-5**].
   # Code: Full Code
   # Contact: Father, also has a fiancee
   # Dispo:  ICU
   - PT/OT unable to assess as per nursing concerns
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-3-12**] 05:12 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-13 10:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pigtail CT removed. Psyche recs said increase halsol. Methadone
   decreased. Tolerated TM all day, then placed on PS overnight.
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-3-13**] 12:00 AM
   Lorazepam (Ativan) - [**2120-3-13**] 12:00 AM
   Furosemide (Lasix) - [**2120-3-13**] 01:30 AM
   Haloperidol (Haldol) - [**2120-3-13**] 04:00 AM
   Famotidine (Pepcid) - [**2120-3-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-13**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 109 (75 - 115) bpm
   BP: 137/69(83) {116/56(63) - 149/105(113)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  3,550 mL
                                                                  1,540 mL
   PO:
             TF:
                                                                    960 mL
                                                                    427 mL
   IVF:
                                                                  1,039 mL
                                                                    453 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,785 mL
                                                                  2,660 mL
   Urine:
                                                                  3,645 mL
                                                                  2,660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -235 mL
                                                                 -1,120 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 331 (86 - 475) mL
   PS : 12 cmH2O
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: 7.42/66/64/47/14
   Ve: 8.1 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   264 K/uL
   100 mg/dL
   0.8 mg/dL
   47 mEq/L
   4.1 mEq/L
   9 mg/dL
   97 mEq/L
   144 mEq/L
   23.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2120-3-9**]  06:16 PM
                             [**2120-3-10**]  03:06 AM
                             [**2120-3-10**]  03:38 PM
                             [**2120-3-10**]  10:05 PM
                             [**2120-3-11**]  03:52 AM
                             [**2120-3-11**]  06:07 PM
                             [**2120-3-12**]  03:30 AM
                             [**2120-3-12**]  03:50 PM
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
   WBC
   7.0
   6.8
   7.3
   7.0
   Hct
   21.0
   21.5
   19.2
   21.8
   23.6
   Plt
   241
   270
   280
   264
   Cr
   0.8
   0.8
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   TCO2
   44
   Glucose
   84
   103
   89
   99
   124
   90
   105
   100
   Other labs: PT / PTT / INR:15.8/28.5/1.4, CK / CKMB / Troponin-T:96//,
   ALT / AST:13/26, Alk Phos / T Bili:140/0.8, Amylase / Lipase:54/41,
   Differential-Neuts:65.2 %, Band:4.0 %, Lymph:23.2 %, Mono:7.6 %,
   Eos:3.6 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   1. ARDS: Didn't tolerate TC this am for agitation, as she dasturated
   -I/O even
   -try TC
   2. Agitation/delirium
   -haldol 20 mg IV tid
   -cont. ativan 1 mg po tid
   -[**Month (only) 202**] methadone 10 mg tid
   -f/u thiamine
   -reconsult neurology, unclear if this is ongoing delirium, partial
   complex seizures?
   -etiology of ventriculitis?
   3. ID: Enterococcal bacteremia, unclear if this was from an aline
   -ID consult
   -TEE to r/o endocarditis
   4. Anemia: Hct stable
   -goal hct >21
   5. Hypernatremia: Has a J tube 150 cc q2h FW
   -cont. TF
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-3-12**] 05:12 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and resident.  I
   have reviewed and agree with the assessment and plan as above with the
   following emphasis and modifications:
   Female with necrotizing pancreatitis and prolonged hospital course with
   complications including respiratory failure/ARDS, sepsis, and
   persistent delirium.
   Overnight, continues to be agitated and confused.
   On exam, temperature is 36.7,   Pulse 109   BP 137/70  RR 16   SaO2:
   97%  on CPAP
   Gen: trach in place, confused
   Chest: CTA bilaterally
   Heart: s1 s2
   Abd: soft, NT ND
   Neuro: Responds to simple commands, moving extremities
   A:
   1)       Mental Status Changes: Pancreatic Encephalopathy +/- WE +/-
   sedatives
   2)       Acute Respiratory Failure (ARDS)
 CPAP
   3)       Pancreatitis (necrotizing)
   4)       Enterococcus bacteremia
   Plan:
   1)       Wean off ativan and methadone in hopes of improved mental
   status
   2)       Switch to trach shield when mental status permits
   3)       Continue nutritional support
 tube feeds
   Time: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2120-3-13**] 10:42 PM ------

2120-03-14 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - reconsulted neuro
   - NPO for TEE today per ID
   - ID recommends imaging abdomen
   - recommend restarting fluc as it was supposed to go to [**3-23**] (? osteo)
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-14**] 04:39 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-3-13**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-14**] 01:45 AM
   Haloperidol (Haldol) - [**2120-3-14**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-14**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 112 (77 - 132) bpm
   BP: 161/104(118) {108/51(66) - 161/104(118)} mmHg
   RR: 22 (9 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  4,089 mL
                                                                    615 mL
   PO:
             TF:
                                                                    960 mL
                                                                     27 mL
   IVF:
                                                                  1,089 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                  1,000 mL
   Urine:
                                                                  4,210 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -221 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (331 - 467) mL
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///40/
   Ve: 6.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   269 K/uL
   7.8 g/dL
   98 mg/dL
   0.8 mg/dL
   40 mEq/L
   4.0 mEq/L
   9 mg/dL
   96 mEq/L
   140 mEq/L
   23.2 %
   8.6 K/uL
        [image002.jpg]
                             [**2120-3-10**]  03:06 AM
                             [**2120-3-10**]  03:38 PM
                             [**2120-3-10**]  10:05 PM
                             [**2120-3-11**]  03:52 AM
                             [**2120-3-11**]  06:07 PM
                             [**2120-3-12**]  03:30 AM
                             [**2120-3-12**]  03:50 PM
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
   WBC
   7.0
   6.8
   7.3
   7.0
   8.6
   Hct
   21.0
   21.5
   19.2
   21.8
   23.6
   23.2
   Plt
   241
   270
   280
   264
   269
   Cr
   0.8
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   TCO2
   44
   Glucose
   103
   89
   99
   124
   90
   105
   100
   98
   Other labs: PT / PTT / INR:15.8/28.5/1.4, CK / CKMB / Troponin-T:96//,
   ALT / AST:13/26, Alk Phos / T Bili:140/0.8, Amylase / Lipase:54/41,
   Differential-Neuts:65.2 %, Band:4.0 %, Lymph:23.2 %, Mono:7.6 %,
   Eos:3.6 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, now with persistent respiratory
   failure and respiratory failure.
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Now s/p trach placement
   and vent dependent.  Continues to slowly wean.  IP performed
   thoracentesis and pigtail placement of left pleural effusion on [**3-6**],
   consistent with exudative effusion.   Complicated by small
   pneumothorax, now resolved.  Chest tube removed [**3-12**].
   - cont to wean as tolerated, trach mask trial as tolerated
   - diurese goal even today given contraction alkalosis
   - f/u pleural fluid cultures (NTD)
   # Altered mental status:  Consider delirium in the setting of resolving
   acute illness.  Patient responds only to noxious stimuli and does not
   follow exam.  MRI on [**2-29**] showed no radiographic explanation for
   altered mental status.  LP was unrevealing.  ? Ventriculitis.  Haldol
   now IV 15mg with prn IV haldol, weaning ativan standing.  Zyprexa
   discontinued. Did not tolerate ativan weaning.
   - ativan 1mg PO TID standing, wean as tolerated
   - increase IV haldol to 20 TID per psych
   - appreciate psych recs
   - reinvolve neuro
 appreciate input
   - wean methadone to 10 TID today, 10 [**Hospital1 **] tomorrow
   # Enterococcus bacteremia:  Enteroccus sensitive to ampicillin on
   [**3-7**].  Source was thought to be a-line which was discontinued on [**3-5**].
   A-line tip did not grow any.  [**2-4**] BCx also growing enterococcus (was
   treated with levo at that time, amp started after).  TTE negative for
   vegetations, though cannot r/o small veg.  3 BCx NTD since.
   - Ampicllin 14 day course from last negative bcx (day 1 = [**3-7**])
   - f/u speciation and sensitivities
   - surveillance cultures
   - TEE per ID (appreciate recs)
   # Klebsiella bacteremia:  Undetermined source.
   - s/p meropenem, 14 day course finished on [**3-9**]
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Cultured from maxillary sinus tissue,
   urine, sputum and skin.
   - s/p fluconazole for 6 weeks, finished [**3-9**]
   # Right sphenoid sinus lesion:  Repeat CT scan revealed sinusitis
   improving.
   - ENT following, need follow up with Dr.[**First Name (STitle) 4381**] in two weeks
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable at ~21-22.  Patient is currently menstruating.
   - minimize blood draws
   - guaiac all stool
   - SPEP/UPEP negative
   - HCT goal > 21, 1 unit of pRBCs yesterda
   # Hypercalcemia:
   - diuresis as above, follow ionized calcium
   - appreciate endocrinology recs
 not thought to be cause of AMS.
   # Hypernatremia:  Possible secondary to stress (appropriate ADH) as we
   try to wean resp support and sedation.
    Improved with free water boluses via PEG in the past.  Complicated by
   vomiting, likely [**2-12**] to large gastric volumes.
   - continue free H2O flushes to 250 q 4, will hold off on D5W
   - cont trend Na
   # FEN:  Tube feed via jpeg; replete lytes prn
   - nutrition consult
   # PPx: sc heparin, famotidine
   # Access:  Right subclavian placed [**3-5**].
   # Code: Full Code
   # Contact: Father, also has a fiancee
   # Dispo:  ICU
   - PT/OT unable to assess as per nursing concerns
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-14 11:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   ID rec TEE and CT abd to look for enterococcus source. Neuro rec repeat
   EEG.
 EKG - At [**2120-3-13**] 09:16 AM
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-14**] 08:56 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2120-3-14**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-14**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-14**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 98 (77 - 126) bpm
   BP: 122/76(86) {108/51(66) - 161/104(118)} mmHg
   RR: 19 (9 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  4,089 mL
                                                                    844 mL
   PO:
             TF:
                                                                    960 mL
                                                                     27 mL
   IVF:
                                                                  1,089 mL
                                                                    567 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                  1,650 mL
   Urine:
                                                                  4,210 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -221 mL
                                                                   -806 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 153 (153 - 467) mL
   PS : 8 cmH2O
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: ///40/
   Ve: 5.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   269 K/uL
   98 mg/dL
   0.8 mg/dL
   40 mEq/L
   4.0 mEq/L
   9 mg/dL
   96 mEq/L
   140 mEq/L
   23.2 %
   8.6 K/uL
        [image002.jpg]
                             [**2120-3-10**]  03:06 AM
                             [**2120-3-10**]  03:38 PM
                             [**2120-3-10**]  10:05 PM
                             [**2120-3-11**]  03:52 AM
                             [**2120-3-11**]  06:07 PM
                             [**2120-3-12**]  03:30 AM
                             [**2120-3-12**]  03:50 PM
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
   WBC
   7.0
   6.8
   7.3
   7.0
   8.6
   Hct
   21.0
   21.5
   19.2
   21.8
   23.6
   23.2
   Plt
   241
   270
   280
   264
   269
   Cr
   0.8
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   TCO2
   44
   Glucose
   103
   89
   99
   124
   90
   105
   100
   98
   Other labs: PT / PTT / INR:15.8/28.5/1.4, CK / CKMB / Troponin-T:96//,
   ALT / AST:13/26, Alk Phos / T Bili:140/0.8, Amylase / Lipase:54/41,
   Differential-Neuts:65.2 %, Band:4.0 %, Lymph:23.2 %, Mono:7.6 %,
   Eos:3.6 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   Plan:
   1. ARDS: Another TM trial made her tachycardic, increased L effusion
   -diurese 1L today, then try TM tomorrow
   2. Delirium: Has ventriculitis, unclear cause, may be meds
   -ativan 1 mg po bid
   -10 mg [**Hospital1 **] methadone
   -haldol 20mg IV tid
   -prn IV haldol
   -repeat EEG
   3. Enterococcal becteremia: Unclear source, check TEE
   -if TEE neg
   -CT abd tomorrow if TEE neg
   -ampicillin 14 days, completed tx for klebsiella bacteremia
   -ID saying may need more antifungal, clarify course with ID
   4. FEN: Cont. TF p TEE
   5. Discuss dispo with CM if she is a rehab candidate
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2120-3-5**] 09:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and resident.  I
   have reviewed and agree with the assessment and plan as above with the
   following emphasis and modifications:
   Female with necrotizing pancreatitis and prolonged hospital course with
   complications including respiratory failure/ARDS, sepsis, and
   persistent delirium.
   Overnight, continues to be agitated and confused.
   On exam, temperature is 37.4,   Pulse 98   BP 122/70  RR 16   SaO2:
   97%  on CPAP
   Gen: trach in place, confused
   Chest: CTA bilaterally
   Heart: s1 s2
   Abd: soft, NT ND
   Neuro: Responds to simple commands, moving extremities
   A:
   1)       Mental Status Changes: Pancreatic Encephalopathy +/- WE +/-
   sedatives
   2)       Acute Respiratory Failure (ARDS)
 improving
   3)       Pancreatitis (necrotizing)
   4)       Enterococcus bacteremia
 suspect gut translocation
   Plan:
   1)       Continue to wean off ativan and methadone in hopes of improved
   mental status
   2)    TEE to rule out endocarditis because of enterococcus bacteremia
   (per ID rec)
   3)       Abd ct scan to evaluate source of enterococcus
   4)       Trach shield as tolerated
   Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2120-3-15**] 09:44 PM ------

2120-03-15 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TTE performed with conscious sedation: negative for vegetation
   - CT abdomen showed heterogeneous rim enhancing peripancreatic
   fluid collections, moderate ascites, and splenic infarcts, all
   unchanged.
   - Methadone & Lorazapam discontinued
   - Tube feeds resumed post-procedure
   - Febrile to 101 in the PM -> pan-cultured & right SC CVL discontinued
   after PIV's placed
   - Agitated this AM, nodding to questions, unable to localize pain.
   Tachypneic and tachycardic to 130's.  Gave propofol 50 mcg bolus.
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-15**] 04:05 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-3-14**] 12:20 PM
   Midazolam (Versed) - [**2120-3-14**] 02:30 PM
   Fentanyl - [**2120-3-14**] 02:30 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-15**] 12:15 AM
   Haloperidol (Haldol) - [**2120-3-15**] 04:05 AM
   Propofol - [**2120-3-15**] 06:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-15**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.6
C (97.8
   HR: 80 (76 - 127) bpm
   BP: 119/69(81) {110/55(68) - 165/110(122)} mmHg
   RR: 15 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  2,294 mL
                                                                    795 mL
   PO:
             TF:
                                                                     27 mL
   IVF:
                                                                  1,287 mL
                                                                    285 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                    740 mL
   Urine:
                                                                  3,455 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,161 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 377 (153 - 454) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 34
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 321
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 7.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   292 K/uL
   7.5 g/dL
   105 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.0 mEq/L
   9 mg/dL
   97 mEq/L
   140 mEq/L
   22.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2120-3-10**]  03:38 PM
                             [**2120-3-10**]  10:05 PM
                             [**2120-3-11**]  03:52 AM
                             [**2120-3-11**]  06:07 PM
                             [**2120-3-12**]  03:30 AM
                             [**2120-3-12**]  03:50 PM
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
                             [**2120-3-15**]  02:56 AM
   WBC
   6.8
   7.3
   7.0
   8.6
   9.7
   Hct
   21.5
   19.2
   21.8
   23.6
   23.2
   22.7
   Plt
   [**Telephone/Fax (3) 4568**]69
   292
   Cr
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   TCO2
   44
   Glucose
   89
   99
   124
   90
   105
   100
   98
   105
   Other labs: PT / PTT / INR:15.8/28.5/1.4, CK / CKMB / Troponin-T:96//,
   ALT / AST:13/26, Alk Phos / T Bili:140/0.8, Amylase / Lipase:54/41,
   Differential-Neuts:65.2 %, Band:4.0 %, Lymph:23.2 %, Mono:7.6 %,
   Eos:3.6 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, now with persistent respiratory
   failure and respiratory failure.
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Now s/p trach placement
   and vent dependent.  Continues to slowly wean.  IP performed
   thoracentesis and pigtail placement of left pleural effusion on [**3-6**],
   consistent with exudative effusion.   Complicated by small
   pneumothorax, now resolved.  Chest tube removed [**3-12**].
   - cont to wean as tolerated, trach mask trial today, will check ABG
   during trial
   - diurese goal negative 1 L today with prn lasix IV
   - f/u pleural fluid cultures (NTD)
   # Altered mental status:  Consider delirium in the setting of resolving
   acute illness MRI on [**2-29**] showed no radiographic explanation for
   altered mental status.  LP was unrevealing.  ? Ventriculitis.  Weaning
   ativan and methadone.  Zyprexa discontinued.  ? depression.
   - weaned off of methadone and ativan
   - haldol 20 IV tid
   - decreased methadone to 10 mg [**Hospital1 **]
   - appreciate psych recs
   - neuro reconsult, EEG read is pending
   # Enterococcus bacteremia:  Enteroccus sensitive to ampicillin on
   [**3-7**].  Source was thought to be a-line which was discontinued on [**3-5**].
   A-line tip did not grow any.  [**2-4**] BCx also growing enterococcus (was
   treated with levo at that time, amp started after).  TTE and TEE
   negative for vegetations, though cannot r/o small veg.   BCx since then
   NGTD.  CT abdomen official read is pending.  Spiked overnight.
   - Ampicllin 14 day course from last negative bcx (day 1 = [**3-7**])
   - surveillance cultures
   - TEE per ID (appreciate recs)
   - CT abd, ? pancreatic cyst, review official read,  ? surgery consult
   after official read
   # Klebsiella bacteremia:  Undetermined source.
   - s/p meropenem, 14 day course finished on [**3-9**]
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Cultured from maxillary sinus tissue,
   urine, sputum and skin.
   -          s/p fluconazole for 6 weeks, finished [**3-9**]
   -          ID was considering a longer course?, will clarify with ID
   team
   # Right sphenoid sinus lesion:  Repeat CT scan revealed sinusitis
   improving.
   - ENT following, need follow up with Dr.[**First Name (STitle) 4381**] in two weeks
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable at ~21-22.
   - minimize blood draws
   - guaiac all stool
   - SPEP/UPEP negative
   - HCT goal > 21, 1 unit of pRBCs yesterda
   # Hypercalcemia:
   - diuresis as above
   - appreciate endocrinology recs
 not thought to be cause of AMS.
   # Hypernatremia:  Resolved with free water repletion.  Possible
   secondary to stress (appropriate ADH) as we try to wean resp support
   and sedation.   Improved with free water boluses via PEG in the past.
   Complicated by vomiting, likely [**2-12**] to large gastric volumes.
   - continue free H2O flushes to 250 q 4
   - cont trend Na
   # FEN:  Tube feed via jpeg; replete lytes prn
   - nutrition consult
   # PPx: sc heparin, famotidine
   # Access: PIV.
   # Code: Full Code
   # Contact: Father, also has a fiancee
   # Dispo:  ICU
   - PT/OT unable to assess as per nursing concerns
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-3-15**] 01:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-15 11:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   TEE neg for endocarditis. CT abd show unchanged peripancreatic fluid
   collections. Tachypenic and tachycardic given propofol prn. On PS [**10-17**].
   Pulled her CVL last night for fever spike. BCx sent.
 BLOOD CULTURED - At [**2120-3-14**] 12:50 PM
 TRANS ESOPHAGEAL ECHO - At [**2120-3-14**] 02:30 PM
 EEG - At [**2120-3-14**] 03:51 PM
 MULTI LUMEN - STOP [**2120-3-15**] 03:21 AM
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-15**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-3-14**] 12:20 PM
   Fentanyl - [**2120-3-14**] 02:30 PM
   Midazolam (Versed) - [**2120-3-14**] 02:30 PM
   Haloperidol (Haldol) - [**2120-3-15**] 04:05 AM
   Propofol - [**2120-3-15**] 06:27 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-15**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-15**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38
C (100.4
   HR: 95 (76 - 127) bpm
   BP: 127/70(84) {110/55(68) - 186/110(122)} mmHg
   RR: 8 (8 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  2,294 mL
                                                                  1,122 mL
   PO:
             TF:
                                                                     27 mL
   IVF:
                                                                  1,287 mL
                                                                    407 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                  1,310 mL
   Urine:
                                                                  3,455 mL
                                                                  1,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,161 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 550 (194 - 550) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 321
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 9.6 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious, opens eyes to voice, nods
   to some questions, follows some simple commands
   HEENT:mmm
   CV: RRR 2/6 sys m
   Pulm Slight bibasilar crackles
   Abd: Soft, nt, nd +BS
   Ext: No edema, warm
   Skin: No rashes
   Labs / Radiology
   7.5 g/dL
   292 K/uL
   105 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.0 mEq/L
   9 mg/dL
   97 mEq/L
   140 mEq/L
   22.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2120-3-10**]  03:38 PM
                             [**2120-3-10**]  10:05 PM
                             [**2120-3-11**]  03:52 AM
                             [**2120-3-11**]  06:07 PM
                             [**2120-3-12**]  03:30 AM
                             [**2120-3-12**]  03:50 PM
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
                             [**2120-3-15**]  02:56 AM
   WBC
   6.8
   7.3
   7.0
   8.6
   9.7
   Hct
   21.5
   19.2
   21.8
   23.6
   23.2
   22.7
   Plt
   [**Telephone/Fax (3) 4568**]69
   292
   Cr
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   TCO2
   44
   Glucose
   89
   99
   124
   90
   105
   100
   98
   105
   Other labs: PT / PTT / INR:15.8/28.5/1.4, CK / CKMB / Troponin-T:96//,
   ALT / AST:13/26, Alk Phos / T Bili:140/0.8, Amylase / Lipase:54/41,
   Differential-Neuts:65.2 %, Band:4.0 %, Lymph:23.2 %, Mono:7.6 %,
   Eos:3.6 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:167 IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 BACTEREMIA
 HYPERNATREMIA (HIGH SODIUM)
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   1. resp failure: ARDS
   -trach collar trial
   -check ABG if she looks poor
   2. AMS: Delirium vs. Psychiatric
   -prn propofol for agitation
   --haldol 20 mg IV tid
   -f/u EEG
   -neuro recs
   3. ID: Enterococcal bacteremia, peripancreatic fluid collection
   -f/u final read, cont. ampicillin
   -if continues to have evidence of ongoing infection may need this
   drained
   -cont. fluconazole per ID
   4. R shenoid sinus lesion:
   needs ENt f/u
   5. Anemia: AOCD
   6. FEN: Cont. TF, FW q4h
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2120-3-15**] 01:01 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and resident.  I
   have reviewed and agree with the assessment and plan as above with the
   following emphasis and modifications:
   Female with necrotizing pancreatitis and prolonged hospital course with
   complications including respiratory failure/ARDS, sepsis, and
   persistent delirium.
   Overnight, mild impro
   On exam,  tmax is 38.3,   tc 38.0   Pulse 98   BP 122/70  RR 16   SaO2:
   97%  on CPAP
   Gen: trach in place, confused
   Chest: CTA bilaterally
   Heart: s1 s2
   Abd: soft, NT ND
   Neuro: Responds to simple commands, moving extremities
   A:
   1)       Mental Status Changes: Pancreatic Encephalopathy +/- WE +/-
   sedatives
   2)       Acute Respiratory Failure (ARDS)
 improving
   3)       Pancreatitis (necrotizing)
 improved
   4)       Enterococcus bacteremia
 suspect gut translocation
   Plan:
   1)       Continue to wean off ativan and methadone in hopes of improved
   mental status; neuro input
   2)     Review final report of CT scan of abd (prelim shows fluid
   collection unchanged from previous)
   3)       Trach shield as tolerated
   Addendum: In the late afternoon, patient developed a fever that
   persisted for a several hours, was diaphorectic and appeared ill.  As
   noted she had an isolated fever last night as well.  She was
   pan-cultured and placed on broad-spectrum antibiotics as this was
   covering for HAP.  She has no lines in place and recent normal TEE.  CT
   scan was reviewed and fluid collection is unchanged from previous and
   she was previously tapped showing sterile fluid collection.  She has
   also had previous normal LP.  Thus, at this time, will cover with
   broad-spectrum antibiotics and await culture results.  Can have ID
   weigh in tomorrow as they have been following the case.
   Time: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2120-3-15**] 11:43 PM ------

2120-03-16 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AMS
   24 Hour Events:
   - Trach collar trial, patient became tachycardic and agitated, rapid
   shallow breaths, ABG at that time 7.44/56/91
   - Neuro recs; will sign off after EEG, ? depression
   - ID recs, did not comment on fluc course
   - Trial of propofol boluses 50 mcg does not help, gave haldol 10 mg IV
   - Continues to spike, pancultured including mycolytic cultures, ?
   worsening of CXR, normal LFTs, amylase, lipase, started on
   broadspectrum abx with vanc/meropenem
   - ? need to retap abdominal ascities, however tap in the past have been
   normal
   - official read of abd CT is still pending
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2120-3-15**] 07:00 PM
   Ampicillin - [**2120-3-16**] 04:00 AM
   Meropenem - [**2120-3-16**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-3-16**] 12:00 AM
   Propofol - [**2120-3-16**] 12:00 AM
   Haloperidol (Haldol) - [**2120-3-16**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-16**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.5
C (97.7
   HR: 122 (86 - 130) bpm
   BP: 149/96(108) {112/60(73) - 186/105(119)} mmHg
   RR: 25 (8 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  2,531 mL
                                                                  1,083 mL
   PO:
             TF:
                                                                    160 mL
                                                                    306 mL
   IVF:
                                                                  1,091 mL
                                                                    477 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                    960 mL
   Urine:
                                                                  2,920 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -389 mL
                                                                    123 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 484 (152 - 550) mL
   PS : 10 cmH2O
   RR (Spontaneous): 36
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.44/56/91/34/11
   Ve: 11.1 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   299 K/uL
   7.2 g/dL
   114 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.0 mEq/L
   10 mg/dL
   99 mEq/L
   141 mEq/L
   21.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2120-3-11**]  03:52 AM
                             [**2120-3-11**]  06:07 PM
                             [**2120-3-12**]  03:30 AM
                             [**2120-3-12**]  03:50 PM
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
                             [**2120-3-15**]  02:56 AM
                             [**2120-3-15**]  02:06 PM
                             [**2120-3-16**]  05:31 AM
   WBC
   6.8
   7.3
   7.0
   8.6
   9.7
   9.3
   Hct
   21.5
   19.2
   21.8
   23.6
   23.2
   22.7
   21.4
   Plt
   [**Telephone/Fax (3) 4607**]
   Cr
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   0.9
   TCO2
   44
   39
   Glucose
   124
   90
   105
   100
   98
   105
   114
   Other labs: PT / PTT / INR:14.8/28.7/1.3, CK / CKMB / Troponin-T:96//,
   ALT / AST:[**1-6**], Alk Phos / T Bili:156/0.8, Amylase / Lipase:44/38,
   Differential-Neuts:73.9 %, Band:4.0 %, Lymph:16.9 %, Mono:6.3 %,
   Eos:2.4 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:248 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, now with persistent respiratory
   failure and respiratory failure.
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Now s/p trach placement
   and vent dependent.  Continues to slowly wean.  IP performed
   thoracentesis and pigtail placement of left pleural effusion on [**3-6**],
   consistent with exudative effusion.   Complicated by small
   pneumothorax, now resolved.  Chest tube removed [**3-12**]. Unable to tolerate
   trach mask on [**3-15**], ? anxiety or pna given fevers.  NIF 45 this am.
   - wean to [**10-14**], possible trach trial later
   - diurese goal even to negative 1 L today with prn lasix IV
   - f/u pleural fluid cultures (NTD)
   # Altered mental status:  Consider delirium in the setting of resolving
   acute illness MRI on [**2-29**] showed no radiographic explanation for
   altered mental status.  LP was unrevealing.  ? Ventriculitis.  Weaned
   off of ativan and methadone.   Per neuro, ? depression.  Consider pain
   as an etiology as well.
   - weaned off of methadone and ativan
   - haldol 20 IV tid
   - appreciate psych recs
   - neuro reconsult, EEG read is pending
   # fevers: broadly covered on vanc/[**Last Name (un) **], no source yet.
   - f/u cultures
   - ID recs
   - can d/c ampicillin as enterococcus is vanc sensitive
   - consider paracentesis
   # Enterococcus bacteremia:  Enteroccus on [**3-7**].  Source was thought to
   be a-line which was discontinued on [**3-5**].  A-line tip did not grow
   any.  [**2-4**] BCx also growing enterococcus (was treated with levo at that
   time, amp started after).  TTE and TEE negative for vegetations, though
   cannot r/o small veg.   BCx since then NGTD.  CT abdomen official read
   is pending.  Fevers last two days as above.
   - d/c amp as abpve
   - surveillance cultures
   - ID recs (appreciate recs)
   - f/u CT abd, ? pancreatic cyst, review official read,  ? surgery
   consult after official read
   # Klebsiella bacteremia:  Undetermined source.
   - s/p meropenem, 14 day course finished on [**3-9**]
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Cultured from maxillary sinus tissue,
   urine, sputum and skin.
   -  s/p fluconazole for 6 weeks, finished [**3-9**]
   -  ID was considering a longer course?, will clarify with ID team
   # Right sphenoid sinus lesion:  Repeat CT scan revealed sinusitis
   improving.
   - ENT following, need follow up with Dr.[**First Name (STitle) 4381**] in two weeks
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable at ~21-22.
   - minimize blood draws
   - guaiac all stool
   - SPEP/UPEP negative
   - HCT goal > 21
   # Hypercalcemia:
   - diuresis as above
   - appreciate endocrinology recs
 not thought to be cause of AMS.
   # Hypernatremia:  Resolved with free water repletion.  Possible
   secondary to stress (appropriate ADH) as we try to wean resp support
   and sedation.   Improved with free water boluses via PEG in the past.
   Complicated by vomiting, likely [**2-12**] to large gastric volumes.
   - continue free H2O flushes to 250 q 4
   - cont trend Na
   # FEN:  Tube feed via jpeg; replete lytes prn
   - nutrition consult
   # PPx: sc heparin, famotidine
   # Access: PIV.
   # Code: Full Code
   # Contact: Father, also has a fiancee
   # Dispo:  ICU
   - PT/OT unable to assess as per nursing concerns
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-3-16**] 02:12 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-3-15**] 01:01 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-17 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - tolerated trach mask for 2 hrs
   - Broad spectrum antibiotics changed back to just amp per ID
   - ID recommended paracentesis, no safe pocket by bedside ultrasound
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2120-3-16**] 08:30 AM
   Meropenem - [**2120-3-16**] 06:00 PM
   Ampicillin - [**2120-3-17**] 07:42 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-3-16**] 08:00 AM
   Haloperidol (Haldol) - [**2120-3-17**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-17**] 07:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Psychiatric / Sleep: Delirious
   Flowsheet Data as of  [**2120-3-17**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.9
C (100.3
   HR: 125 (84 - 129) bpm
   BP: 154/100(114) {122/68(81) - 170/112(120)} mmHg
   RR: 27 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  3,312 mL
                                                                    851 mL
   PO:
             TF:
                                                                    962 mL
                                                                    321 mL
   IVF:
                                                                  1,240 mL
                                                                    380 mL
   Blood products:
   Total out:
                                                                  2,225 mL
                                                                  1,100 mL
   Urine:
                                                                  2,225 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,087 mL
                                                                   -249 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 196 (86 - 469) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///32/
   NIF: -45 cmH2O
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Anxious
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, No(t)
   Sedated, Tone: Not assessed
   Labs / Radiology
   274 K/uL
   7.5 g/dL
   118 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.8 mEq/L
   10 mg/dL
   100 mEq/L
   137 mEq/L
   21.7 %
   10.2 K/uL
        [image002.jpg]
                             [**2120-3-11**]  06:07 PM
                             [**2120-3-12**]  03:30 AM
                             [**2120-3-12**]  03:50 PM
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
                             [**2120-3-15**]  02:56 AM
                             [**2120-3-15**]  02:06 PM
                             [**2120-3-16**]  05:31 AM
                             [**2120-3-17**]  04:36 AM
   WBC
   7.3
   7.0
   8.6
   9.7
   9.3
   10.2
   Hct
   19.2
   21.8
   23.6
   23.2
   22.7
   21.4
   21.7
   Plt
   280
   264
   269
   292
   299
   274
   Cr
   0.8
   0.8
   0.8
   0.8
   0.9
   0.9
   0.8
   TCO2
   44
   39
   Glucose
   90
   105
   100
   98
   105
   114
   118
   Other labs: PT / PTT / INR:16.4/28.3/1.5, CK / CKMB / Troponin-T:96//,
   ALT / AST:[**1-6**], Alk Phos / T Bili:156/0.8, Amylase / Lipase:44/38,
   Differential-Neuts:73.9 %, Band:4.0 %, Lymph:16.9 %, Mono:6.3 %,
   Eos:2.4 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:248 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   24 y/o lady with multiorgan failure, now with persistent respiratory
   failure and respiratory failure.
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Now s/p trach placement
   and vent dependent.  Continues to slowly wean.  IP performed
   thoracentesis and pigtail placement of left pleural effusion on [**3-6**],
   consistent with exudative effusion.   Complicated by small
   pneumothorax, now resolved.  Chest tube removed [**3-12**]. Unable to tolerate
   trach mask on [**3-15**], ? anxiety or pna given fevers.  NIF 45 this am.
   - wean to [**10-14**], possible trach trial later
   - diurese goal even to negative 1 L today with prn lasix IV
   - f/u pleural fluid cultures (NTD)
   # Altered mental status:  Consider delirium in the setting of resolving
   acute illness MRI on [**2-29**] showed no radiographic explanation for
   altered mental status.  LP was unrevealing.  ? Ventriculitis.  Weaned
   off of ativan and methadone.   Per neuro, ? depression.  Consider pain
   as an etiology as well.
   - weaned off of methadone and ativan
   - haldol 20 IV tid
   - appreciate psych recs
   - neuro reconsult, EEG read is pending
   # fevers: broadly covered on vanc/[**Last Name (un) **], no source yet.
   - f/u cultures
   - ID recs
   - can d/c ampicillin as enterococcus is vanc sensitive
   - consider paracentesis
   # Enterococcus bacteremia:  Enteroccus on [**3-7**].  Source was thought to
   be a-line which was discontinued on [**3-5**].  A-line tip did not grow
   any.  [**2-4**] BCx also growing enterococcus (was treated with levo at that
   time, amp started after).  TTE and TEE negative for vegetations, though
   cannot r/o small veg.   BCx since then NGTD.  CT abdomen official read
   is pending.  Fevers last two days as above.
   - d/c amp as abpve
   - surveillance cultures
   - ID recs (appreciate recs)
   - f/u CT abd, ? pancreatic cyst, review official read,  ? surgery
   consult after official read
   # Klebsiella bacteremia:  Undetermined source.
   - s/p meropenem, 14 day course finished on [**3-9**]
   # [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4239**] infection:  Cultured from maxillary sinus tissue,
   urine, sputum and skin.
   -  s/p fluconazole for 6 weeks, finished [**3-9**]
   -  ID was considering a longer course?, will clarify with ID team
   # Right sphenoid sinus lesion:  Repeat CT scan revealed sinusitis
   improving.
   - ENT following, need follow up with Dr.[**First Name (STitle) 4381**] in two weeks
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable at ~21-22.
   - minimize blood draws
   - guaiac all stool
   - SPEP/UPEP negative
   - HCT goal > 21
   # Hypercalcemia:
   - diuresis as above
   - appreciate endocrinology recs
 not thought to be cause of AMS.
   # Hypernatremia:  Resolved with free water repletion.  Possible
   secondary to stress (appropriate ADH) as we try to wean resp support
   and sedation.   Improved with free water boluses via PEG in the past.
   Complicated by vomiting, likely [**2-12**] to large gastric volumes.
   - continue free H2O flushes to 250 q 4
   - cont trend Na
   # FEN:  Tube feed via jpeg; replete lytes prn
   - nutrition consult
   # PPx: sc heparin, famotidine
   # Access: PIV.
   # Code: Full Code
   # Contact: Father, also has a fiancee
   # Dispo:  ICU
   - PT/OT unable to assess as per nursing concerns
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-3-17**] 02:59 AM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2120-3-16**] 09:49 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2120-03-18 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2120-3-17**] 12:46 PM
 URINE CULTURE - At [**2120-3-17**] 12:46 PM
 BLOOD CULTURED - At [**2120-3-18**] 05:50 AM
 FEVER - 101.9
F - [**2120-3-17**] 04:00 PM
 Tolerated trach mask for approximately 7 hours [**2120-3-17**]
 Did not receive Haldol [**3-17**]; and clonidine added for withdrawal
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2120-3-16**] 08:30 AM
   Meropenem - [**2120-3-16**] 06:00 PM
   Ampicillin - [**2120-3-18**] 04:04 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2120-3-17**] 01:41 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-18**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Unable to obtain due to AMS, trach
   Flowsheet Data as of  [**2120-3-18**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.7
C (99.8
   HR: 122 (92 - 134) bpm
   BP: 154/89(103) {124/72(85) - 166/127(132)} mmHg
   RR: 18 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  2,617 mL
                                                                    919 mL
   PO:
             TF:
                                                                    967 mL
                                                                    311 mL
   IVF:
                                                                    840 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  2,610 mL
                                                                  1,060 mL
   Urine:
                                                                  2,610 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      7 mL
                                                                   -141 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 357 (123 - 374) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 10.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   282 K/uL
   7.3 g/dL
   120 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   14 mg/dL
   103 mEq/L
   137 mEq/L
   22.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2120-3-12**]  03:30 AM
                             [**2120-3-12**]  03:50 PM
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
                             [**2120-3-15**]  02:56 AM
                             [**2120-3-15**]  02:06 PM
                             [**2120-3-16**]  05:31 AM
                             [**2120-3-17**]  04:36 AM
                             [**2120-3-18**]  04:17 AM
   WBC
   7.3
   7.0
   8.6
   9.7
   9.3
   10.2
   10.9
   Hct
   19.2
   21.8
   23.6
   23.2
   22.7
   21.4
   21.7
   22.2
   Plt
   280
   264
   269
   292
   299
   274
   282
   Cr
   0.8
   0.8
   0.8
   0.9
   0.9
   0.8
   0.8
   TCO2
   44
   39
   Glucose
   105
   100
   98
   105
   114
   118
   120
   Other labs: PT / PTT / INR:16.2/30.2/1.4, CK / CKMB / Troponin-T:96//,
   ALT / AST:[**1-6**], Alk Phos / T Bili:156/0.8, Amylase / Lipase:44/38,
   Differential-Neuts:73.9 %, Band:4.0 %, Lymph:16.9 %, Mono:6.3 %,
   Eos:2.4 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:248 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   24 y/o female with multiorgan failure, now with persistent respiratory
   failure and respiratory failure.
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Now s/p trach placement
   and vent dependent.  IP performed thoracentesis and pigtail placement
   of left pleural effusion on [**3-6**], consistent with exudative effusion.
   Complicated by small pneumothorax, now resolved.  Chest tube removed
   [**3-12**]. Unable to tolerate trach mask on [**3-15**], ? anxiety or pna given
   fevers.  NIF -45 this am.
   - continue daily trach collar trials
   - goal even today
   - Provide pressure support overnight
   # Altered mental status:  Consider delirium in the setting of resolving
   acute illness MRI on [**2-29**] showed no radiographic explanation for
   altered mental status.  LP was unrevealing for CNS infection  there was
   some flair abnmls initially concerning for ventriculitis but review
   with Neuro radiology did not think was consistent.   Ativan and
   Methadone abruptly discontinued on [**3-14**], then developed diaphoretic with
   tachycardia, hypertension, fevers, diarrhea, new tremor
 all
   consistent with opioid withdrawl.
   - Restarted Methadone with scheduled slow taper
   -  clonidine taper, need to write for today
   - Haldol IV PRN (did not receive any [**2120-3-17**])
   - appreciate psych recs
   # Fever: Unclear etiology.  Had been afebrile for a while,then
   restarted fevers on [**2120-3-15**].  Pancultured with no positive culture to
   date.  CT abdomen [**3-15**] with unchanged peripancreatic fluid collection.
   Per ID
   - Follow-up culture data
   - Clarify antifungal course with ID for prior candidal oral infection,
   ?8 weeks total
   - Check diff
   - RUQ u/s for biliary infection?
   - LENIs for possible DVT
   - Discuss further sinus evaluation with ENT
   # Enterococcus bacteremia:  Enteroccus on [**3-7**].  Source was thought to
   be a-line which was discontinued on [**3-5**].  A-line tip did not grow
   any.  [**2-4**] BCx also growing enterococcus (was treated with levo at that
   time, amp started after).  TTE and TEE negative for vegetation.  CT
   abdomen without obvious source of infection.
   -          f/u micro data
   -          Ampicillin day 11 of 14-day course (day 1=[**3-7**])
   # Right sphenoid sinus lesion:  Repeat CT scan revealed sinusitis
   improving.
   - ENT following, need follow up with Dr.[**First Name (STitle) 4381**] in two weeks
   - Discuss with ENT as above
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable at ~21-22.
   - minimize blood draws
   - HCT goal > 21
   # Hypernatremia:  Resolved with free water repletion.  Possible
   secondary to stress (appropriate ADH) as we try to wean resp support
   and sedation.   Improved with free water boluses via PEG in the past.
   Complicated by vomiting, likely [**2-12**] to large gastric volumes.
   - continue free H2O flushes to 250 q 4
   - cont trend Na
   # FEN:  Tube feed via jpeg; replete lytes prn
   - nutrition consult
   # PPx: sc heparin, famotidine
   # Access: PIV.
   # Code: Full Code
   # Contact: Father, also has a fiance
   # Dispo:  ICU
   - PT/OT unable to assess as per nursing concerns

2120-03-18 10:51:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Tolerating TM over the weekend. Having persistent fevers of unclear
   source. Now weaned down on haldol. Started on methadone and clonidine
   for concern for narcotic withdrawl.
 BLOOD CULTURED - At [**2120-3-17**] 12:46 PM
 URINE CULTURE - At [**2120-3-17**] 12:46 PM
 BLOOD CULTURED - At [**2120-3-18**] 05:50 AM
 FEVER - 101.9
F - [**2120-3-17**] 04:00 PM
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2120-3-16**] 08:30 AM
   Meropenem - [**2120-3-16**] 06:00 PM
   Ampicillin - [**2120-3-18**] 08:09 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2120-3-17**] 01:41 PM
   Famotidine (Pepcid) - [**2120-3-18**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-18**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-18**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.6
C (101.5
   HR: 116 (92 - 134) bpm
   BP: 150/82(100) {124/72(85) - 166/127(132)} mmHg
   RR: 29 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  2,617 mL
                                                                  1,355 mL
   PO:
             TF:
                                                                    967 mL
                                                                    402 mL
   IVF:
                                                                    840 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                  2,610 mL
                                                                  1,340 mL
   Urine:
                                                                  2,610 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      7 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 357 (123 - 374) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 10.5 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   282 K/uL
   120 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   14 mg/dL
   103 mEq/L
   137 mEq/L
   22.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2120-3-12**]  03:30 AM
                             [**2120-3-12**]  03:50 PM
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
                             [**2120-3-15**]  02:56 AM
                             [**2120-3-15**]  02:06 PM
                             [**2120-3-16**]  05:31 AM
                             [**2120-3-17**]  04:36 AM
                             [**2120-3-18**]  04:17 AM
   WBC
   7.3
   7.0
   8.6
   9.7
   9.3
   10.2
   10.9
   Hct
   19.2
   21.8
   23.6
   23.2
   22.7
   21.4
   21.7
   22.2
   Plt
   280
   264
   269
   292
   299
   274
   282
   Cr
   0.8
   0.8
   0.8
   0.9
   0.9
   0.8
   0.8
   TCO2
   44
   39
   Glucose
   105
   100
   98
   105
   114
   118
   120
   Other labs: PT / PTT / INR:16.2/30.2/1.4, CK / CKMB / Troponin-T:96//,
   ALT / AST:[**1-6**], Alk Phos / T Bili:156/0.8, Amylase / Lipase:44/38,
   Differential-Neuts:73.9 %, Band:4.0 %, Lymph:16.9 %, Mono:6.3 %,
   Eos:2.4 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:248 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 BACTEREMIA
 HYPERNATREMIA (HIGH SODIUM)
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   1. AMS: Still appears to be delirious, possible narcotic withdrawl
   -unclear psyche hx
   -cont. methadone taper
   -taper clonidine by 0.1 to 0.2 per 24h
   2. fever: So far cultures unremarkable
   -restart fluconazole until [**3-25**]
   -ampicillin for 14 days
   -check diff for eos
   -RUQ U/S and LENIs to r/o DVT
   -ENT examine sinuses and send sinus cx
   -C. Diff
   -check TFTs
   3. ARDS: Cont. TM trial
   -PS overnight, TM during day
   -sputum NGTD
   4. Anemia: Transfuse for Hct <21%
   5. FEN: TF at goal
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2120-3-16**] 09:49 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and resident.  I
   have reviewed and agree with the assessment and plan as above with the
   following emphasis and modifications:
   Female with necrotizing pancreatitis and prolonged hospital course with
   complications including respiratory failure/ARDS, sepsis, and
   persistent delirium.
   See
   On exam,  tmax is 38.5,   tc 38.0   Pulse 98   BP 122/70  RR 16   SaO2:
   97%  on CPAP
   Gen: trach in place, confused
   Chest: CTA bilaterally
   Heart: s1 s2
   Abd: soft, NT ND
   Neuro: Responds to simple commands, moving extremities
   A:
   1)       Mental Status Changes: Pancreatic Encephalopathy but now
   likely being driven in part by febrile illness
   2)       Fevers
   3)       Acute Respiratory Failure (ARDS)
 improving
   4)       Pancreatitis (necrotizing)
 improved
   5)       Enterococcus bacteremia
 suspect gut translocation at some
   point
   Plan:
   1)       Will seek underlying cause of fevers and then provide empiric
   antibiotic coverage while awaiting results as fevers have been
   persistent for 48 hours after stopping antibiotics
   1.       Check US to rule out DVT
   2.       Tap of abdominal fluid collection
   3.       Sputum culture
   4.       right upper quadrant ultrasound to rule out acalculous chole
   5.       blood cultures
   2)     Trach shield as tolerated
   Time: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2120-3-18**] 07:25 PM ------

2120-03-19 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.7
F - [**2120-3-19**] 06:00 AM
   - put on Haldol taper per psych
   - RUQ U/S - 1. No biliary dilatation and no evidence of cholecystitis.
   2. Scant trace of ascites.
   - continue methadone and clonidine taper
   - LENIs - no DVT
   - TSH - 5 (down from 8.4)
   - CXR - The lung volumes remain low, but there is slight interval
   improvement in the widespread parenchymal opacities in both lungs.  No
   appreciable pleural effusion is demonstrated. The
   - CT sinus - prelim - Interval improvement in aeration of the paranasal
   sinuses, in particular and sphenoid sinuses, with decreased but
   persistent mucosal thickening with calcification, fungal colonization
   remains a consideration.
   - IR-guided peri-pancreatic fluid drainage - 1+ polys, no microorg
   - restarted vanc/[**Last Name (un) **] post-procedure
   - spiked to 102.4, recultured, gave tylenol, down to 100
   - spiked again to 102.4, no obvious source, CXR negative, UA
   neg, abd soft not TTP
   - restarted fluconazole
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2120-3-18**] 06:30 PM
   Ampicillin - [**2120-3-19**] 04:00 AM
   Meropenem - [**2120-3-19**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-3-18**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-18**] 05:41 PM
   Haloperidol (Haldol) - [**2120-3-19**] 05:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-3-19**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 39.3
C (102.7
   HR: 104 (82 - 133) bpm
   BP: 124/68(80) {118/62(76) - 152/113(116)} mmHg
   RR: 21 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  3,361 mL
                                                                  1,537 mL
   PO:
             TF:
                                                                  1,015 mL
                                                                    473 mL
   IVF:
                                                                  1,317 mL
                                                                    673 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                    920 mL
   Urine:
                                                                  3,290 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     71 mL
                                                                    617 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 459 (319 - 885) mL
   PS : 10 cmH2O
   RR (Spontaneous): 43
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 151
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 10.9 L/min
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   259 K/uL
   7.1 g/dL
   132 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.1 mEq/L
   16 mg/dL
   105 mEq/L
   141 mEq/L
   21.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2120-3-12**]  03:50 PM
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
                             [**2120-3-15**]  02:56 AM
                             [**2120-3-15**]  02:06 PM
                             [**2120-3-16**]  05:31 AM
                             [**2120-3-17**]  04:36 AM
                             [**2120-3-18**]  04:17 AM
                             [**2120-3-19**]  04:29 AM
   WBC
   7.0
   8.6
   9.7
   9.3
   10.2
   10.9
   8.1
   Hct
   21.8
   23.6
   23.2
   22.7
   21.4
   21.7
   22.2
   21.5
   Plt
   [**Telephone/Fax (3) **]99
   274
   282
   259
   Cr
   0.8
   0.8
   0.9
   0.9
   0.8
   0.8
   0.8
   TCO2
   44
   39
   Glucose
   100
   98
   105
   114
   118
   120
   132
   Other labs: PT / PTT / INR:16.2/30.2/1.4, CK / CKMB / Troponin-T:40//,
   ALT / AST:[**1-6**], Alk Phos / T Bili:156/0.8, Amylase / Lipase:44/38,
   Differential-Neuts:66.6 %, Band:4.0 %, Lymph:19.1 %, Mono:9.5 %,
   Eos:4.4 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:248 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   24 y/o female with multiorgan failure, now with persistent respiratory
   failure and fevers.
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Now s/p trach placement
   and vent dependent, although making progress on trach collar.  IP
   performed thoracentesis and pigtail placement of left pleural effusion
   on [**3-6**], consistent with exudative effusion.   Complicated by small
   pneumothorax, now resolved.  Chest tube removed [**3-12**].
   - continue daily trach collar trials
   - goal even today
   - Provide pressure support overnight
   - continue vanc/[**Last Name (un) **] for possible VAP
   - bronch/BAL today
   # Altered mental status:  Consider delirium in the setting of resolving
   acute illness MRI on [**2-29**] showed no radiographic explanation for
   altered mental status.  LP was unrevealing for CNS infection  there was
   some flair abnmls initially concerning for ventriculitis but review
   with Neuro radiology did not think was consistent.   Ativan and
   Methadone abruptly discontinued on [**3-14**], then developed diaphoretic with
   tachycardia, hypertension, fevers, diarrhea, new tremor
 possibly
   consistent with opioid withdrawl.
   - Restarted Methadone with scheduled slow taper
   - clonidine taper, need to write for today
   - Haldol IV per psych recs (weaning)
 need to discuss continuation
   given tremors and fevers
   # Fever: Unclear etiology.  Had been afebrile for a while, then
   restarted fevers on [**2120-3-15**].  Spiked again overnight to 102.4 and
   re-cultured.  Pancultured with no positive culture to date.  CT abdomen
   [**3-15**] with unchanged peripancreatic fluid collection, now s/p IR drainage
   [**3-18**], cx pending. LENIs and RUQ u/s negative for source. CT sinuses with
   persistent mucosal thickening but overall improved, ? fungal
   colonization.
   - Follow-up culture data
   - Plan for completion of Fluc as per ID on [**3-25**]
   - Discuss further sinus evaluation with ENT today
   - TSH 5 now, down from 8.4
   - Continue empiric abx for now as pt has initially seemed to respond to
   vanc/[**Last Name (un) **]
   - drug fever
 check meds, discontinue ampicillin for risk of
   contribution to fevers and on vanc, though eos only 4.4%
   - haldol
 thermal disregulation, NMS
   - RUQ US negative
   - LENIs negative
   # Enterococcus bacteremia:  Enteroccus on [**3-7**].  Source was thought to
   be a-line which was discontinued on [**3-5**].  A-line tip did not grow
   any.  [**2-4**] BCx also growing enterococcus (was treated with levo at that
   time, amp started after).  TTE and TEE negative for vegetation.  CT
   abdomen without obvious source of infection.
   -          f/u micro data
   -          Ampicillin day 13 of 14-day course (day 1=[**3-7**])
 will
   discontinue today given persistent fevers
   -          Day 2 vanc/meropenem
   # Sinusitis:  Repeat CT scan revealed sinusitis improving but ? fungal
   colonization.
   - ENT following, need follow up with Dr.[**First Name (STitle) 4381**] in two weeks
   - Discuss with ENT as above, review scan
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable at ~21-22.
   - minimize blood draws
   - HCT goal > 21
   # Hypernatremia:  Resolved with free water repletion.  Possible
   secondary to stress (appropriate ADH) as we try to wean resp support
   and sedation.   Improved with free water boluses via PEG in the past
   - continue free H2O flushes to 250 q 4
   - cont trend Na
   # FEN:  Tube feed via j-tube; replete lytes prn
   - nutrition consult
   # PPx: sc heparin, famotidine
   # Access: PIV.
   # Code: FULL Code
   # Contact: Father, also has a fiance
   # Dispo:  ICU

2120-03-19 10:06:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Went for IR guided sampling of peripancreatic fluid, GS neg for orgs.
   Ct sinus shows slightly improved sinus aeration. started on
   vanco/meropenem. Still having fevers, tremor.
 FEVER - 102.7
F - [**2120-3-19**] 06:00 AM
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2120-3-19**] 06:00 AM
   Vancomycin - [**2120-3-19**] 08:00 AM
   Ampicillin - [**2120-3-19**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-3-18**] 05:41 PM
   Haloperidol (Haldol) - [**2120-3-19**] 05:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-19**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.4
C (101.2
   HR: 97 (82 - 133) bpm
   BP: 130/73(86) {118/62(76) - 152/97(108)} mmHg
   RR: 18 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  3,361 mL
                                                                  2,087 mL
   PO:
             TF:
                                                                  1,015 mL
                                                                    569 mL
   IVF:
                                                                  1,317 mL
                                                                    997 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                  1,160 mL
   Urine:
                                                                  3,290 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     71 mL
                                                                    927 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 635 (319 - 885) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 151
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   259 K/uL
   132 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.1 mEq/L
   16 mg/dL
   105 mEq/L
   141 mEq/L
   21.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2120-3-12**]  03:50 PM
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
                             [**2120-3-15**]  02:56 AM
                             [**2120-3-15**]  02:06 PM
                             [**2120-3-16**]  05:31 AM
                             [**2120-3-17**]  04:36 AM
                             [**2120-3-18**]  04:17 AM
                             [**2120-3-19**]  04:29 AM
   WBC
   7.0
   8.6
   9.7
   9.3
   10.2
   10.9
   8.1
   Hct
   21.8
   23.6
   23.2
   22.7
   21.4
   21.7
   22.2
   21.5
   Plt
   [**Telephone/Fax (3) **]99
   274
   282
   259
   Cr
   0.8
   0.8
   0.9
   0.9
   0.8
   0.8
   0.8
   TCO2
   44
   39
   Glucose
   100
   98
   105
   114
   118
   120
   132
   Other labs: PT / PTT / INR:16.2/30.2/1.4, CK / CKMB / Troponin-T:40//,
   ALT / AST:[**1-6**], Alk Phos / T Bili:156/0.8, Amylase / Lipase:44/38,
   Differential-Neuts:66.6 %, Band:4.0 %, Lymph:19.1 %, Mono:9.5 %,
   Eos:4.4 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:248 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 BACTEREMIA
 HYPERNATREMIA (HIGH SODIUM)
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   Plan:
   1. Resp failure: Unclear if she has VAP
   -will do bronch with BAL for cx, AFB (atypicals), PCP, [**Name10 (NameIs) 4680**] cx
   -tapering haldol
   2. Tremor: Ask psyche if this could be pseudo parkinsonism or tardive
   dyskinesia
   -
   3. Fever: ? VAP vs. sinus dz, vs infected pancreatic collection vs drug
   fever vs C. Diff
   - if drug fever most likely causes are ampicillin and haldol, will d/c
   ampicillin as is now on vanco
   -discuss haldol w psyche
   -[**Name10 (NameIs) 1336**] neg for cholecystitis
   -LENIs neg
   4. TF
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-3-19**] 04:44 AM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2120-3-16**] 09:49 AM
   22 Gauge - [**2120-3-18**] 10:49 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and resident.  I
   have reviewed and agree with the assessment and plan as above with the
   following emphasis and modifications:
   Female with necrotizing pancreatitis and prolonged hospital course with
   complications including respiratory failure/ARDS, sepsis, and
   persistent delirium.
   [**Last Name 1526**] problem is persistent fever of unclear etiology
   On exam,  t=39.3 Pulse 98   BP 130/78  RR 16   SaO2: 97%  on CPAP
   Gen: trach in place, following commands
   Chest: CTA bilaterally
   Heart: s1 s2
   Abd: soft, NT ND
   Neuro: Responds to simple commands, moving extremities
   A:
   1)       Mental Status Changes: Pancreatic Encephalopathy but now
   likely being driven in part by febrile illness
   2)       Fevers
 unclear etiology
 fluid negative, [**Name (NI) 1336**] negative, BC
   negative, other cultures pending. [**Month (only) 11**] be from ampicillin as seems to
   temporally be associated with fever
   3)       Acute Respiratory Failure (ARDS)
 improving
   4)       Pancreatitis (necrotizing)
 improved
   5)       Enterococcus bacteremia
 suspect gut translocation at some
   point
   Plan:
   1)       Stop ampicillin as this antibiotic seems to be temporally
   associated with fevers and may be drug fever
   2)       Follow all cultures
   3)       BAL today
   4)       Trach shield as tolerated
   Time: 35 minutes
   Pt is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2120-3-19**] 06:42 PM ------

2120-03-20 07:21:00 Physician Resident Progress Note
Chief Complaint: MS change, resp failure, fevers
   24 Hour Events:
 BRONCHOSCOPY - At [**2120-3-19**] 01:31 PM
 FEVER - 102.6
F - [**2120-3-19**] 08:00 AM
   - ENT: CT slowly improving, unimpressive, would not perform any
   intervention
   - Psyche recs: Would recommend taper of Haldol instead of abrupt
   discontinuation to avoid rebound agitation, with holding parameters
   including sedation: Haldol 10 IV TID x1 day, then Haldol 5 mg IV TID x1
   day then Haldol 5 mg IV  BID x 1 day then Haldol 5 mg IV once daily x 1
   day
   -Would add Haldol 10 IV TID PRN agitation
   -Would monitor LFTs, CK
   -Would continue to recommend daily EKG to monitor QTc
   .
   - Bronch with BAL: Gram stains with PMNs, no organisms seen
   - Ampicillin discontinued given near completion and potential for drug
   fever
   - Given Zyprexa 5mg x 1 for persistent agitation
   - Morphine 4mg IV x 1
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-19**] 08:00 AM
   Vancomycin - [**2120-3-19**] 08:30 PM
   Meropenem - [**2120-3-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2120-3-19**] 01:15 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-20**] 12:00 AM
   Haloperidol (Haldol) - [**2120-3-20**] 04:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-20**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.2
C (100.7
   HR: 92 (79 - 125) bpm
   BP: 126/68(80) {117/62(74) - 149/94(105)} mmHg
   RR: 17 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  3,863 mL
                                                                    904 mL
   PO:
             TF:
                                                                  1,153 mL
                                                                    291 mL
   IVF:
                                                                  1,540 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  2,435 mL
                                                                    540 mL
   Urine:
                                                                  2,435 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,428 mL
                                                                    364 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 465 (349 - 635) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 145
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 11.5 L/min
   Physical Examination
   General Appearance: anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   243 K/uL
   7.1 g/dL
   113 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   13 mg/dL
   104 mEq/L
   137 mEq/L
   20.8 %
   12.0 K/uL
        [image002.jpg]
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
                             [**2120-3-15**]  02:56 AM
                             [**2120-3-15**]  02:06 PM
                             [**2120-3-16**]  05:31 AM
                             [**2120-3-17**]  04:36 AM
                             [**2120-3-18**]  04:17 AM
                             [**2120-3-19**]  04:29 AM
                             [**2120-3-20**]  03:51 AM
   WBC
   7.0
   8.6
   9.7
   9.3
   10.2
   10.9
   8.1
   12.0
   Hct
   23.6
   23.2
   22.7
   21.4
   21.7
   22.2
   21.5
   20.8
   Plt
   [**Telephone/Fax (3) **]99
   274
   282
   259
   243
   Cr
   0.8
   0.8
   0.9
   0.9
   0.8
   0.8
   0.8
   0.7
   TCO2
   44
   39
   Glucose
   100
   98
   105
   114
   118
   120
   132
   113
   Other labs: PT / PTT / INR:16.2/30.2/1.4, CK / CKMB / Troponin-T:30//,
   ALT / AST:20/35, Alk Phos / T Bili:155/0.7, Amylase / Lipase:44/38,
   Differential-Neuts:66.6 %, Band:4.0 %, Lymph:19.1 %, Mono:9.5 %,
   Eos:4.4 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:248 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   24 y/o female with multiorgan failure, now with persistent respiratory
   failure and fevers.
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Now s/p trach placement
   and vent dependent, although making progress on trach collar.  IP
   performed thoracentesis and pigtail placement of left pleural effusion
   on [**3-6**], consistent with exudative effusion.   Complicated by small
   pneumothorax, now resolved.  Chest tube removed [**3-12**].
   - continue daily trach collar trials
   - goal even today
   - Provide pressure support as needed
   - continue vanc/[**Last Name (un) **] for possible VAP
   - bronch/BAL: no organisms
   # Altered mental status:  Consider delirium in the setting of resolving
   acute illness MRI on [**2-29**] showed no radiographic explanation for
   altered mental status.  LP was unrevealing for CNS infection  there was
   some flair abnmls initially concerning for ventriculitis but review
   with Neuro radiology did not think was consistent.   Ativan and
   Methadone abruptly discontinued on [**3-14**], then developed diaphoretic with
   tachycardia, hypertension, fevers, diarrhea, new tremor
 possibly
   consistent with opioid withdrawl.
   - Restarted Methadone with scheduled slow taper
   - clonidine taper, need to write for today
   - Haldol IV per psych recs (weaning)
 need to discuss continuation
   given tremors and fevers
   # Fever: Unclear etiology.  Had been afebrile for a while, then
   restarted fevers on [**2120-3-15**].  Spiked again overnight to 102.4 and
   re-cultured.  Pancultured with no positive culture to date.  CT abdomen
   [**3-15**] with unchanged peripancreatic fluid collection, now s/p IR drainage
   [**3-18**], cx pending. LENIs and RUQ u/s negative for source. CT sinuses with
   persistent mucosal thickening but overall improved, ? fungal
   colonization. Low grade temps yesterday PM; Amp d/c
   - Follow-up culture data
   - Plan for completion of Fluc as per ID on [**3-25**]
   - Discuss further sinus evaluation with ENT today
   - TSH 5 now, down from 8.4
   - Continue empiric abx for now as pt has initially seemed to respond to
   vanc/[**Last Name (un) **]
   - drug fever
 check meds, discontinue ampicillin for risk of
   contribution to fevers and on vanc, though eos only 4.4%
   - haldol
 thermal disregulation, NMS
   - RUQ US negative
   - LENIs negative
   # Enterococcus bacteremia:  Enteroccus on [**3-7**].  Source was thought to
   be a-line which was discontinued on [**3-5**].  A-line tip did not grow
   any.  [**2-4**] BCx also growing enterococcus (was treated with levo at that
   time, amp started after).  TTE and TEE negative for vegetation.  CT
   abdomen without obvious source of infection.
   -          f/u micro data
   -          Ampicillin d/c
d [**3-19**]
   -          Day 2 vanc/meropenem
   # Sinusitis:  Repeat CT scan revealed sinusitis improving but ? fungal
   colonization.
   - ENT following, need follow up with Dr.[**First Name (STitle) 4381**] in two weeks, nothing
   further to do, appears improved by imaging
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable at ~21-22.
   - minimize blood draws
   - HCT goal > 21
   # FEN:  Tube feed via j-tube; replete lytes prn
   - nutrition consult
   # PPx: sc heparin, famotidine
   # Access: PIV.
   # Code: FULL Code
   # Contact: Father, also has a fiance
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-3-20**] 05:23 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-3-16**] 09:49 AM
   22 Gauge - [**2120-3-18**] 10:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-20 10:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2120-3-19**] 01:31 PM
 FEVER - 102.6
F - [**2120-3-19**] 08:00 AM
   Last fever was at 4pm yesterday. BAL with neg GS.
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-19**] 08:00 AM
   Meropenem - [**2120-3-20**] 12:00 AM
   Vancomycin - [**2120-3-20**] 08:00 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2120-3-19**] 01:15 PM
   Haloperidol (Haldol) - [**2120-3-20**] 04:06 AM
   Heparin Sodium (Prophylaxis) - [**2120-3-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-20**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.2
   HR: 110 (79 - 125) bpm
   BP: 131/81(93) {117/62(74) - 149/94(105)} mmHg
   RR: 32 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  3,863 mL
                                                                  1,481 mL
   PO:
             TF:
                                                                  1,153 mL
                                                                    424 mL
   IVF:
                                                                  1,540 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                  2,435 mL
                                                                  1,055 mL
   Urine:
                                                                  2,435 mL
                                                                  1,055 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,428 mL
                                                                    426 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 465 (349 - 625) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 145
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 11.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   243 K/uL
   113 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   13 mg/dL
   104 mEq/L
   137 mEq/L
   20.8 %
   12.0 K/uL
        [image002.jpg]
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
                             [**2120-3-15**]  02:56 AM
                             [**2120-3-15**]  02:06 PM
                             [**2120-3-16**]  05:31 AM
                             [**2120-3-17**]  04:36 AM
                             [**2120-3-18**]  04:17 AM
                             [**2120-3-19**]  04:29 AM
                             [**2120-3-20**]  03:51 AM
   WBC
   7.0
   8.6
   9.7
   9.3
   10.2
   10.9
   8.1
   12.0
   Hct
   23.6
   23.2
   22.7
   21.4
   21.7
   22.2
   21.5
   20.8
   Plt
   [**Telephone/Fax (3) **]99
   274
   282
   259
   243
   Cr
   0.8
   0.8
   0.9
   0.9
   0.8
   0.8
   0.8
   0.7
   TCO2
   44
   39
   Glucose
   100
   98
   105
   114
   118
   120
   132
   113
   Other labs: PT / PTT / INR:16.2/30.2/1.4, CK / CKMB / Troponin-T:30//,
   ALT / AST:20/35, Alk Phos / T Bili:155/0.7, Amylase / Lipase:44/38,
   Differential-Neuts:66.6 %, Band:4.0 %, Lymph:19.1 %, Mono:9.5 %,
   Eos:4.4 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:248 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 BACTEREMIA
 HYPERNATREMIA (HIGH SODIUM)
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   Plan:
   1. Fever: BAL appears neg so far
   -if BAL cx neg p 48h will d/c vanco/[**Last Name (un) **]
   -may be [**2-12**] ampicillin which was stopped yesterday
   -sinus appears improved
   -pancreatic fluid NG
   -C. Diff neg
   2. Resp: Improving ARDS
   -cont. TC today
   3. Anemia: Transfuse for hct >20
   4. FEN: [**Month (only) **] FW to 100 q4h
   5. Place PICC tomorrow
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-3-20**] 05:23 AM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2120-3-16**] 09:49 AM
   22 Gauge - [**2120-3-18**] 10:49 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and resident.  I
   have reviewed and agree with the assessment and plan as above with the
   following emphasis and modifications:
   Female with necrotizing pancreatitis and prolonged hospital course with
   complications including respiratory failure/ARDS, sepsis, and
   persistent delirium.
   [**Last Name 1526**] problem is persistent fever of unclear etiology
   On exam,  t=37  Pulse 110   BP 130/78  RR 16   SaO2: 95% on trach
   shield
   Gen: trach in place, following commands
   Chest: CTA bilaterally
   Heart: s1 s2
   Abd: soft, NT ND
   Neuro: Responds to simple commands, moving extremities
   A:
   1)       Mental Status Changes: Pancreatic Encephalopathy but now
   likely being driven in part by febrile illness
 much improved
   2)       Fevers
 unclear etiology
 seem to be temporally related to
   Ampicilin
 continue to hold
   3)       Acute Respiratory Failure (ARDS)
 improving
   4)       Pancreatitis (necrotizing)
 improved
   Plan:
   1)       Follow all cultures
   2)       PT
   3)       Prepare for discharge/placement
   4)       Trach shield as tolerated
   Time: 25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2120-3-20**] 09:54 PM ------

2120-03-21 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Worked with PT
   - BAL: NGTD
   - Screening for rehab
   - Afebrile
   - PICC ordered for Thursday
   .
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-19**] 08:00 AM
   Fluconazole - [**2120-3-20**] 05:00 PM
   Vancomycin - [**2120-3-20**] 09:00 PM
   Meropenem - [**2120-3-21**] 06:17 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2120-3-20**] 09:51 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-21**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-21**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 111 (72 - 115) bpm
   BP: 146/78(92) {111/65(76) - 146/100(109)} mmHg
   RR: 35 (19 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  2,844 mL
                                                                    678 mL
   PO:
             TF:
                                                                    964 mL
                                                                    303 mL
   IVF:
                                                                    940 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                  2,285 mL
                                                                  1,010 mL
   Urine:
                                                                  2,285 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    559 mL
                                                                   -332 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Clam
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   243 K/uL
   7.1 g/dL
   113 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   13 mg/dL
   104 mEq/L
   137 mEq/L
   20.8 %
   12.0 K/uL
        [image002.jpg]
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
                             [**2120-3-15**]  02:56 AM
                             [**2120-3-15**]  02:06 PM
                             [**2120-3-16**]  05:31 AM
                             [**2120-3-17**]  04:36 AM
                             [**2120-3-18**]  04:17 AM
                             [**2120-3-19**]  04:29 AM
                             [**2120-3-20**]  03:51 AM
   WBC
   7.0
   8.6
   9.7
   9.3
   10.2
   10.9
   8.1
   12.0
   Hct
   23.6
   23.2
   22.7
   21.4
   21.7
   22.2
   21.5
   20.8
   Plt
   [**Telephone/Fax (3) **]99
   274
   282
   259
   243
   Cr
   0.8
   0.8
   0.9
   0.9
   0.8
   0.8
   0.8
   0.7
   TCO2
   44
   39
   Glucose
   100
   98
   105
   114
   118
   120
   132
   113
   Other labs: PT / PTT / INR:16.2/30.2/1.4, CK / CKMB / Troponin-T:30//,
   ALT / AST:20/35, Alk Phos / T Bili:155/0.7, Amylase / Lipase:44/38,
   Differential-Neuts:66.6 %, Band:4.0 %, Lymph:19.1 %, Mono:9.5 %,
   Eos:4.4 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:248 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 24 y/o female with multiorgan failure, now with persistent
   respiratory failure and fevers.
   # Respiratory failure:  Most likely [**2-12**] ARDS.  Now s/p trach placement
   and vent dependent, although making progress on trach collar.  IP
   performed thoracentesis and pigtail placement of left pleural effusion
   on [**3-6**], consistent with exudative effusion.   Complicated by small
   pneumothorax, now resolved.  Chest tube removed [**3-12**].   Continues to
   improve.
   - continue daily trach collar trials; trying to maintain as long as
   possible
   - OOB
   - goal even today
   - Provide pressure support as needed
   - continue vanc/[**Last Name (un) **] for possible VAP, started [**3-16**]
   - bronch/BAL: no organisms; if culture negative will stop Vanc/[**Last Name (un) 1540**]
   # Altered mental status:  Consider delirium in the setting of resolving
   acute illness MRI on [**2-29**] showed no radiographic explanation for
   altered mental status.  LP was unrevealing for CNS infection  there was
   some flair abnmls initially concerning for ventriculitis but review
   with Neuro radiology did not think was consistent.   Ativan and
   Methadone abruptly discontinued on [**3-14**], then developed diaphoresis with
   tachycardia, hypertension, fevers, diarrhea, new tremor
 possibly
   consistent with opioid withdrawl.  Restarted Methadone taper.
   - Continued Methadone with scheduled slow taper
   - clonidine taper
   - Haldol IV per psych recs (weaning)
 need to discuss continuation
   given tremors and fevers
   # Fever: Unclear etiology.  Had been afebrile for a while, then
   restarted fevers on [**2120-3-15**].  Spiked again overnight to 102.4 and
   re-cultured.  Pancultured with no positive culture to date.  CT abdomen
   [**3-15**] with unchanged peripancreatic fluid collection, now s/p IR drainage
   [**3-18**], cx pending. LENIs and RUQ u/s negative for source. CT sinuses with
   persistent mucosal thickening but overall improved, ? fungal
   colonization. Low grade temps yesterday PM; Amp d/c
   - Follow-up culture data
   - Plan for completion of Fluc as per ID on [**3-25**]
   - TSH 5 now, down from 8.4
   - Continue empiric abx for now as pt has initially seemed to respond to
   vanc/[**Last Name (un) **]
   - drug fever
 check meds, discontinue ampicillin for risk of
   contribution to fevers and on vanc, though eos only 4.4%
   - haldol
 thermal disregulation, NMS
   - RUQ US negative
   - LENIs negative
   # Enterococcus bacteremia:  Enteroccus on [**3-7**].  Source was thought to
   be a-line which was discontinued on [**3-5**].  A-line tip did not grow
   any.  [**2-4**] BCx also growing enterococcus (was treated with levo at that
   time, amp started after).  TTE and TEE negative for vegetation.  CT
   abdomen without obvious source of infection.  Treated with 13 day
   course of Ampicillin.
   - Follow-up  micro data
   # Sinusitis:  Repeat CT scan revealed sinusitis improving but ? fungal
   colonization.
   - ENT following, need follow up with Dr.[**First Name (STitle) 4381**] in two weeks, nothing
   further to do, appears improved by imaging
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable at ~21-22.
   - minimize blood draws
   - HCT goal approximately > 21
   # FEN:  Tube feed via j-tube; replete lytes prn
   - nutrition consult
   # PPx: sc heparin, famotidine
   # Access: PIV; consider PICC once fevers / leukocytosis resolves
   # Code: FULL Code
   # Contact: Father, also has a fiance
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-3-21**] 06:09 AM 40 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2120-3-20**] 10:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-21 11:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Walked with PT. Has been off vent for 24h. Has been afebrile.
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-19**] 08:00 AM
   Fluconazole - [**2120-3-20**] 05:00 PM
   Meropenem - [**2120-3-21**] 06:17 AM
   Vancomycin - [**2120-3-21**] 08:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2120-3-20**] 09:51 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-21**] 08:00 AM
   Famotidine (Pepcid) - [**2120-3-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-21**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 74 (72 - 115) bpm
   BP: 93/55(64) {93/55(64) - 146/100(109)} mmHg
   RR: 17 (17 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
             Total In:
                                                                  2,844 mL
                                                                  1,132 mL
   PO:
             TF:
                                                                    964 mL
                                                                    458 mL
   IVF:
                                                                    940 mL
                                                                    514 mL
   Blood products:
   Total out:
                                                                  2,285 mL
                                                                  1,300 mL
   Urine:
                                                                  2,285 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    559 mL
                                                                   -168 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Trach mask
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: LUQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): year, person, hospital, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   243 K/uL
   113 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   13 mg/dL
   104 mEq/L
   137 mEq/L
   20.8 %
   12.0 K/uL
        [image002.jpg]
                             [**2120-3-12**]  10:02 PM
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
                             [**2120-3-15**]  02:56 AM
                             [**2120-3-15**]  02:06 PM
                             [**2120-3-16**]  05:31 AM
                             [**2120-3-17**]  04:36 AM
                             [**2120-3-18**]  04:17 AM
                             [**2120-3-19**]  04:29 AM
                             [**2120-3-20**]  03:51 AM
   WBC
   7.0
   8.6
   9.7
   9.3
   10.2
   10.9
   8.1
   12.0
   Hct
   23.6
   23.2
   22.7
   21.4
   21.7
   22.2
   21.5
   20.8
   Plt
   [**Telephone/Fax (3) **]99
   274
   282
   259
   243
   Cr
   0.8
   0.8
   0.9
   0.9
   0.8
   0.8
   0.8
   0.7
   TCO2
   44
   39
   Glucose
   100
   98
   105
   114
   118
   120
   132
   113
   Other labs: PT / PTT / INR:16.2/30.2/1.4, CK / CKMB / Troponin-T:30//,
   ALT / AST:20/35, Alk Phos / T Bili:155/0.7, Amylase / Lipase:44/38,
   Differential-Neuts:66.6 %, Band:4.0 %, Lymph:19.1 %, Mono:9.5 %,
   Eos:4.4 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:248 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 BACTEREMIA
 HYPERNATREMIA (HIGH SODIUM)
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   1. Resp failure: Tolerating TM
   -complains of SOB with PMV although speaks well
   -d/c vanco/[**Last Name (un) **] as BAL was neg
   -OOB, walk with PT
   -prn albuterol
   2. AMS: Best yet, talking
   -thinks she is at [**Hospital1 **]
   -decrease clonidine to [**Hospital1 **]
   -haldol prn
   -have psyche speak with her today
   3. Fever resolved, all cx neg, appears to be [**2-12**] ampicillin at this
   point
   4. Sinusisits:
   -f/u with Dr. [**First Name (STitle) 4381**]
   5. FEN: TF, may need PICC for labs
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-3-21**] 06:09 AM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2120-3-20**] 10:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and resident.  I
   have reviewed and agree with the assessment and plan as above with the
   following emphasis and modifications:
   Female with necrotizing pancreatitis and prolonged hospital course now
   much improved as latest issues of delirium and fevers have resolved.
   No new problems overnight
   On exam,  T: 37  Pulse 90   BP 130/78  RR 16   SaO2: 95% on trach
   shield
   Gen: trach in place, following commands
   Chest: CTA bilaterally
   Heart: s1 s2
   Abd: soft, NT ND
   Neuro: Responds commands, no focal neuro findings
   A:
   1)       Mental Status Changes: improved
   2)       Fevers
 now resolved and seem to have been temporally related
   to Ampicilin
   3)       Acute Respiratory Failure (ARDS)
 off vent for last 24 hours
   and on trach shield
   4)       Pancreatitis (necrotizing)
 improved
   Plan:
   1)       Continue trach shield
   2)       Prepare for discharge/placement
   3)       Physical Therapy
   Time: 25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2120-3-21**] 11:16 PM ------

2120-03-22 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c'd vanc and [**Last Name (un) **]
   - d/c'd atrovent
   - Psych consult - Pt would not speak, did recommend decreasing prn
   haldol to 5mg
   - d/c'd rectal tube and Foley with no difficulty voiding
   - bed at radius for Friday
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Ampicillin
   Fever/Chills;
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-19**] 08:00 AM
   Meropenem - [**2120-3-21**] 06:17 AM
   Vancomycin - [**2120-3-21**] 08:00 AM
   Fluconazole - [**2120-3-21**] 04:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-3-21**] 08:00 AM
   Haloperidol (Haldol) - [**2120-3-21**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-22**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 70 (70 - 115) bpm
   BP: 117/67(80) {93/51(63) - 133/79(91)} mmHg
   RR: 16 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
                  Total In:
                                                                  1,970 mL
                                                                    282 mL
   PO:
                  TF:
                                                                    964 mL
                                                                    282 mL
   IVF:
                                                                    526 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    450 mL
   Urine:
                                                                  1,400 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    320 mL
                                                                   -168 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Normal
   Labs / Radiology
   289 K/uL
   7.2 g/dL
   113 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   13 mg/dL
   104 mEq/L
   137 mEq/L
   21.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
                             [**2120-3-15**]  02:56 AM
                             [**2120-3-15**]  02:06 PM
                             [**2120-3-16**]  05:31 AM
                             [**2120-3-17**]  04:36 AM
                             [**2120-3-18**]  04:17 AM
                             [**2120-3-19**]  04:29 AM
                             [**2120-3-20**]  03:51 AM
                             [**2120-3-22**]  03:56 AM
   WBC
   7.0
   8.6
   9.7
   9.3
   10.2
   10.9
   8.1
   12.0
   7.6
   Hct
   23.6
   23.2
   22.7
   21.4
   21.7
   22.2
   21.5
   20.8
   21.7
   Plt
   [**Telephone/Fax (3) **]99
   274
   282
   259
   243
   289
   Cr
   0.8
   0.8
   0.9
   0.9
   0.8
   0.8
   0.8
   0.7
   TCO2
   39
   Glucose
   100
   98
   105
   114
   118
   120
   132
   113
   Other labs: PT / PTT / INR:16.2/30.2/1.4, CK / CKMB / Troponin-T:30//,
   ALT / AST:20/35, Alk Phos / T Bili:155/0.7, Amylase / Lipase:44/38,
   Differential-Neuts:66.6 %, Band:4.0 %, Lymph:19.1 %, Mono:9.5 %,
   Eos:4.4 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:248 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   24 y/o female with multiorgan failure, now with persistent respiratory
   failure and fevers.
   # Respiratory failure:  Resolved.
   - trach collar, now off vent for 48 hours
   - OOB
   - goal even today
   - Provide pressure support only as needed
   - bronch/BAL: no organisms, abx stopped [**2120-3-21**]
   - Will make Albuterol PRN and d/c Ipratroprium [**2120-3-21**]
   # Altered mental status:  Improving greatly.
   - Continued Methadone with scheduled slow taper
   - clonidine taper, today 0.2 [**Hospital1 **]
   - Haldol IV per psych recs (weaning)
 need to discuss continuation
   given tremors and fevers
   # Fever: Afebrile.
   - Follow-up culture data
   - Plan for completion of Fluc as per ID on [**3-25**]
   - Off abx
   - drug fever
  Ampicillin for risk of contribution
   - RUQ US negative
   - LENIs negative
   - Will add Ampicillin to allergy list as likely cause of fever.
   # Enterococcus bacteremia:  Enteroccus on [**3-7**].  Treated and resolved.
   # Sinusitis:  Repeat CT scan revealed sinusitis improving but ? fungal
   colonization.
   - ENT following, need follow up with Dr.[**First Name (STitle) 4381**] in two weeks, nothing
   further to do, appears improved by imaging
   # Anemia:  Iron studies concerning for anemia of chronic disease.
   Currently stable at ~21-22.
   - minimize blood draws, HCT goal approximately > 20
   # FEN:  Tube feed via j-tube; replete lytes prn
   - nutrition consult
   # PPx: sc heparin, famotidine
   # Access: [**Last Name (LF) 1200**], [**First Name3 (LF) 116**] attempt to get a 2^nd today (22 Gauge - [**2120-3-20**]
   10:24 PM)
   # Code: FULL Code
   # Contact: Father, also has a fiance
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2120-3-20**] 10:24 PM
   20 Gauge - [**2120-3-21**] 02:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-03-22 11:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued on TM. Afebrile. Vanco and [**Last Name (un) **] stopped as her BAL was neg.
   Going to rehab today.
   Allergies:
   Amoxicillin
   Unknown;
   Penicillins
   Nausea/Vomiting
   Ampicillin
   Fever/Chills;
   Last dose of Antibiotics:
   Meropenem - [**2120-3-21**] 06:17 AM
   Vancomycin - [**2120-3-21**] 08:00 AM
   Fluconazole - [**2120-3-21**] 04:00 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2120-3-21**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2120-3-22**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-22**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 70 (70 - 108) bpm
   BP: 110/64(73) {109/51(66) - 133/79(91)} mmHg
   RR: 16 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 74.9 kg
   Height: 61 Inch
                  Total In:
                                                                  1,970 mL
                                                                    452 mL
   PO:
                  TF:
                                                                    964 mL
                                                                    452 mL
   IVF:
                                                                    526 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    600 mL
   Urine:
                                                                  1,400 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    320 mL
                                                                   -148 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   289 K/uL
   113 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   13 mg/dL
   104 mEq/L
   137 mEq/L
   21.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2120-3-13**]  06:31 AM
                             [**2120-3-14**]  03:57 AM
                             [**2120-3-15**]  02:56 AM
                             [**2120-3-15**]  02:06 PM
                             [**2120-3-16**]  05:31 AM
                             [**2120-3-17**]  04:36 AM
                             [**2120-3-18**]  04:17 AM
                             [**2120-3-19**]  04:29 AM
                             [**2120-3-20**]  03:51 AM
                             [**2120-3-22**]  03:56 AM
   WBC
   7.0
   8.6
   9.7
   9.3
   10.2
   10.9
   8.1
   12.0
   7.6
   Hct
   23.6
   23.2
   22.7
   21.4
   21.7
   22.2
   21.5
   20.8
   21.7
   Plt
   [**Telephone/Fax (3) **]99
   274
   282
   259
   243
   289
   Cr
   0.8
   0.8
   0.9
   0.9
   0.8
   0.8
   0.8
   0.7
   TCO2
   39
   Glucose
   100
   98
   105
   114
   118
   120
   132
   113
   Other labs: PT / PTT / INR:16.2/30.2/1.4, CK / CKMB / Troponin-T:30//,
   ALT / AST:20/35, Alk Phos / T Bili:155/0.7, Amylase / Lipase:44/38,
   Differential-Neuts:66.6 %, Band:4.0 %, Lymph:19.1 %, Mono:9.5 %,
   Eos:4.4 %, Fibrinogen:318 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.2
   g/dL, LDH:248 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 BACTEREMIA
 HYPERNATREMIA (HIGH SODIUM)
 HYPERCALCEMIA (HIGH CALCIUM)
 RISK FOR INJURY
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ANXIETY
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   1. ARDS:
   Recovered
   -cont. TM
   -stopped abx as BAL was neg
   2. Pancreatitis: No pain, tolerating TF
   -peripanc fluid collection was sterile
   3. Candidal colonization:
   -cont. fluconazole [**3-25**]
   4. Delirium/narc w/d:
   -cont. clonidine taper
   -cont. methadone taper
   5. Has 2 PIVs
   6. FEN: Cont. TF
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-3-22**] 07:01 AM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2120-3-20**] 10:24 PM
   20 Gauge - [**2120-3-21**] 02:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and resident.  I
   have reviewed and agree with the assessment and plan as above with the
   following emphasis and modifications:
   Female with necrotizing pancreatitis and prolonged hospital course now
   much improved as latest issues of delirium and fevers have resolved.
   No new problems overnight
   On exam,  T: 37  Pulse 70   BP 110/78  RR 16   SaO2: 100% on trach
   shield
   Gen: trach in place, following commands
   Chest: CTA bilaterally
   Heart: s1 s2
   Abd: soft, NT ND
   Neuro: Responds commands, no focal neuro findings
   A:
   1)       Mental Status Changes: improved
   2)       Fevers
 now resolved and seem to have been temporally related
   to Ampicilin
   3)       Acute Respiratory Failure (ARDS)
 off vent for last 24 hours
   and on trach shield
   4)       Pancreatitis (necrotizing)
 improved
   Plan:
   1)       Continue trach shield
   2)       Can transfer to floor
   3)       Continue to work on placement
   Time: 25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2120-3-22**] 17:47 ------